2189-02-13 08:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2189-2-13**] 12:05 AM
 PICC LINE - START [**2189-2-13**] 12:06 AM
 BLOOD CULTURED - At [**2189-2-13**] 12:33 AM
   blood cultures sent from LIJ
 INVASIVE VENTILATION - START [**2189-2-13**] 12:43 AM
 EKG - At [**2189-2-13**] 02:34 AM
 PICC LINE - STOP [**2189-2-13**] 04:00 AM
 ARTERIAL LINE - START [**2189-2-13**] 04:20 AM
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2189-2-13**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-2-13**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2189-2-13**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-13**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 90 (80 - 115) bpm
   BP: 105/45(68) {105/45(68) - 145/58(86)} mmHg
   RR: 20 (18 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 12 (7 - 15)mmHg
   CO/CI (Fick): (28.6 L/min) / (16.9 L/min/m2)
   SvO2: 92%
   Mixed Venous O2% Sat: 97 - 97
   Total In:
                                                                 11,229 mL
   PO:
   TF:
   IVF:
                                                                  6,429 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    275 mL
   Urine:
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 10,954 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 130 (130 - 130) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/32/115/18/-6
   Ve: 8.9 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   250 K/uL
   9.2 g/dL
   150 mg/dL
   1.3 mg/dL
   18 mEq/L
   3.8 mEq/L
   20 mg/dL
   112 mEq/L
   142 mEq/L
   27.9 %
   21.5 K/uL
        [image002.jpg]
                             [**2189-2-12**]  11:27 PM
                             [**2189-2-13**]  12:51 AM
                             [**2189-2-13**]  01:00 AM
                             [**2189-2-13**]  03:38 AM
                             [**2189-2-13**]  06:52 AM
   WBC
   21.5
   Hct
   25.7
   27.9
   Plt
   250
   Cr
   1.3
   TCO2
   17
   22
   19
   Glucose
   150
   Other labs: PT / PTT / INR:24.6/69.4/2.4, ALT / AST:107/313, Alk Phos /
   T Bili:194/2.9, Differential-Neuts:90.0 %, Lymph:7.6 %, Mono:2.0 %,
   Eos:0.2 %, Lactic Acid:2.3 mmol/L, Albumin:2.5 g/dL, LDH:353 IU/L,
   Ca++:6.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HEPATITIS, CHRONIC VIRAL
 COLITIS, OTHER (NOT CDIFF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   22 Gauge - [**2189-2-13**] 12:06 AM
   18 Gauge - [**2189-2-13**] 12:06 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-02-14 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: abd pain, N/V
   24 Hour Events:
 BLOOD CULTURED - At [**2189-2-13**] 03:47 PM
 STOOL CULTURE - At [**2189-2-13**] 03:47 PM
 SPUTUM CULTURE - At [**2189-2-13**] 03:48 PM
 RECTAL SWAB - At [**2189-2-13**] 03:48 PM
 EKG - At [**2189-2-14**] 04:15 AM
   - antibiotic regimen changed to PO vanc, IV vanc. gent x 1.  Vanc
   changed to linezolid in case we're missing VRE
   - briefly given hydrocort, but random cortisol came back in 40s and no
   improvement after, so it was stopped
   - givin IVIG
   - mini BAL performed
   - hooked up to vigileo.
   - progressed to 3 pressors, activated protein c
   - surgery involved - no surgery
   - around 3am - dropped sats and BP, improved with recruitment.  CXR
   showing bilateral fluid
   - family came --> still NOT DNR
   - insulin drip started
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2189-2-13**] 08:00 PM
   Vancomycin - [**2189-2-14**] 12:00 AM
   Meropenem - [**2189-2-14**] 04:00 AM
   Metronidazole - [**2189-2-14**] 04:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 250 mcg/hour
   Norepinephrine - 0.45 mcg/Kg/min
   Cisatracurium - 0.12 mg/Kg/hour
   Drotrecogin (Xigris) - 2 mg/hour
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-2-13**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2189-2-13**] 07:30 AM
   Cisatracurium - [**2189-2-13**] 11:40 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2189-2-14**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-14**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.9
   HR: 111 (89 - 124) bpm
   BP: 130/55(78) {85/40(56) - 130/57(78)} mmHg
   RR: 36 (12 - 36) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 12 (8 - 26)mmHg
   CO/CI (Fick): (34.4 L/min) / (20.3 L/min/m2)
   SvO2: 95%
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                 19,079 mL
                                                                  2,508 mL
   PO:
   TF:
   IVF:
                                                                 13,662 mL
                                                                  2,398 mL
   Blood products:
                                                                    517 mL
   Total out:
                                                                    695 mL
                                                                    221 mL
   Urine:
                                                                    595 mL
                                                                    221 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 18,384 mL
                                                                  2,287 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (0 - 450) mL
   RR (Set): 36
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 48 cmH2O
   Plateau: 43 cmH2O
   Compliance: 17.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.21/35/80.[**Numeric Identifier 20**]/12/-13
   Ve: 15 L/min
   PaO2 / FiO2: 80
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   394 K/uL
   10.8 g/dL
   298 mg/dL
   1.4 mg/dL
   12 mEq/L
   4.3 mEq/L
   26 mg/dL
   108 mEq/L
   139 mEq/L
   34.9 %
   46.9 K/uL
        [image002.jpg]
                             [**2189-2-13**]  06:08 PM
                             [**2189-2-13**]  09:03 PM
                             [**2189-2-13**]  09:13 PM
                             [**2189-2-13**]  11:00 PM
                             [**2189-2-13**]  11:58 PM
                             [**2189-2-14**]  01:03 AM
                             [**2189-2-14**]  02:22 AM
                             [**2189-2-14**]  02:26 AM
                             [**2189-2-14**]  04:05 AM
                             [**2189-2-14**]  05:44 AM
   WBC
   31.5
   33.0
   40.9
   46.9
   Hct
   27.4
   29.2
   32.7
   34.9
   Plt
   346
   324
   365
   394
   Cr
   1.4
   1.4
   1.4
   1.4
   TCO2
   12
   14
   14
   14
   15
   15
   Glucose
   194
   278
   278
   298
   Other labs: PT / PTT / INR:49.5/150.0/5.6, ALT / AST:115/366, Alk Phos
   / T Bili:177/3.1, Amylase / Lipase:[**10-30**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6342 ng/mL,
   Lactic Acid:8.6 mmol/L, Albumin:2.5 g/dL, LDH:516 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago
   last flare, recent cryptospordial infection presented to OSH with
   worsening abdominal pain, nausea and vomitting.
   .
   # Sepsis:  Her presentaion is concerning given elevated lactate and
   hypotension.  Patient has pancolitis.   Stool studies in the past have
   been negative includign C diff negative x 2.  She also has RLL
   pneumonia with airbronchograms.  Unclear whether PNA is secondary to
   aspiration.
   - appreciate surgical input, called for consult
   - rivers protocol for sepsis
   - will resend stool studies including c diff
   - follow up BCx, UCx
   - will broaden coverage with vanc/zosyn for HAP, redose vanc per level
   given ARF
   - will continue ceftrixaone for double gram negative coverage for bowel
   pathogens
   - will continue flagyl for possible c diff
   - will d/c PICC line and send for culture
   - liver team was notified per ED signout
   .
   # Abdominal pain: Pancolitis as above.
   - guaic all stools
   .
   # AMS:  Most likely in the setting of sepsis.  Hepatic encephalopathy
   could also be contributing. Also had elevated ammonia at OSH.
   Asterixis was noted in ED examination.
   - will hold off on lactulose given colitis workup as above, already
   received lactulose in ED per verbal signout
   - will send serum acetone for possible DKA
   .
   # Intubated:  For medical workup in ED.  No history of respiratory
   failure.
   - will keep her intubated overnight, consider switching to pressure
   support
   .
   # ARF:  Unclear etiology.  Possibly secondary to ATN given sepsis.
   - adequate fluid resuscitation
   - send urine lytes
   - follow UCx
   - will trend Cr
   - avoid nephrotoxins
   - renally dose meds
   .
   # Bacteremia: Strep pneumo in blood as above.
   - follow up Cx
   - ABx as above
   .
   # Chronic Hepatitis C: Recent paracentesis concerning for SBP as
   above.  Patient is already on ceftriaxone.  Patient is coagulopathic
   with increasing INR concerning for worsening synthetic function.
   - notify liver fellow again in AM
   .
   # DM Type I:  Patient is NPO for now.
   - resume home insulin regimen once diet is advanced.
   .
   # Asthma: continue home regimen
   .
   # Anemia: admitted with near baseline level.  Mildy decreased after
   fluid resuscitation.
   - trend HCT
   - active T&S
   - guaic all stools
   .
   # FEN: NPO for now
   .
   # PPx: sc heparin, PPI, VAP bundle
   .
   # Access: Left IJ placed in ED, PICC from recent admission, 2 PIV
   .
   # Contact: With patient and Fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   .
   # Code: Full Code
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   22 Gauge - [**2189-2-13**] 12:06 AM
   18 Gauge - [**2189-2-13**] 12:06 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-02-15 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -dropped PEEP to 18
   -dropped FiO2 to 85
   -stopped bicarb
   -stopped paralytics
   -OSH blood cx neg
   - put back on paralytics given high plateau pressures of 44
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-14**] 12:00 AM
   Linezolid - [**2189-2-14**] 09:36 PM
   Metronidazole - [**2189-2-15**] 03:39 AM
   Meropenem - [**2189-2-15**] 04:39 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Fentanyl - 500 mcg/hour
   Drotrecogin (Xigris) - 2 mg/hour
   Midazolam (Versed) - 15 mg/hour
   Cisatracurium - 0.11 mg/Kg/hour
   Other ICU medications:
   Fentanyl - [**2189-2-15**] 12:06 AM
   Midazolam (Versed) - [**2189-2-15**] 12:06 AM
   Dextrose 50% - [**2189-2-15**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-15**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 83 (83 - 97) bpm
   BP: 111/59(75) {102/45(62) - 154/61(85)} mmHg
   RR: 26 (0 - 36) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 22 (12 - 31)mmHg
   CO/CI (Fick): (11.3 L/min) / (6.7 L/min/m2)
   Mixed Venous O2% Sat: 82 - 82
   Total In:
                                                                  7,482 mL
                                                                  1,351 mL
   PO:
   TF:
   IVF:
                                                                  7,192 mL
                                                                  1,251 mL
   Blood products:
   Total out:
                                                                    998 mL
                                                                    312 mL
   Urine:
                                                                    998 mL
                                                                    312 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,484 mL
                                                                  1,039 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (300 - 400) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 36 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 91%
   ABG: 7.34/38/145/24/-4
   Ve: 9.1 L/min
   PaO2 / FiO2: 145
   Physical Examination
   gen: intubated sedated
   heent: MMM
   pulm: diffuse rhonchi
   cv: S1S2 RRR
   abd: distended, no BS
   extr: full body anasarca
   neuro: intubated, sedated, paralyzed
   Labs / Radiology
   207 K/uL
   9.8 g/dL
   68 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.2 mEq/L
   29 mg/dL
   110 mEq/L
   139 mEq/L
   30.2 %
   20.2 K/uL
        [image002.jpg]
                             [**2189-2-14**]  01:00 PM
                             [**2189-2-14**]  02:22 PM
                             [**2189-2-14**]  02:44 PM
                             [**2189-2-14**]  04:39 PM
                             [**2189-2-14**]  06:00 PM
                             [**2189-2-14**]  09:01 PM
                             [**2189-2-14**]  11:40 PM
                             [**2189-2-15**]  03:10 AM
                             [**2189-2-15**]  03:37 AM
                             [**2189-2-15**]  05:11 AM
   WBC
   23.8
   19.5
   20.2
   Hct
   28.0
   28.7
   30.2
   Plt
   185
   195
   207
   Cr
   1.2
   1.2
   1.1
   TCO2
   25
   24
   26
   27
   28
   21
   Glucose
   259
   344
   296
   61
   68
   Other labs: PT / PTT / INR:42.7/>150.0/4.7, ALT / AST:115/366, Alk Phos
   / T Bili:177/3.1, Amylase / Lipase:[**10-30**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6342 ng/mL,
   Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:516 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago, last
   flare, recent cryptospordial infection presented to OSH with worsening
   abdominal pain, nausea and vomitting.
   .
   # Sepsis:  Significant worsening yesterday.   Currently becoming
   relatively stable.  Has now received IVIG and xigris.    Still
   requiring two pressors.  Patient has pancolitis.   Stool studies in the
   past have been negative includign C diff negative x 2.  She also has
   RLL pneumonia with airbronchograms.  Unclear whether PNA is secondary
   to aspiration.
   - appreciate surgical input, called for consult
 surgery likely too
   risky
   - rivers protocol for sepsis
   - f/u cultures, currently NTD including at OSH.
   - cont broad spectrim antibiotics
   - appreciate ID recs
   - appreciate  liver recs
   - will d/c Xigris as below given coagulopathy
   .
   # Resp distress:  Improved yesterday with recruitment maneuvers.  ?
   ARDS.
   - will attempt to wean off FiO2 and increase PEEP if necessary given
   decreased compliant and increased abd distension
   .
   # Abdominal pain: Pancolitis as above.  Guaiac positive.  Sigmoidoscopy
   during recent admission showed mild dysplasia.
   - repeat scope in [**Month (only) **] per GI fellow
   - guaic all stools
   .
   # ARF:  Unclear etiology.  Possibly secondary to ATN given sepsis.
   Stable.  Urine lytes prerenal.
   - adequate fluid resuscitation
   - follow UCx
   - will trend Cr
   - avoid nephrotoxins
   - renally dose meds
   .
   # Chronic Hepatitis C: Recent paracentesis concerning for SBP, though
   aseptic on culture.   Very small amount of ascites, too small to tap at
   bedside and not likely enough for SBP.
   - liver recs
   - broad spectrum antibiotics  as above
   .
   # DM Type I:  Patient is NPO for now.
   - insulin drip for rising BG
   .
   # Asthma: intubated
   .
   # Anemia: admitted with near baseline level.  Mildy decreased after
   fluid resuscitation.
   - trend HCT, goal > 30.
   - active T&S
   - guaic all stools
   .
   # Coagulopathy:  In the settting of Xigris.  Given no clear benefit at
   this time with Xigris and severe coagulopathy, will d/c Xigris.
   .
   # FEN: NPO, replete lytes
   .
   # PPx: INR > 6.  PPI, VAP bundle
   .
   # Access: Left IJ placed in ED, 1 PIV
   .
   # Contact: With patient and Fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   .
   # Code: Full Code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   22 Gauge - [**2189-2-13**] 12:06 AM
   18 Gauge - [**2189-2-13**] 12:06 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-02-15 08:35:00 Physician Attending Progress Note
Chief Complaint: sepsis
   HPI:
   24 Hour Events:
   PEEP down to 18, FI02 to 85%
   Stopped HCO3  gtt and paralytics yesterday, but restarted paralytics
   this morning after prolonged desaturation after a move.
   Vomited x1
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-14**] 12:00 AM
   Linezolid - [**2189-2-14**] 09:36 PM
   Metronidazole - [**2189-2-15**] 03:39 AM
   Meropenem - [**2189-2-15**] 04:39 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Fentanyl - 500 mcg/hour
   Drotrecogin (Xigris) - 2 mg/hour
   Midazolam (Versed) - 15 mg/hour
   Cisatracurium - 0.11 mg/Kg/hour
   Other ICU medications:
   Fentanyl - [**2189-2-15**] 12:06 AM
   Midazolam (Versed) - [**2189-2-15**] 12:06 AM
   Dextrose 50% - [**2189-2-15**] 04:00 AM
   Other medications:
   Protonix, Insulin gtt (currently on hold)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-15**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 83 (83 - 97) bpm
   BP: 111/59(75) {102/45(62) - 154/61(85)} mmHg
   RR: 26 (0 - 36) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 22 (12 - 31)mmHg
   CO/CI (Fick): (11.3 L/min) / (6.7 L/min/m2)
   Mixed Venous O2% Sat: 82 - 82
   Total In:
                                                                  7,482 mL
                                                                  1,408 mL
   PO:
   TF:
   IVF:
                                                                  7,192 mL
                                                                  1,308 mL
   Blood products:
   Total out:
                                                                    998 mL
                                                                    312 mL
   Urine:
                                                                    998 mL
                                                                    312 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,484 mL
                                                                  1,096 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (300 - 400) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 36 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 91%
   ABG: 7.34/38/145/24/-4
   Ve: 9.1 L/min
   PaO2 / FiO2: 145
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: R base, Rhonchorous: )
   Abdominal: Distended, no BS
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   207 K/uL
   68 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.2 mEq/L
   29 mg/dL
   110 mEq/L
   139 mEq/L
   30.2 %
   20.2 K/uL
        [image002.jpg]
                             [**2189-2-14**]  01:00 PM
                             [**2189-2-14**]  02:22 PM
                             [**2189-2-14**]  02:44 PM
                             [**2189-2-14**]  04:39 PM
                             [**2189-2-14**]  06:00 PM
                             [**2189-2-14**]  09:01 PM
                             [**2189-2-14**]  11:40 PM
                             [**2189-2-15**]  03:10 AM
                             [**2189-2-15**]  03:37 AM
                             [**2189-2-15**]  05:11 AM
   WBC
   23.8
   19.5
   20.2
   Hct
   28.0
   28.7
   30.2
   Plt
   185
   195
   207
   Cr
   1.2
   1.2
   1.1
   TCO2
   25
   24
   26
   27
   28
   21
   Glucose
   259
   344
   296
   61
   68
   Other labs: PT / PTT / INR:42.7/>150.0/4.7, ALT / AST:115/366, Alk Phos
   / T Bili:177/3.1, Amylase / Lipase:[**10-30**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6342 ng/mL,
   Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:516 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: CVO2 82%
   Microbiology: miniBAL NGTD
   all cultures neg to date
   Assessment and Plan
   CV/ID: Shock- likely septic, most likely source is gut with colitis on
   CT. Other possibility includes lungs, CNS also not explored. Covering
   broadly- On Linezolid, oral Vanc, Meropenem, Flagyl. ID does not feel
   fungal coverage necessary.
   Not a surgical candidate, per surgery.
   All cxs, cdiff pending.
   Altered mental status: ? encephalopathy from Hep C cirrhosis. Start
   lactulose when GI status improved. Did not have LP to eval for CNS
   infection, but broadly covered with abx and over clinical status
   stabilized.
   Renal failure: Likely related to sepsis, stable Cr so far.
   Resp: Now with much worse resp status, evolved ARDS. Would like to try
   to wean settings to  ARDSnet protocol if continues to improve.
   Hep C cirrhosis and coagulopathy: Vit K, FFP for procedures
   DM I: started insulin gtt.
   Neuro: on Fent/Versed, currently paralyzed again, will try again to
   stop later today if resp status improves.
   Heme- Anemia: +guiac stools with coagulopathy. Watch closely  for signs
   of bleeding on Xigris. Received blood transfusion for sepsis, follow
   Hct. coags worse on Xigris..will d/w pharmacy re: holding infusion for
   PTT>100.
    ICU: VAP bundle, PPI, L IJ, 18 g IV.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   22 Gauge - [**2189-2-13**] 12:06 AM
   18 Gauge - [**2189-2-13**] 12:06 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2189-02-16 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: n/v, abd pain
   24 Hour Events:
   - Xigris discontinued given markedly abnormal coags
   - weaned paralytics off
   - C diff positive in [**Hospital3 **] from [**2189-2-12**], rest of the stool
   studies (E Coli, campylobacter, salmonella were negative), BCx NGTD
   - ET tube advanced
   - Tvolume decreased
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-14**] 12:00 AM
   Linezolid - [**2189-2-15**] 10:06 PM
   Metronidazole - [**2189-2-16**] 04:00 AM
   Meropenem - [**2189-2-16**] 04:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-16**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 75 (73 - 94) bpm
   BP: 111/52(71) {89/43(59) - 134/66(91)} mmHg
   RR: 0 (0 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 12 (6 - 308)mmHg
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  3,692 mL
                                                                    539 mL
   PO:
   TF:
   IVF:
                                                                  3,592 mL
                                                                    539 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    740 mL
   Urine:
                                                                    865 mL
                                                                    240 mL
   NG:
                                                                    400 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  2,427 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 380) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 44 cmH2O
   Plateau: 38 cmH2O
   Compliance: 15.2 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/39/70/25/0
   Ve: 10 L/min
   PaO2 / FiO2: 100
   Physical Examination
   Gen: intubated, sedated
   Pulm: diffuse rhonchi
   Cv: hrrr, no m/r/g
   Abd: distended, tense, no BS
   Extr: 3+ anasarca throughout
   Neuro: intubated, sedated
   Labs / Radiology
   179 K/uL
   9.7 g/dL
   114
   1.2 mg/dL
   25 mEq/L
   4.6 mEq/L
   35 mg/dL
   109 mEq/L
   139 mEq/L
   29.6 %
   18.0 K/uL
        [image002.jpg]
                             [**2189-2-16**]  12:00 AM
                             [**2189-2-16**]  01:00 AM
                             [**2189-2-16**]  02:00 AM
                             [**2189-2-16**]  03:00 AM
                             [**2189-2-16**]  03:02 AM
                             [**2189-2-16**]  03:17 AM
                             [**2189-2-16**]  04:00 AM
                             [**2189-2-16**]  05:00 AM
                             [**2189-2-16**]  06:09 AM
                             [**2189-2-16**]  07:00 AM
   WBC
   18.0
   Hct
   29.6
   Plt
   179
   Cr
   1.2
   TCO2
   25
   25
   Glucose
   158
   157
   156
   131
   117
   129
   122
   80
   114
   Other labs: PT / PTT / INR:30.3/56.7/3.1, ALT / AST:115/366, Alk Phos /
   T Bili:177/3.1, Amylase / Lipase:[**10-30**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6342 ng/mL,
   Lactic Acid:2.7 mmol/L, Albumin:2.5 g/dL, LDH:516 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago, last
   flare, recent cryptospordial infection presented to OSH with worsening
   abdominal pain, nausea and vomitting.
   .
   # Sepsis:  Improvement in ABG since Friday.  Weaned off 1 of 3
   pressors, though unable to wean further.   Has now received IVIG and
   xigris.  Xigris stopped on [**2-15**] secondary to elevated coags and risk of
   bleeding thought to outway benefit.  Now growing cdiff on OSH stool
   cuture.  Other scutlures are significant for VRE + swab, and UCx as
   well as mini BAL growing yeast.  Pulm status is complicated by an [**Month/Year (2) **]
   picture.
   - appreciate surgical input, called for consult
 surgery likely too
   risky.  Cont to follow.
   - rivers protocol for sepsis, though tolerate MAP > 60
   - f/u cultures
   - cont broad spectrim antibiotics
   - add caspo for yeast in multiple places
   - change vanc to PR given edematous bowel and likely poor absorption
   - appreciate ID recs
   - appreciate  liver recs
   - albumin PRN for intravascular volume, gage by CVP goal [**8-5**]
   - [**Month/Year (2) **] protocol ventilation, wean peep and fiO2 as tolerated
   - wean sedation
   .
   # Resp distress:  Improved yesterday with recruitment maneuvers.  ?
   [**Month/Year (2) **].
   - ventilation as above
   - esophageal balloon
   .
   # Abdominal pain: Pancolitis as above.  Guaiac positive.  Sigmoidoscopy
   during recent admission showed mild dysplasia.
   - repeat scope in [**Month (only) **] per GI fellow
   - guaiac all stools
   - f/u with surgery re: indication for surgery as status changes
   .
   # ARF:  Unclear etiology.  Possibly secondary to ATN given sepsis.
   Stable.  Urine lytes prerenal.
   - adequate fluid resuscitation
   - follow UCx
   - will trend Cr
   - avoid nephrotoxins
   - renally dose meds
   .
   # Chronic Hepatitis C: Recent paracentesis concerning for SBP, though
   aseptic on culture.   Very small amount of ascites, too small to tap at
   bedside and not likely enough for SBP.
   - liver recs
   - follow LFTs
   - broad spectrum antibiotics  as above
   .
   # DM Type I:  Patient is NPO for now.
   - insulin drip now off
   - SSI
   .
   # Asthma: intubated
   .
   # Anemia: admitted with near baseline level.  Mildy decreased after
   fluid resuscitation.
   - trend HCT, goal > 30.
   - active T&S
   - guaiac all stools
   .
   # Coagulopathy:  In the settting of Xigris.  Xigris d/c
d [**2-15**].
   Improving coags.  Concern for pulm thrombosis in setting of [**Last Name (LF) **], [**First Name3 (LF) **] do
   not correct rapidly.  Has grossly bloody urine without clots, but no
   other signs of bleeding.  Follow for now.
   .
   # FEN: NPO, replete lytes
   .
   # PPx: INR > 3.  PPI, VAP bundle
   .
   # Access: Left IJ placed in ED. Unable to improve access to quad lumen
   in setting of pressors and total fluid body overload
   .
   # Contact: With patient and Fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   .
   # Code: Full Code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   22 Gauge - [**2189-2-13**] 12:06 AM
   18 Gauge - [**2189-2-13**] 12:06 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Prophylaxis:
   DVT: supertherapeutic INR
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-02-16 10:46:00 Physician Attending Progress Note
Chief Complaint: Septic shock, HCV, CVID, cdiff colitis, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Xigris stopped with very high coags and clinical improvement
   Vent weaned a little after recruitment protocol. On ARDSnet.
   Paralytics weaned off.
   Cdiff + at OSH
   On 2 pressors
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-14**] 12:00 AM
   Linezolid - [**2189-2-15**] 10:06 PM
   Metronidazole - [**2189-2-16**] 04:00 AM
   Meropenem - [**2189-2-16**] 04:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.13 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-16**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.4
   HR: 88 (73 - 94) bpm
   BP: 97/43(61) {84/38(53) - 134/66(91)} mmHg
   RR: 26 (0 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 12 (6 - 308)mmHg
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  3,692 mL
                                                                    633 mL
   PO:
   TF:
   IVF:
                                                                  3,592 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    990 mL
   Urine:
                                                                    865 mL
                                                                    340 mL
   NG:
                                                                    400 mL
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                  2,427 mL
                                                                   -357 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 380) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 44 cmH2O
   Plateau: 37 cmH2O
   Compliance: 16 cmH2O/mL
   SpO2: 93%
   ABG: 7.42/37/74/25/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 106
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: R base, Rhonchorous: )
   Abdominal: Distended, no BS
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   179 K/uL
   114
   1.2 mg/dL
   25 mEq/L
   4.6 mEq/L
   35 mg/dL
   109 mEq/L
   139 mEq/L
   29.6 %
   18.0 K/uL
        [image002.jpg]
                             [**2189-2-16**]  01:00 AM
                             [**2189-2-16**]  02:00 AM
                             [**2189-2-16**]  03:00 AM
                             [**2189-2-16**]  03:02 AM
                             [**2189-2-16**]  03:17 AM
                             [**2189-2-16**]  04:00 AM
                             [**2189-2-16**]  05:00 AM
                             [**2189-2-16**]  06:09 AM
                             [**2189-2-16**]  07:00 AM
                             [**2189-2-16**]  09:23 AM
   WBC
   18.0
   Hct
   29.6
   Plt
   179
   Cr
   1.2
   TCO2
   25
   25
   25
   Glucose
   157
   156
   131
   117
   129
   122
   80
   114
   Other labs: PT / PTT / INR:30.3/56.7/3.1, ALT / AST:115/366, Alk Phos /
   T Bili:177/3.1, Amylase / Lipase:[**10-30**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6342 ng/mL,
   Lactic Acid:2.9 mmol/L, Albumin:2.5 g/dL, LDH:516 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Microbiology: UCx: yeast, unable to change foley
   Minibal: yeast
   VRE: +
   CXR: ARDS with improved air space disease
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 COCAINE ABUSE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATITIS, CHRONIC VIRAL
 COLITIS, OTHER (NOT CDIFF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PNEUMONIA, OTHER
   42 y/o F with DM, CVID, Hep C, with septic shock of unclear etiology
   complicated by ARDS. She has pancolitis and is cdiff positive by report
   from OSH.  DDx for sepsis includes cdiff colitis, peritonitis/SBP, VRE
   colonized.
   ARDS/Acute Resp Failure: ventilation has been increasingly difficult
   today due to ventilator dyssynchrony. This was in the setting of
   reduced sedation. An esophageal balloon was floated which showed
   transpulmonary pressures of -12 (very high Pesoph). Bladder pressure
   was 24. On ARDSnet pressures currently by A/C 320x25, peep 16, FiO2
   70%. Paralysis was ultimately required for above increasing difficulty
   ventilating and oxygenating. Based on transpulmonary pressures, there
   is some room to go on the PEEP tonight. We will increase as needed. At
   least 40 minutes was spent at the bedside to optimize vent settings.
   CVID: got IgG replaced last week
   Shock: Albumin to optimize CVP. Off Xigris due to high PTTs
   Surgical reeval ? sx candidate
   ID: Abx: Linezolid, [**Last Name (un) 350**], iv flagyl, change po vanc to pr.
   Stool studies and other cultures pend. Cdiff + at OSH.
   Add caspo for yeast in 2 places in critically ill patient.
   DM: off insulin drip
   Renal: stable, follow. Check UA
   GI: Hep C cirrhosis + colitis on CT.
   Rest per resident note
   ICU Care
   Nutrition: npo for ileus. Consult  nutrition for consideration of TPN.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   22 Gauge - [**2189-2-13**] 12:06 AM
   18 Gauge - [**2189-2-13**] 12:06 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Prophylaxis:
   DVT: INR high
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  I have updated fiancee throughout the day
   Code status: Full code
   Disposition :ICU
   Total time spent: 80 minutes
   Patient is critically ill

2189-02-17 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - paralyzed again to help with acid-base status
   - hyperkalemia: improve acidosis or ? CVVH
   - bedside U/S shows tap-able pocket - radiology to tap in AM
   - got 5mg IV vit k, FFP to go in before paracentesis
   - esophageal balloon placed
   - got albumin, pRBCs, and IVF today
   - caspofungin started, then d/c'd per ID recs
   - vigileo not working
   - surgery reported that surgery would be last ditch effort
   - needs qAM paralysis holidays
 BLOOD CULTURED - At [**2189-2-16**] 10:00 PM
   2nd of 2 sets. Drawn from TLC.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2189-2-16**] 11:04 AM
   Meropenem - [**2189-2-17**] 04:00 AM
   Metronidazole - [**2189-2-17**] 04:30 AM
   Vancomycin - [**2189-2-17**] 06:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.31 mcg/Kg/min
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 250 mcg/hour
   Cisatracurium - 0.08 mg/Kg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-17**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 106 (74 - 120) bpm
   BP: 87/43(61) {77/38(53) - 127/58(83)} mmHg
   RR: 30 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 17 (12 - 22)mmHg
   Bladder pressure: 24 (24 - 24) mmHg
   Total In:
                                                                  4,279 mL
                                                                    854 mL
   PO:
   TF:
   IVF:
                                                                  3,124 mL
                                                                    730 mL
   Blood products:
                                                                  1,155 mL
                                                                    124 mL
   Total out:
                                                                  2,301 mL
                                                                    575 mL
   Urine:
                                                                    501 mL
                                                                    125 mL
   NG:
                                                                  1,800 mL
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                  1,978 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (320 - 380) mL
   RR (Set): 30
   RR (Spontaneous): 2
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 48 cmH2O
   Plateau: 42 cmH2O
   Compliance: 18.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.30/32/108/16/-9
   Ve: 11.9 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   9.7 g/dL
   141 mg/dL
   0.9 mg/dL
   16 mEq/L
   5.6 mEq/L
   45 mg/dL
   104 mEq/L
   138 mEq/L
   28.7 %
   12.3 K/uL
        [image002.jpg]
                             [**2189-2-16**]  12:17 PM
                             [**2189-2-16**]  01:35 PM
                             [**2189-2-16**]  03:58 PM
                             [**2189-2-16**]  06:21 PM
                             [**2189-2-16**]  09:16 PM
                             [**2189-2-16**]  11:24 PM
                             [**2189-2-16**]  11:59 PM
                             [**2189-2-17**]  02:55 AM
                             [**2189-2-17**]  05:02 AM
                             [**2189-2-17**]  05:16 AM
   WBC
   14.9
   12.3
   Hct
   30.0
   28.7
   Plt
   196
   181
   Cr
   1.4
   0.9
   TCO2
   24
   23
   22
   22
   22
   18
   19
   16
   Glucose
   132
   141
   Other labs: PT / PTT / INR:27.7/41.7/2.8, ALT / AST:349/796, Alk Phos /
   T Bili:136/10.9, Amylase / Lipase:[**10-30**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6342 ng/mL,
   Lactic Acid:1.9 mmol/L, Albumin:2.5 g/dL, LDH:516 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.8 mg/dL
   MICRO DATA:
   [**2189-2-13**] BAL:
GRAM STAIN (Final [**2189-2-13**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
RESPIRATORY CULTURE (Final [**2189-2-15**]):    NO GROWTH, <1000 CFU/ml.
LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
[**2189-2-16**] blood cx: NGTD
[**2189-2-16**] urine cx: NGTD
IMAGING:
   [**2189-2-16**] RUQ ultrasound:  cirrhotic liver with small amount ascites.
   s/p CCY.
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago, last
   flare, recent cryptospordial infection presented to OSH with worsening
   abdominal pain, nausea and vomitting.
   .
   # Sepsis:  Improvement in ABG since Friday.  Weaned off 1 of 3
   pressors, though unable to wean further.   Has now received IVIG and
   xigris.  Xigris stopped on [**2-15**] secondary to elevated coags and risk of
   bleeding thought to outway benefit.  Now growing cdiff on OSH stool
   cuture.  Other scutlures are significant for VRE + swab, and UCx as
   well as mini BAL growing yeast.  Pulm status is complicated by an [**Month/Year (2) **]
   picture.
   - appreciate surgical input, called for consult
 surgery likely too
   risky.  Cont to follow.
   - rivers protocol for sepsis, though tolerate MAP > 60
   - f/u cultures
   - cont broad spectrim antibiotics
   - add caspo for yeast in multiple places
   - change vanc to PR given edematous bowel and likely poor absorption
   - appreciate ID recs
   - appreciate  liver recs
   - albumin PRN for intravascular volume, gage by CVP goal [**8-5**]
   - [**Month/Year (2) **] protocol ventilation, wean peep and fiO2 as tolerated
   - wean sedation
   .
   # Resp distress:  Improved yesterday with recruitment maneuvers.  ?
   [**Month/Year (2) **].
   - ventilation as above
   - esophageal balloon
   .
   # Abdominal pain: Pancolitis as above.  Guaiac positive.  Sigmoidoscopy
   during recent admission showed mild dysplasia.
   - repeat scope in [**Month (only) **] per GI fellow
   - guaiac all stools
   - f/u with surgery re: indication for surgery as status changes
   .
   # ARF:  Unclear etiology.  Possibly secondary to ATN given sepsis.
   Stable.  Urine lytes prerenal.
   - adequate fluid resuscitation
   - follow UCx
   - will trend Cr
   - avoid nephrotoxins
   - renally dose meds
   .
   # Chronic Hepatitis C: Recent paracentesis concerning for SBP, though
   aseptic on culture.   Very small amount of ascites, too small to tap at
   bedside and not likely enough for SBP.
   - liver recs
   - follow LFTs
   - broad spectrum antibiotics  as above
   .
   # DM Type I:  Patient is NPO for now.
   - insulin drip now off
   - SSI
   .
   # Asthma: intubated
   .
   # Anemia: admitted with near baseline level.  Mildy decreased after
   fluid resuscitation.
   - trend HCT, goal > 30.
   - active T&S
   - guaiac all stools
   .
   # Coagulopathy:  In the settting of Xigris.  Xigris d/c
d [**2-15**].
   Improving coags.  Concern for pulm thrombosis in setting of [**Last Name (LF) **], [**First Name3 (LF) **] do
   not correct rapidly.  Has grossly bloody urine without clots, but no
   other signs of bleeding.  Follow for now.
   .
   # FEN: NPO, replete lytes
   .
   # PPx: INR > 3.  PPI, VAP bundle
   .
   # Access: Left IJ placed in ED. Unable to improve access to quad lumen
   in setting of pressors and total fluid body overload
   .
   # Contact: With patient and Fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   .
   # Code: Full Code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:  ICU

2189-02-18 08:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 3rd pressor Neosynephrine added in AM
   - Caspofungin started empirically.  Fungal markers and fungal cultures
   sent.
   - Insulin drip restarted with D51/2NS due to anion gap with ketonuria.
   - 4 units FFP transfused for INR goal <2 prior to paracentesis
   - Increased ventilatory requirements, up to PEEP 24, FiO2 100%
   - Recruitment maneuvers performed
   - persistently acidemic over the course of PM, pH as low as 7.15
   - dialysis line placed, initiated CVVH
   - brief episode of cardiac arrhythmia, ?afib not captured on EKG
   - Second Surgical consult obtained
   - Code status addressed; family wishes for her to remain full code
   - u/s guided paracentesis performed with 1.7 liters straw-colored fluid
   removed
   - Weaned vent overnight to FiO2 50%, PEEP 20
   - Meropenem renally dosed
   - Hct down to 29 -> 21 this AM; 2 units PRBC's transfused
   - IVF changed from D51/2NS to D10W
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2189-2-16**] 11:04 AM
   Caspofungin - [**2189-2-17**] 02:03 PM
   Meropenem - [**2189-2-18**] 04:30 AM
   Metronidazole - [**2189-2-18**] 05:00 AM
   Vancomycin - [**2189-2-18**] 07:45 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.08 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Fentanyl - 350 mcg/hour
   Cisatracurium - 0.11 mg/Kg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-2-18**] 07:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-18**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.5
C (95.9
   HR: 82 (77 - 120) bpm
   BP: 126/65(84) {78/40(56) - 140/69(93)} mmHg
   RR: 26 (26 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 28 (16 - 28)mmHg
   Bladder pressure: 24 (24 - 24) mmHg
   Total In:
                                                                  6,539 mL
                                                                  3,491 mL
   PO:
   TF:
   IVF:
                                                                  5,092 mL
                                                                  2,701 mL
   Blood products:
                                                                  1,312 mL
                                                                    700 mL
   Total out:
                                                                  3,705 mL
                                                                  2,975 mL
   Urine:
                                                                    251 mL
                                                                    171 mL
   NG:
                                                                    750 mL
                                                                    450 mL
   Stool:
   Drains:
                                                                  1,700 mL
   Balance:
                                                                  2,834 mL
                                                                    516 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 49 cmH2O
   Plateau: 48 cmH2O
   SpO2: 94%
   ABG: 7.38/37/89.[**Numeric Identifier 299**]/19/-2
   Ve: 9.3 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese,
   intubated, paralyzed
   Head, Ears, Nose, Throat: OG tube, facial edema
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: firm, no bowel sounds
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Paralyzed, Tone: Not assessed
   Labs / Radiology
   101 K/uL
   7.6 g/dL
   154 mg/dL
   1.3 mg/dL
   19 mEq/L
   3.9 mEq/L
   40 mg/dL
   102 mEq/L
   139 mEq/L
   21.6 %
   6.3 K/uL
        [image002.jpg]
                             [**2189-2-17**]  06:20 PM
                             [**2189-2-17**]  07:50 PM
                             [**2189-2-17**]  09:59 PM
                             [**2189-2-17**]  10:00 PM
                             [**2189-2-17**]  10:40 PM
                             [**2189-2-18**]  04:11 AM
                             [**2189-2-18**]  04:22 AM
                             [**2189-2-18**]  05:21 AM
                             [**2189-2-18**]  05:44 AM
                             [**2189-2-18**]  06:46 AM
   WBC
   6.3
   6.3
   Hct
   21.6
   21.6
   Plt
   104
   101
   Cr
   1.5
   1.3
   TCO2
   12
   17
   19
   18
   22
   23
   23
   Glucose
   148
   170
   154
   Other labs: PT / PTT / INR:30.0/118.7/3.1, ALT / AST:194/365, Alk Phos
   / T Bili:102/11.9, Amylase / Lipase:[**10-30**], Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6342 ng/mL,
   Fibrinogen:173 mg/dL, Lactic Acid:5.7 mmol/L, Albumin:2.5 g/dL, LDH:675
   IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: [**2189-2-17**] 4:23 pm PERITONEAL FLUID
      GRAM STAIN (Final [**2189-2-17**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
      FUNGAL CULTURE (Preliminary):
   Imaging: Paracentesis with aspiration of 1.7 L of straw fluid. No
   immediate
   complications.
   Microbiology: [**2-17**] urine culture: NGTD
   [**2-17**] mycolytic culture: NGTD
   [**2-16**] urine culture: yeast
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago, last
   flare, recent cryptospordial infection presented to OSH with worsening
   abdominal pain, nausea and vomitting.
   .
   # Sepsis:  Presumed source is clostridium difficile infection in this
   patient with CVID, now s/p Xigris and IgG.   Patient with persistent
   severe metabolic acidosis, and elevated lactate up to 10 this AM.
   - Continue Vancomycin retention enemas
   - Attempt PO Vancomycin via NGT
   - Surgical consult following for ? colonic resection if patient fails
   to improve with medical management
   - continue Meropenem as broad-spectrum antibiotic coverage in the
   setting of sepsis
   - add caspofungin as empiric coverage for yeast cultured from urine and
   BAL fluid, although this likely represents colonization
   - check beta-glucan and galactomannan, fungal cultures
   - Ultrasound guided paracentesis today to evaluate SBP as possible
   source of infection
   - appreciate ID recs
   - albumin PRN CVP < 10
   - f/u cultures
   # Respiratory failure:  Improved yesterday with recruitment maneuvers.
   Likely ARDS in the setting of severe infection, CXR improved today.
   - wean PEEP and FiO2 as tolerated
   - continue recruitment maneuvers as needed
   - esophageal balloon
   # ARF:  Possibly secondary to ATN given sepsis.  Patient is now
   oliguric.
   - continue to trend urine output
   - renally dose medications
   - check UA
   - trend creatinine
   # Metabolic acidosis:  Secondary to DKA vs. sepsis vs. ARF.
   - follow lactate
   - check urine for ketones given anion gap this AM and lack of insulin
   administration over previous 24 hours
   - Consider dialysis if acidosis fails to correct
   .
   # Hepatic failure:  Transaminitis with rising t. bilirubin likely
   reflects shock liver superimposed on chronic hepatitis C.
   - trend LFT
   - ultrasound-guided paracenteis today to evaluate for SBP
   .
   # DM Type I:  Patient is NPO for now, has not received insulin since
   titrated off insulin drip.  Now with anion gap.
   - check urine for ketones
   - resume insulin drip + D5 1/2NS, as DKA may be contributing to
   metabolic acidosis
   # Anemia:  s/p 1 unit PRBC
s on [**2-13**] and 1 unit on [**2-16**].
   - trend HCT, goal > 28
   - active T&S
   - guaiac all stools
   # Coagulopathy:  In the settting of Xigris.  Xigris d/c
d [**2-15**].
   Improving coags.
   - FFP to goal INR < 2 in preparation for paracentesis.
   # FEN:
   - Consider initiation of TPN pending stabilization.
   - Check EKG for Twaves given hyperkalemia
   # PPx: INR > 2 as DVT prophylaxis.  PPI, VAP bundle.
   # Access: Left IJ placed in ED. Unable to improve access to quad lumen
   in setting of pressors and total fluid body overload.
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   Prophylaxis:
   DVT: (INR > 2)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2189-02-19 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: abd pain, n/v
   24 Hour Events:
   - ID wants to d/c caspofungin as all the cultures so far look like
   colonizers
   - liver recommends increasing oral vanc to 500 mg q6h, need ID approval
   - HCT relatively stable, s/p 2u PRBCs
   - FS decreased below 75, insulin gtt was halfed and D10W was increased
   - need to consider TPN today
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2189-2-16**] 11:04 AM
   Vancomycin - [**2189-2-18**] 03:00 PM
   Caspofungin - [**2189-2-18**] 08:18 PM
   Meropenem - [**2189-2-19**] 04:20 AM
   Metronidazole - [**2189-2-19**] 04:22 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Insulin - Regular - 3 units/hour
   Cisatracurium - 0.11 mg/Kg/hour
   Midazolam (Versed) - 12 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 350 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-2-18**] 07:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-19**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.2
C (95.4
   HR: 81 (70 - 85) bpm
   BP: 113/52(69) {107/46(68) - 130/67(87)} mmHg
   RR: 26 (12 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 12 (12 - 24)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                 10,183 mL
                                                                  3,371 mL
   PO:
   TF:
   IVF:
                                                                  9,343 mL
                                                                  3,351 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                 10,390 mL
                                                                  3,664 mL
   Urine:
                                                                    503 mL
                                                                    220 mL
   NG:
                                                                    750 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -207 mL
                                                                   -293 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 380) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 50 cmH2O
   Plateau: 46 cmH2O
   Compliance: 14 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/43/89.[**Numeric Identifier 299**]/26/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   GEN: intubated, sedated, paralyzed
   Heent: right sided facial edema
   Pulm: diffuse rhonchi
   Cv: hrrr, no m/r/g
   Abd: distended, tense, no BS
   Extr: diffuse anasarca
   Labs / Radiology
   69 K/uL
   10.2 g/dL
   78 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.0 mEq/L
   26 mg/dL
   99 mEq/L
   139 mEq/L
   28.0 %
   5.0 K/uL
        [image002.jpg]
                             [**2189-2-18**]  06:46 AM
                             [**2189-2-18**]  09:43 AM
                             [**2189-2-18**]  10:40 AM
                             [**2189-2-18**]  02:09 PM
                             [**2189-2-18**]  03:46 PM
                             [**2189-2-18**]  04:16 PM
                             [**2189-2-18**]  10:22 PM
                             [**2189-2-18**]  10:29 PM
                             [**2189-2-19**]  04:33 AM
                             [**2189-2-19**]  04:50 AM
   WBC
   6.4
   5.0
   Hct
   27.5
   28.0
   28.0
   Plt
   75
   69
   Cr
   1.0
   0.7
   0.7
   TCO2
   23
   26
   27
   28
   Glucose
   127
   74
   62
   78
   Other labs: PT / PTT / INR:26.8/45.4/2.7, ALT / AST:151/274, Alk Phos /
   T Bili:108/20.0, Amylase / Lipase:[**10-30**], Differential-Neuts:72.0 %,
   Band:1.0 %, Lymph:10.0 %, Mono:1.0 %, Eos:14.0 %, D-dimer:6342 ng/mL,
   Fibrinogen:173 mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.5 g/dL, LDH:623
   IU/L, Ca++:8.6 mg/dL, Mg++:1.4 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago, last
   flare, recent cryptospordial infection presented to OSH with worsening
   abdominal pain, nausea and vomitting.
   # Sepsis:  Presumed source is clostridium difficile infection in this
   patient with CVID, now s/p Xigris and IgG.   Patient had persistent
   severe metabolic acidosis and elevated lactate which have improved with
   initiation of CVVH.  Multiple BCx NTD, as is peritoneal fluid Cx.
   Linezolid discontinued per ID given no gram +
s by culture.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - Surgical consult following for ? colonic resection if patient fails
   to improve with medical management
   - continue Meropenem as broad-spectrum antibiotic coverage in the
   setting of sepsis
   - continue caspofungin as empiric coverage for yeast cultured from
   urine and BAL fluid, although this likely represents colonization
   mycolytic fungal cultures and beta-glucan galactomannan return
   negative, can discontinue caspo
   - f/u beta-glucan and galactomannan, fungal cultures
   - appreciate ID recs
   - f/u blood, urine, peritoneal fluid cultures
   - next dose IVIG as per ID recs
   # Respiratory failure:  Improved yesterday with recruitment maneuvers.
   Likely ARDS in the setting of severe infection, CXR improved today.
   - wean PEEP and FiO2 as per ARDSnet protocol
   - continue recruitment maneuvers as needed
   - daily trial of no paralytics
   - esophageal balloon
   - Target transpulmonary pressure = 0
   # ARF:  Possibly secondary to ATN given sepsis.  Patient [**Name (NI) **] continues
   to be roughly 20cc/hr
   - cont cvvh
   - goal cvp 10-12
   - continue to trend urine output
   - renally dose medications
   - check UA
   - trend creatinine
   # Metabolic acidosis:  Secondary to DKA vs. sepsis vs. ARF.   Corrected
   with CVVH.
   - follow lactate, anion gap
   - cont cvvh per renal
   - cont D10 and insulin gtt, goal BG 80-120
   - q 6 lytes
   # Hepatic failure:  Transaminitis with rising t. bilirubin likely
   reflects shock liver superimposed on chronic hepatitis C.  Also could
   be component of hemolysis in rising bili.
   - trend LFT
   # DM Type I:  Patient is NPO for now, on insulin gtt and D10 with
   resolving anion gap.
   - continue insulin gtt protocol
   - IVF with D10
   - goal BG 80-120
   # Anemia:  s/p 1 unit PRBC
s on [**2-13**] and 1 unit on [**2-16**] and 2 units
   this AM (total 4 units for LOS).   Hemolysis labs suggestive of
   hemolysis, though no schistocytes on peripheral blood smear.
   - trend HCT q 6, goal > 25-28
   - active T&S
   - guaiac all stools
   - follow hemolysis labs, peripheral smear
   # Coagulopathy:  In the settting of Xigris.  Xigris d/c
d [**2-15**].
   Improving coags.
   - FFP if evidence of bleeding
   # Eosinophilia: elevated Eos on diff.  ? allergic reaction to
   antibiotics.  No apparent rash.
   - follow eos for now
   # FEN:
   - Consider initiation of TPN pending stabilization, access is a
   problem.
   # PPx: Pneumoboots as DVT prophylaxis.  PPI, VAP bundle.
   # Access: Left IJ placed in ED. Unable to improve access to quad lumen
   in setting of pressors and total fluid body overload.
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2189-02-20 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 1U pRBCs for drifting HCT, evidence of hemolysis
   - d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] given no GNRs and can worsen cdiff
   - decreased po vanc per ID recs
   - IVIG on [**2-20**]?
   - CVVH continued
   - placed rec for picc by IR given need for TPN access
   - weaned off levophed
   - given Albumin 50 grams IV x 1
   - PATIENT HAD FIRST BM SINCE ADMISSION: GREEN, LOOSE STOOL
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-18**] 03:00 PM
   Meropenem - [**2189-2-19**] 04:30 PM
   Caspofungin - [**2189-2-19**] 08:19 PM
   Metronidazole - [**2189-2-20**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 12 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 350 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Cisatracurium - 0.11 mg/Kg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-20**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 70 (70 - 84) bpm
   BP: 124/60(80) {102/44(61) - 134/67(89)} mmHg
   RR: 25 (23 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 19 (11 - 24)mmHg
   Bladder pressure: 13 (13 - 13) mmHg
   Total In:
                                                                 11,054 mL
                                                                  3,665 mL
   PO:
   TF:
   IVF:
                                                                 10,814 mL
                                                                  3,364 mL
   Blood products:
                                                                    200 mL
                                                                    281 mL
   Total out:
                                                                 11,797 mL
                                                                  3,395 mL
   Urine:
                                                                    622 mL
                                                                    320 mL
   NG:
                                                                    200 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -743 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, No Spon Resp
   PIP: 47 cmH2O
   Plateau: 42 cmH2O
   SpO2: 96%
   ABG: 7.36/42/142/22/-1
   Ve: 9.1 L/min
   PaO2 / FiO2: 284
   Physical Examination
   General Appearance: intubated, paralyzed
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Absent : , Rhonchorous: )
   Abdominal: firm, absent bowel sounds
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   32 K/uL
   10.1 g/dL
   82 mg/dL
   0.4 mg/dL
   22 mEq/L
   4.1 mEq/L
   17 mg/dL
   103 mEq/L
   135 mEq/L
   27.6 %
   4.7 K/uL
        [image002.jpg]
                             [**2189-2-19**]  04:50 AM
                             [**2189-2-19**]  09:50 AM
                             [**2189-2-19**]  10:26 AM
                             [**2189-2-19**]  03:39 PM
                             [**2189-2-19**]  04:38 PM
                             [**2189-2-19**]  07:32 PM
                             [**2189-2-19**]  09:51 PM
                             [**2189-2-19**]  10:01 PM
                             [**2189-2-20**]  04:52 AM
                             [**2189-2-20**]  04:58 AM
   WBC
   4.7
   Hct
   26.0
   25.7
   27.6
   Plt
   32
   Cr
   0.5
   0.5
   0.4
   TCO2
   28
   29
   28
   24
   26
   25
   Glucose
   62
   78
   112
   82
   Other labs: PT / PTT / INR:26.0/51.0/2.6, ALT / AST:106/166, Alk Phos /
   T Bili:109/23.1, Amylase / Lipase:[**10-30**], Differential-Neuts:69.3 %,
   Band:1.0 %, Lymph:14.4 %, Mono:4.8 %, Eos:11.1 %, D-dimer:6342 ng/mL,
   Fibrinogen:104 mg/dL, Lactic Acid:2.7 mmol/L, Albumin:2.5 g/dL, LDH:538
   IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:1.5 mg/dL
   Fluid analysis / Other labs: [**2189-2-17**] 4:23 pm PERITONEAL FLUID
      GRAM STAIN (Final [**2189-2-17**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Microbiology: [**2189-2-17**] 12:28 pm BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
      BLOOD/FUNGAL CULTURE (Pending):
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago, last
   flare, recent cryptospordial infection presented to OSH with worsening
   abdominal pain, nausea and vomitting.
    # Sepsis:  Presumed source is clostridium difficile infection in this
   patient with CVID, now s/p Xigris and IgG.   Patient had persistent
   severe metabolic acidosis and elevated lactate which have improved with
   initiation of CVVH.  Multiple BCx NTD, as is peritoneal fluid Cx.
   Linezolid discontinued per ID given no gram +
s by culture.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - Surgical consult following for ? colonic resection if patient fails
   to improve with medical management
   - discontinue caspofungin as empiric coverage for yeast cultured from
   urine and BAL fluid, as this likely represents colonization and
   caspofungin may be contributing to thrombocytopenia
   - f/u beta-glucan and galactomannan, fungal cultures
   - appreciate ID recs
   - f/u blood, urine, peritoneal fluid cultures
   - next dose IVIG today
   - currently on Vasopressin; will leave on board today in effort to
   remove fluid via CVVH
   # Respiratory failure:  Improved yesterday with recruitment maneuvers.
   Likely ARDS in the setting of severe infection, CXR improved today.
   - wean PEEP and FiO2 as per ARDSnet protocol
   - continue recruitment maneuvers as needed
   - daily trial of no paralytics
   - esophageal balloon
   - Target transpulmonary pressure = 0
   # ARF:  Possibly secondary to ATN given sepsis.  UOP improving.
   - cont CVVH with goal 3 liters negative today
   - goal cvp 10-12
   - continue to trend urine output
   - renally dose medications
   - trend creatinine
   - check urine eos given peripheral eosinophilia
   # Metabolic acidosis:  Secondary to DKA vs. sepsis vs. ARF.   Corrected
   with CVVH.
   - follow lactate, anion gap
   - cont CVVH per renal
   - cont D10 and insulin gtt, goal BG 80-120
   - d/c D10 once TPN started
   - q 6 lytes as per Renal
   # Thrombocytopenia:   Low fibrinogen, elevated INR, and
   thrombocytopenia are suggestive of DIC in the setting of sepsis.
   Patient has blood oozing from multiple sites, consistent with DIC.
   HIT 4T score of 3 (2 points for >50% decrease in platelets, and 1 point
   for  fall occurring > 10 days following heparin exposure, as patient
   was on SC heparin as DVT prophylaxis during recent hospitalization from
   [**2-2**]
 [**2-11**]) confers low probability for HIT.  Furthermore, she has only
   received two doses of SC heparin during this hospitalization, both on
   [**2-13**].   Drug-induced thrombocytopenia is also a consideration with
   possible offending agents including Linezolid, PPI, Caspofungin.
   TTP-HUS less likely given lack of  microangiopathic findings on the
   peripheral blood smear.
   -          Check FDP as would expected this to be elevated if due to
   DIC
   -          Transfuse platelets if evidence of bleeding
   -          Hematology consult
   # Anemia:  s/p 1 unit PRBC
s on [**2-13**] and 1 unit on [**2-16**] units on
   [**2-19**] unit on [**2-20**] (total 5 units for LOS).   Hemolysis labs  with
   low haptoglobin, elevated LDH, though no schistocytes are apparent on
   peripheral blood smear, making TTP unlikely.   Blood loss is possibly
   associated with oozing as above, given probable DIC.
   - trend HCT [**Hospital1 **], goal > 25-28
   - active T&S
   - Review peripheral smear for evidence of hemolysis
   - Trend hemolysis labs (LDH, bilirubin, haptoglobin)
   - guaiac all stools
   # DM Type I:  Patient is NPO for now, on insulin gtt and D10 with
   resolving anion gap.
   - continue insulin gtt protocol
   - discontinue D10W once TPN with dextrose infusion is initiated
   - goal BG 80-120
   # Eosinophilia:  Elevated Eos on diff.  ? allergic reaction to
   antibiotics.  No apparent rash.
   -          Check urine eos
   -          caspofungin and meropenem discontinued
   # FEN:
   -          Initiate TPN as per Nutrition recs, following PICC placement
   -          Goal I/O: - 3 liters today
   # PPx:  Pneumoboots as DVT prophylaxis.  VAP bundle.
   - d/c PPI pending resolution of thrombocytopenia although current
   indications for GI ppx include ARF, elevated INR, intubation
   # Access: Left IJ placed in ED.
   - PICC today for initiation of TPN
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  none, currently
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:  ICU

2189-02-21 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IVIG given
   - PICC placed at bedside into IJ; repositioned by IR
   - Episode of desaturation during trip to IR as patient became briefly
   detached from vent.  Returned on FiO2 100%.
   - Weaned to PEEP 14, FiO2 50%, RR 24
   - TPN initiated and D10W gtt discontinued
   - Hematology consult placed; recommended HIT ab, iron studies,
   cryoglobulin
   - + DIC labs: elevated INR, low fibrinogen, elevated FDP
   - Spoke to blood bank resident regarding cryoglobulin who said
   indication for cryoglobulin transfusion is fibrinogen < 100, but okay
   to give
   - Weaned of vasopressin briefly, but restarted in effort to maximize
   negative fluid balance
   - Resumed caspofungin given positive beta-glucan (conflicting
   recommendations from Liver vs. ID)
   - Vitamin K 1 mg IV given
   - Hypotensive this AM to 80/50, MAP ~50, restarted low dose Levophed,
   running CVVH even until hypotensive resolved
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-18**] 03:00 PM
   Meropenem - [**2189-2-19**] 04:30 PM
   Caspofungin - [**2189-2-21**] 01:00 AM
   Metronidazole - [**2189-2-21**] 04:00 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 12 mg/hour
   Fentanyl - 350 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Cisatracurium - 0.2 mg/Kg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes: Conjunctival edema
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: No(t) Tube feeds, Parenteral nutrition
   Gastrointestinal: Diarrhea
   Endocrine: Hyperglycemia
   Flowsheet Data as of  [**2189-2-21**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 90 (59 - 90) bpm
   BP: 90/46(59) {89/42(56) - 128/64(87)} mmHg
   RR: 7 (7 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 11 (11 - 17)mmHg
   Total In:
                                                                 10,219 mL
                                                                  3,137 mL
   PO:
   TF:
   IVF:
                                                                  9,537 mL
                                                                  2,796 mL
   Blood products:
                                                                    531 mL
   Total out:
                                                                 12,883 mL
                                                                  2,932 mL
   Urine:
                                                                    931 mL
                                                                    113 mL
   NG:
                                                                    600 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,664 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 34 cmH2O
   Compliance: 20.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.30/46/95.[**Numeric Identifier 253**]/22/-3
   Ve: 7.9 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: Overweight / Obese, generalized anasarca improved,
   paralyzed and sedated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Abdomen:  distended, hypoactive BS
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, skin breakdown beneath breaths, beneath pannus, in skin
   folds
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   21 K/uL
   10.2 g/dL
   147 mg/dL
   0.3 mg/dL
   22 mEq/L
   3.9 mEq/L
   14 mg/dL
   104 mEq/L
   135 mEq/L
   28.7 %
   4.4 K/uL
        [image002.jpg]
                             [**2189-2-20**]  04:54 PM
                             [**2189-2-20**]  06:48 PM
                             [**2189-2-20**]  09:20 PM
                             [**2189-2-20**]  09:53 PM
                             [**2189-2-20**]  10:00 PM
                             [**2189-2-20**]  11:00 PM
                             [**2189-2-20**]  11:28 PM
                             [**2189-2-21**]  04:43 AM
                             [**2189-2-21**]  04:45 AM
                             [**2189-2-21**]  07:39 AM
   WBC
   4.4
   Hct
   28.7
   Plt
   21
   Cr
   0.4
   0.3
   TCO2
   25
   24
   24
   23
   25
   24
   Glucose
   117
   129
   146
   167
   176
   147
   Other labs: PT / PTT / INR:25.2/51.3/2.5, ALT / AST:71/91, Alk Phos / T
   Bili:113/22.2, Amylase / Lipase:[**10-30**], Differential-Neuts:69.3 %,
   Band:1.0 %, Lymph:14.4 %, Mono:4.8 %, Eos:11.1 %, D-dimer:6342 ng/mL,
   Fibrinogen:105 mg/dL, Lactic Acid:3.1 mmol/L, Albumin:2.5 g/dL, LDH:363
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: [**2189-2-21**] 12:17 am SPUTUM     Site:
   ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2189-2-21**]):
         [**10-18**] PMNs and >10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
   Fibrinogen: 105
   FDP 80-160
   Retic 0.4
   Direct coombs
 negative
   Beta-glucan 292
   Galactomannan
 negative
   Imaging: peripheral smear: no schistocytes, + burr cells
   Microbiology: urine - negative for eos
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago, last
   flare, recent cryptospordial infection presented to OSH with worsening
   abdominal pain, nausea and vomitting.
    # Sepsis:  Presumed source is clostridium difficile infection in this
   patient with CVID, now s/p Xigris and IgG.   Patient had persistent
   severe metabolic acidosis and elevated lactate which have improved with
   initiation of CVVH.  Multiple BCx NTD, as is peritoneal fluid Cx.
   Linezolid discontinued per ID given no gram +
s by culture.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - Surgical consult following for ? colonic resection if patient fails
   to improve with medical management
   - continue caspofungin as empiric coverage for yeast cultured from
   urine and BAL fluid
   - f/u beta-glucan and galactomannan, fungal cultures
   - appreciate ID recs
   - f/u blood, urine, peritoneal fluid cultures
   - next dose IVIG as per ID
   - currently on pressors; will leave on board today in effort to remove
   fluid via CVVH
   # Respiratory failure:  Improved yesterday with recruitment maneuvers.
   Likely ARDS in the setting of severe infection, CXR improved today.
   - wean PEEP to 12 and FiO2 40% today
   - daily trial with paralytics off
   - esophageal balloon to remain in place
   # Thrombocytopenia:   Low fibrinogen, elevated INR, and
   thrombocytopenia are suggestive of DIC in the setting of sepsis vs.
   underlying liver disease.  Fibrinogen 173 at time of admission; thus
   fibrinogen of ~100 represents a drop from baseline.  Patient has blood
   oozing from OGT, possibly consistent with DIC.   HIT 4T score of 3 (2
   points for >50% decrease in platelets, and 1 point for  fall occurring
   > 10 days following heparin exposure, as patient was on SC heparin as
   DVT prophylaxis during recent hospitalization from [**2-2**]
 [**2-11**]) confers
   low probability for HIT.  Furthermore, she has only received two doses
   of SC heparin during this hospitalization, both on [**2-13**].   Drug-induced
   thrombocytopenia is also a consideration with possible offending agents
   including Linezolid, PPI, Caspofungin.   TTP-HUS less likely given lack
   of  microangiopathic findings on the peripheral blood smear.
   -          Transfuse platelets > 50K if evidence of bleeding or drop in
   hct
   -          Maintain platelets > 20K if no evidence of active bleeding
   -          f/u HIT antibody (low probability)
   -          Transfuse 1 bag platelets today and check post-transfusion
   platelet count
   -          q 6 hour fibrinogens; transfuse cryo for fibrinogen < 100
   -          Hematology consult following
   # Anemia:  s/p 1 unit PRBC
s on [**2-13**] and 1 unit on [**2-16**] units on
   [**2-19**] unit on [**2-20**] (total 5 units for LOS).   Hemolysis labs  with
   low haptoglobin, elevated LDH, though no schistocytes are apparent on
   peripheral blood smear, making TTP unlikely.   Blood loss is possibly
   associated with mucosal oozing as above, given probable DIC.  Direct
   coombs antibody negative.
   - trend HCT [**Hospital1 **], goal > 25-28
   - active T&S
   - Daily review of peripheral smear for evidence of hemolysis
   - Trend hemolysis labs (LDH, bilirubin, haptoglobin)
   - guaiac all stools
   # ARF:  Possibly secondary to ATN given sepsis.  Improving UOP with
   nearly 1L urine output yesterday.
   - cont CVVH with goal 2 liters negative today
   - goal CVP 10-12
   - continue to trend urine output
   - renally dose medications
   - trend creatinine
   - check urine eos given peripheral eosinophilia
   # Metabolic acidosis:  Multifactorial, secondary to DKA vs. sepsis vs.
   ARF.   Corrected with CVVH.
   - follow lactate, anion gap
   - cont CVVH per renal
   - cont insulin gtt, goal BG 80-120
   - q 12 hour lytes as per Renal
   # DM Type I:  Patient is NPO for now given intraabdominal process, on
   insulin gtt with resolved anion gap.
   - continue insulin gtt protocol
   - goal BG 80-120
   # Eosinophilia:  Elevated Eos on diff.  ? allergic reaction to
   antibiotics vs. intraabdominal infection.  No apparent rash.
   -          Urine eos negative
   -          caspofungin and meropenem discontinued
   -          f/u stool O&P
   # FEN:
   -          Continue TPN as per Nutrition recs
   -          Goal I/O: - 2 liters today
   # PPx:  Pneumoboots as DVT prophylaxis.  VAP bundle.
   - Carafate as GI prophylaxis (PPI discontinued in the setting of
   thrombocytopenia)
   # Access: Left IJ placed in ED & right PICC on [**2-20**].
   - A-line
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   ICU Care
   Nutrition: TPN without Lipids - [**2189-2-20**] 09:05 PM 41.[**Telephone/Fax (5) 1228**]
   mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   PICC Line - [**2189-2-20**] 09:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed
   Comments:
   Code status: Full code
   Disposition:ICU

2189-02-21 10:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    42 year old with hep C cirrhosis, CVID, admitted with severe C. Diff
   and sepsis. She rapidly deteriorated [**2-13**] pm, on triple pressors, HCO3
   gtt, Xigris (only completed 12h due to rising coags), developed ARDS
   requiring full vent support/paralysis/recruitment maneuvers, lactate
   increased. Started to improve [**2-14**] AM. Now down to Vaso alone. Weaning
   vent slowly. Off/on/off/on paralytics. Poor surgical candidate, but
   they are still following. TPP close to 0, so room to increase peep if
   needed, which is now at 20. US tap for 1.7 L, which improved bladder
   pressure from 25 to 12. Currently on PEEP 20 FiO2 50%, have been
   adjusting with esophageal balloon. Able to be weaned off pressors but
   continued on vaso/levo for fluid removal on CVVH. Also on insulin gtt
   for DKA.
   24 Hour Events:
   Got IVIG. PICC placed and repositioned. Desatted at IR was on 100%,
   weaned back down to 50%. PEEP weaned to 14 overnight. FiO2 at 50%. TPN
   started. Heme was consulted, rec Fe studies, cryos, HIT Ab, and to give
   cryo. Smear shows no schistocytes. FDP elevated. Fibrinogen stayed
   above 100. Weaned off vasopressin, restarted to aid in fluid removal,
   added levo as well for fluid removal. Some oozing from OG tube. Vit K
   given. B glucan came back positive (although may be [**1-26**] albumin) so
   continuing caspofungin. Sent a HIT Ab. Although last heparin was given
   sc on [**2-13**].
 PICC LINE - START [**2189-2-20**] 09:27 AM
   Basilic
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-18**] 03:00 PM
   Meropenem - [**2189-2-19**] 04:30 PM
   Caspofungin - [**2189-2-21**] 01:00 AM
   Metronidazole - [**2189-2-21**] 04:00 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 350 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-21**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 89 (59 - 91) bpm
   BP: 112/48(66) {89/42(56) - 128/64(87)} mmHg
   RR: 24 (0 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 15 (11 - 17)mmHg
   Total In:
                                                                 10,219 mL
                                                                  3,903 mL
   PO:
   TF:
   IVF:
                                                                  9,537 mL
                                                                  3,441 mL
   Blood products:
                                                                    531 mL
   Total out:
                                                                 12,883 mL
                                                                  3,119 mL
   Urine:
                                                                    931 mL
                                                                    178 mL
   NG:
                                                                    600 mL
                                                                    170 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,664 mL
                                                                    784 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 33 cmH2O
   Compliance: 19 cmH2O/mL
   SpO2: 96%
   ABG: 7.30/46/95.[**Numeric Identifier 253**]/22/-3
   Ve: 7.8 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   throughout, Wheezes : throughout)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   21 K/uL
   147 mg/dL
   0.3 mg/dL
   22 mEq/L
   3.9 mEq/L
   14 mg/dL
   104 mEq/L
   135 mEq/L
   28.7 %
   4.4 K/uL
        [image002.jpg]
                             [**2189-2-20**]  04:54 PM
                             [**2189-2-20**]  06:48 PM
                             [**2189-2-20**]  09:20 PM
                             [**2189-2-20**]  09:53 PM
                             [**2189-2-20**]  10:00 PM
                             [**2189-2-20**]  11:00 PM
                             [**2189-2-20**]  11:28 PM
                             [**2189-2-21**]  04:43 AM
                             [**2189-2-21**]  04:45 AM
                             [**2189-2-21**]  07:39 AM
   WBC
   4.4
   Hct
   28.7
   Plt
   21
   Cr
   0.4
   0.3
   TCO2
   25
   24
   24
   23
   25
   24
   Glucose
   117
   129
   146
   167
   176
   147
   Other labs: PT / PTT / INR:25.2/51.3/2.5, ALT / AST:71/91, Alk Phos / T
   Bili:113/22.2, Amylase / Lipase:[**10-30**], Differential-Neuts:69.3 %,
   Band:1.0 %, Lymph:14.4 %, Mono:4.8 %, Eos:11.1 %, D-dimer:6342 ng/mL,
   Fibrinogen:105 mg/dL, Lactic Acid:3.1 mmol/L, Albumin:2.5 g/dL, LDH:363
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 COCAINE ABUSE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATITIS, CHRONIC VIRAL
 COLITIS, OTHER (NOT CDIFF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PNEUMONIA, OTHER
   42 y/o f with CVID here with sepsis, ARDS [**1-26**] C. Diff.
   1. C. Diff:
   vanco retention and dwells, IV flagyl
   surgery and ID following
   cont vaso and levophed for diuresis
   CVP 12
   2. fungal colonization:
   B glucan positive (although may be [**1-26**] albumin)
   cont. caspo until fungal cx NG
   3. resp failure: ARDS [**1-26**] C. Diff
   completed 7 days of meropenem, although BAL was negative
   titrate down fent/versed each 20%
   holding paralytic
   4. thrombocytopenia: Suspect DIC, although no evidence of bleeding, no
   schistos on smear
   HIT pretest prob is low, but if PF4 neg almost certainly does not have
   HIT
   Give plts today per Heme, get plt count post tx
   If active bleeding keep plt>50, if not keep >30
   q6h fibrinogen, if less than 100 give cryo
   5. Anemia: Hemolysis
   trend hemolysis labs, daily smear
   keep hct 28
   6. ARF: suspect ATN
   uop improving, cont. CVVH for fluid removal
   goal 2L neg, check albumin in am
   7. DKA: Talk with nutrition about keeping insulin out of TPN
   -cont insulin gtt, D10 stopped
   8. eosinophilia: Improving, off cephalosporins, cryptosporidium neg
   9. FEN: TPN
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-2-20**] 09:05 PM 41.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   PICC Line - [**2189-2-20**] 09:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2189-02-22 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID recs, recheck c diff
   - ID approved caspofungin
   - fibrinogen remained above 100, HCT stable
   - Negative coombs test
   - decreased PEEP to 12 in the morning
   - normal iron, B12 and folate
   - switched all IV meds to NS from D5W
   - HIT Ab sent
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2189-2-19**] 04:30 PM
   Caspofungin - [**2189-2-21**] 02:15 PM
   Metronidazole - [**2189-2-22**] 03:11 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Insulin - Regular - 3 units/hour
   Cisatracurium - 0.2 mg/Kg/hour
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-22**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.4
   HR: 77 (77 - 91) bpm
   BP: 109/42(63) {101/42(28) - 145/72(96)} mmHg
   RR: 15 (0 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 12 (12 - 21)mmHg
   Total In:
                                                                 11,240 mL
                                                                  3,887 mL
   PO:
   TF:
   IVF:
                                                                  9,756 mL
                                                                  3,407 mL
   Blood products:
                                                                    193 mL
   Total out:
                                                                 13,063 mL
                                                                  4,942 mL
   Urine:
                                                                    573 mL
                                                                    495 mL
   NG:
                                                                    750 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,823 mL
                                                                 -1,055 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 33 cmH2O
   Compliance: 17.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.32/45/122/20/-3
   Ve: 8.7 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   50 K/uL
   10.8 g/dL
   187 mg/dL
   0.4 mg/dL
   20 mEq/L
   4.3 mEq/L
   13 mg/dL
   106 mEq/L
   135 mEq/L
   31.2 %
   9.1 K/uL
        [image002.jpg]
                             [**2189-2-21**]  10:30 AM
                             [**2189-2-21**]  10:54 AM
                             [**2189-2-21**]  02:53 PM
                             [**2189-2-21**]  03:06 PM
                             [**2189-2-21**]  07:52 PM
                             [**2189-2-21**]  08:05 PM
                             [**2189-2-22**]  12:31 AM
                             [**2189-2-22**]  12:46 AM
                             [**2189-2-22**]  03:13 AM
                             [**2189-2-22**]  03:24 AM
   WBC
   9.1
   Hct
   30.2
   30.3
   29.4
   31.2
   Plt
   52
   49
   40
   50
   Cr
   0.4
   0.4
   TCO2
   24
   23
   25
   25
   24
   Glucose
   106
   79
   88
   187
   Other labs: PT / PTT / INR:23.9/45.6/2.3, ALT / AST:64/84, Alk Phos / T
   Bili:142/23.4, Amylase / Lipase:[**10-30**], Differential-Neuts:68.2 %,
   Band:1.0 %, Lymph:19.3 %, Mono:5.9 %, Eos:6.2 %, D-dimer:6342 ng/mL,
   Fibrinogen:118 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:408
   IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago, last
   flare, recent cryptospordial infection presented to OSH with worsening
   abdominal pain, nausea and vomitting.
    # Sepsis:  Presumed source is clostridium difficile infection in this
   patient with CVID, now s/p Xigris and IgG.   Patient had persistent
   severe metabolic acidosis and elevated lactate which have improved with
   initiation of CVVH.  Multiple BCx NTD, as is peritoneal fluid Cx.
   Linezolid discontinued per ID given no gram +
s by culture.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - Surgical consult following for ? colonic resection if patient fails
   to improve with medical management
   - continue caspofungin as empiric coverage for yeast cultured from
   urine and BAL fluid, also has B glucan positive
   - d/c caspofungin if mycolytic cultures are negative for 7 days
   - appreciate ID recs
   - f/u blood, urine, peritoneal fluid cultures
   - next dose IVIG as per ID
   - currently on pressors; will leave on board today in effort to remove
   fluid via CVVH
   # Respiratory failure:  Improved in the past with recruitment
   maneuvers.  Likely ARDS in the setting of severe infection.
   - wean PEEP and FiO2 40%
   - daily trial with paralytics off
   - esophageal balloon to remain in place
   # Thrombocytopenia:   Low fibrinogen, elevated INR, and
   thrombocytopenia are suggestive of DIC in the setting of sepsis vs.
   underlying liver disease.  Fibrinogen 173 at time of admission; thus
   fibrinogen of ~100 represents a drop from baseline.  Patient has blood
   oozing from OGT, possibly consistent with DIC.   HIT 4T score of 3 (2
   points for >50% decrease in platelets, and 1 point for  fall occurring
   > 10 days following heparin exposure, as patient was on SC heparin as
   DVT prophylaxis during recent hospitalization from [**2-2**]
 [**2-11**]) confers
   low probability for HIT.  Furthermore, she has only received two doses
   of SC heparin during this hospitalization, both on [**2-13**].   Drug-induced
   thrombocytopenia is also a consideration with possible offending agents
   including Linezolid, PPI, Caspofungin.   TTP-HUS less likely given lack
   of  microangiopathic findings on the peripheral blood smear.
   -          Transfuse platelets > 50K if evidence of bleeding or drop in
   hct
   -          Maintain platelets > 20K if no evidence of active bleeding
   -          f/u HIT antibody (low probability)
   -          Transfuse 1 bag platelets today and check post-transfusion
   platelet count
   -          q 6 hour fibrinogens; transfuse cryo for fibrinogen < 100
   -          Hematology consult following
   # Anemia:  s/p 1 unit PRBC
s on [**2-13**] and 1 unit on [**2-16**] units on
   [**2-19**] unit on [**2-20**] (total 5 units for LOS).   Hemolysis labs  with
   low haptoglobin, elevated LDH, though no schistocytes are apparent on
   peripheral blood smear, making TTP unlikely.   Blood loss is possibly
   associated with mucosal oozing as above, given probable DIC.  Direct
   coombs antibody negative.
   - trend HCT [**Hospital1 **], goal > 25-28
   - active T&S
   - Daily review of peripheral smear for evidence of hemolysis
   - Trend hemolysis labs (LDH, bilirubin, haptoglobin)
   - guaiac all stools
   # ARF:  Possibly secondary to ATN given sepsis.  Improving UOP with
   nearly 1L urine output yesterday.
   - cont CVVH with goal 2 liters negative today
   - goal CVP 10-12
   - continue to trend urine output
   - renally dose medications
   - trend creatinine
   - check urine eos given peripheral eosinophilia
   # Metabolic acidosis:  Multifactorial, secondary to DKA vs. sepsis vs.
   ARF.   Corrected with CVVH.
   - follow lactate, anion gap
   - cont CVVH per renal
   - cont insulin gtt, goal BG 80-120
   - q 12 hour lytes as per Renal
   # DM Type I:  Patient is NPO for now given intraabdominal process, on
   insulin gtt with resolved anion gap.
   - continue insulin gtt protocol
   - goal BG 80-120
   # Eosinophilia:  Elevated Eos on diff.  ? allergic reaction to
   antibiotics vs. intraabdominal infection.  No apparent rash.
   -          Urine eos negative
   -          caspofungin and meropenem discontinued
   -          f/u stool O&P
   # FEN:
   -          Continue TPN as per Nutrition recs
   -          Goal I/O: - 2 liters today
   # PPx:  Pneumoboots as DVT prophylaxis.  VAP bundle.
   - Carafate as GI prophylaxis (PPI discontinued in the setting of
   thrombocytopenia)
   # Access: Left IJ placed in ED & right PICC on [**2-20**].
   - A-line
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-2-21**] 06:01 PM 41.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   PICC Line - [**2189-2-20**] 09:27 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-02-22 11:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    42 year old with hep C cirrhosis, CVID, admitted with severe C. Diff
   and sepsis. She rapidly deteriorated [**2-13**] pm, on triple pressors, HCO3
   gtt, Xigris (only completed 12h due to rising coags), developed ARDS
   requiring full vent support/paralysis/recruitment maneuvers. Started to
   improve [**2-14**] AM. Now just on small amount levo/vaso for fluid removal.
   Weaning vent slowly. Off/on/off/on paralytics. Poor surgical candidate,
   but they are still following. TPP was last 1 during expiration, so room
   to increase peep if needed, which is now at 12. US tap for 1.7 L, which
   improved bladder pressure from 25 to 12. Currently on PEEP 12 FiO2 40%,
   have been adjusting with esophageal balloon. Continuing aggressive
   fluid removal on CVVH. Also on insulin gtt for DKA.
   24 Hour Events:
   ID rec check C. Diff. Fibrinogen remained >100. Combs neg. PEEP down to
   12. Switched meds to D5 for lower BS. HIT Ab sent per Heme.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2189-2-19**] 04:30 PM
   Caspofungin - [**2189-2-21**] 02:15 PM
   Metronidazole - [**2189-2-22**] 03:11 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Insulin - Regular - 0.5 units/hour
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Cisatracurium - 0.2 mg/Kg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-22**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.4
   HR: 74 (74 - 88) bpm
   BP: 113/46(68) {101/42(28) - 145/72(96)} mmHg
   RR: 24 (0 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 15 (12 - 21)mmHg
   Total In:
                                                                 11,240 mL
                                                                  5,232 mL
   PO:
   TF:
   IVF:
                                                                  9,756 mL
                                                                  4,583 mL
   Blood products:
                                                                    193 mL
   Total out:
                                                                 13,063 mL
                                                                  6,895 mL
   Urine:
                                                                    573 mL
                                                                    625 mL
   NG:
                                                                    750 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,823 mL
                                                                 -1,663 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 35 cmH2O
   Compliance: 15.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.31/43/92.[**Numeric Identifier 491**]/20/-4
   Ve: 8.9 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   throughout)
   Abdominal: Soft, No(t) Non-tender
   Extremities: Right: 4+, Left: 4+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   50 K/uL
   140 mg/dL
   0.4 mg/dL
   20 mEq/L
   4.3 mEq/L
   13 mg/dL
   106 mEq/L
   135 mEq/L
   31.2 %
   9.1 K/uL
        [image002.jpg]
                             [**2189-2-21**]  10:54 AM
                             [**2189-2-21**]  02:53 PM
                             [**2189-2-21**]  03:06 PM
                             [**2189-2-21**]  07:52 PM
                             [**2189-2-21**]  08:05 PM
                             [**2189-2-22**]  12:31 AM
                             [**2189-2-22**]  12:46 AM
                             [**2189-2-22**]  03:13 AM
                             [**2189-2-22**]  03:24 AM
                             [**2189-2-22**]  08:32 AM
   WBC
   9.1
   Hct
   30.2
   30.3
   29.4
   31.2
   Plt
   52
   49
   40
   50
   Cr
   0.4
   0.4
   TCO2
   24
   23
   25
   25
   24
   23
   Glucose
   79
   88
   187
   140
   Other labs: PT / PTT / INR:23.9/45.6/2.3, ALT / AST:64/84, Alk Phos / T
   Bili:142/23.4, Amylase / Lipase:[**10-30**], Differential-Neuts:68.2 %,
   Band:1.0 %, Lymph:19.3 %, Mono:5.9 %, Eos:6.2 %, D-dimer:6342 ng/mL,
   Fibrinogen:118 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:408
   IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 DIABETES MELLITUS (DM), TYPE I
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 COCAINE ABUSE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATITIS, CHRONIC VIRAL
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PNEUMONIA, OTHER
   42 year old with hep C cirrhosis, CVID, admitted with severe C. Diff
   and sepsis. She rapidly deteriorated [**2-13**] pm, on triple pressors, HCO3
   gtt, Xigris (only completed 12h due to rising coags), developed ARDS
   requiring full vent support/paralysis/recruitment maneuvers. Started to
   improve [**2-14**] AM. Now just on small amount levo/vaso for fluid removal.
   Weaning vent slowly. Off/on/off/on paralytics. Poor surgical candidate,
   but they are still following. TPP was last 1 during expiration, so room
   to increase peep if needed, which is now at 12. US tap for 1.7 L, which
   improved bladder pressure from 25 to 12. Currently on PEEP 12 FiO2 40%,
   have been adjusting with esophageal balloon. Continuing aggressive
   fluid removal on CVVH. Also on insulin gtt for DKA.
   1. Sepsis [**1-26**] C. Diff:
   -IVIG qSat
   -po and pr vanco, IV flagyl
   2. ID:
   -finished 8d of meropenem
   -cont. caspo for fungal colonization
   -if neg mycolytic for 7 days, stop caspo
   -f/u ID recs
   3. resp: ARDS
   -wean to 0.4 FiO2
   -try trial off paralytic if tolerates 0.4
   -weaning fentanyl/versed by 20% each day
   4. ARF: ATN
   -uop increasing
   -goal 2-2.5L neg on CVVH
   5. thrombocytopenia: c/w DIC
   -goal fibronogen >100
   -hct stable, plt stable
   -HIT Ab pending
   6. DM1/DKA:
   -insulin at 0.5 units/h, dont stop the gtt
   -take insulin out of TPN
   7. FEN: TPN
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-2-21**] 06:01 PM 41.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   PICC Line - [**2189-2-20**] 09:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2189-02-23 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - weaning vent, tolerated with cisatro off
   - levophed off
   - vasopressin to 1.2
   - sedation weaned 20%
   - lots negative
   - suctioned ? gastric contents out of her lungs, sat bed up higher,
   discontinued sucralfate and put famotidine in TPN (needs to be
   increased to 40mg in TPN tomorrow)
   - Insulin taken out of TPN
   - ID requested 3rd Cdiff and CT torso with contrast - waited on
   contrast CT for kidneys to improve a little more.
   - bile in ETT x 2
   - blood in NGT - gave 2 bags plts for bleeding and plt < 40. Cleared
   with 120-180cc flush
   - febrile to 101, pancultured
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2189-2-22**] 02:11 PM
   Metronidazole - [**2189-2-23**] 03:04 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Cisatracurium - 0.2 mg/Kg/hour
   Midazolam (Versed) - 10 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Fentanyl - 300 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Cisatracurium - [**2189-2-23**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-23**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.4
C (97.6
   HR: 85 (73 - 99) bpm
   BP: 103/42(60) {103/41(58) - 141/63(87)} mmHg
   RR: 24 (0 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 13 (10 - 15)mmHg
   Total In:
                                                                 10,311 mL
                                                                  3,564 mL
   PO:
   TF:
   IVF:
                                                                  9,100 mL
                                                                  2,823 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                 13,289 mL
                                                                  3,073 mL
   Urine:
                                                                  1,174 mL
                                                                    505 mL
   NG:
                                                                    720 mL
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,978 mL
                                                                    491 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 38 cmH2O
   Plateau: 32 cmH2O
   Compliance: 18.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.34/41/134/21/-3
   Ve: 8.5 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Overweight / Obese, generalized anasarca improved,
   sedated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Abdomen:  distended, absent BS, with rectal tube in place with loose
   green stools
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, skin breakdown beneath breaths, beneath pannus, in skin
   folds
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   121 K/uL
   9.7 g/dL
   102 mg/dL
   0.3 mg/dL
   21 mEq/L
   4.5 mEq/L
   16 mg/dL
   109 mEq/L
   138 mEq/L
   27.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2189-2-22**]  10:33 AM
                             [**2189-2-22**]  10:48 AM
                             [**2189-2-22**]  11:49 AM
                             [**2189-2-22**]  03:57 PM
                             [**2189-2-22**]  04:16 PM
                             [**2189-2-22**]  10:04 PM
                             [**2189-2-22**]  10:10 PM
                             [**2189-2-22**]  10:15 PM
                             [**2189-2-23**]  03:17 AM
                             [**2189-2-23**]  03:28 AM
   WBC
   8.1
   Hct
   30.9
   27.7
   27.9
   Plt
   38
   121
   Cr
   0.3
   0.3
   0.3
   TCO2
   24
   18
   25
   26
   23
   Glucose
   108
   125
   152
   102
   Other labs: PT / PTT / INR:21.3/46.1/2.0, ALT / AST:53/85, Alk Phos / T
   Bili:147/19.9, Amylase / Lipase:[**10-30**], Differential-Neuts:68.2 %,
   Band:1.0 %, Lymph:19.3 %, Mono:5.9 %, Eos:6.2 %, D-dimer:6342 ng/mL,
   Fibrinogen:158 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:412
   IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Microbiology:    CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final
   [**2189-2-22**]):
         Feces negative for C.difficile toxin A & B by EIA.
[**2189-2-23**] 3:00 am STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Pending):
[**2189-2-23**] blood cx: NGTD
[**2189-2-23**] urine cx: NGTD
HIT antibody pending
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago, last
   flare, recent cryptospordial infection presented to OSH with worsening
   abdominal pain, nausea and vomitting.
    # Sepsis:  Presumed source is clostridium difficile infection in this
   patient with CVID, now s/p Xigris and IgG x 2 doses.   Patient had
   persistent severe metabolic acidosis and elevated lactate which have
   improved with initiation of CVVH.  Multiple BCx NTD, as is peritoneal
   fluid Cx.  Linezolid discontinued per ID given no gram +
s by culture.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - Surgical consult following for ? colonic resection if patient fails
   to improve with medical management
   - continue caspofungin as empiric coverage for yeast cultured from
   urine and BAL fluid, also has B glucan positive
   - appreciate ID recs
   - f/u blood, urine, peritoneal fluid cultures
   - next dose IVIG as per ID
   - currently on pressors; will leave on board today in effort to remove
   fluid via CVVH
   # Respiratory failure:  Improved in the past with recruitment
   maneuvers.  Likely ARDS in the setting of severe infection.  Now with
   worsening infiltrates on CXR, concerning for developing VAP.
   - diagnostic mini BAL today
   - daily trial with paralytics off
   - esophageal balloon to remain in place
   - As per ID recs, will defer initiation of broad-spectrum antibiotics
   (Vanc + Meropenem) in the setting of c. diff infection.  Will initiate
   for worsening ventilatory status, drop in BP.
   # Thrombocytopenia:   Low fibrinogen, elevated INR, and
   thrombocytopenia are suggestive of DIC in the setting of sepsis vs.
   underlying liver disease.  Fibrinogen 173 at time of admission; thus
   fibrinogen of ~100 represents a drop from baseline.  Patient has blood
   oozing from OGT, possibly consistent with DIC.   HIT 4T score of 3 (2
   points for >50% decrease in platelets, and 1 point for  fall occurring
   > 10 days following heparin exposure, as patient was on SC heparin as
   DVT prophylaxis during recent hospitalization from [**2-2**]
 [**2-11**]) confers
   low probability for HIT.  Furthermore, she has only received two doses
   of SC heparin during this hospitalization, both on [**2-13**].   Drug-induced
   thrombocytopenia is also a consideration with possible offending agents
   including Linezolid, PPI, Caspofungin.   TTP-HUS less likely given lack
   of  microangiopathic findings on the peripheral blood smear.
   -          Transfuse platelets > 50K if evidence of bleeding or drop in
   hct
   -          Maintain platelets > 20K if no evidence of active bleeding
   -          f/u HIT antibody (low probability)
   -          Transfuse 1 bag platelets today and check post-transfusion
   platelet count
   -          q 6 hour fibrinogens; transfuse cryo for fibrinogen < 100
   -          Hematology consult following
   # Anemia:  s/p 1 unit PRBC
s on [**2-13**] and 1 unit on [**2-16**] units on
   [**2-19**] unit on [**2-20**] (total 5 units for LOS).   Hemolysis labs  with
   low haptoglobin, elevated LDH, though no schistocytes are apparent on
   peripheral blood smear, making TTP unlikely.   Blood loss is possibly
   associated with mucosal oozing as above, given probable DIC.  Direct
   coombs antibody negative.
   - trend HCT [**Hospital1 **], goal > 25-28
   - active T&S
   - Daily review of peripheral smear for evidence of hemolysis
   - Trend hemolysis labs (LDH, bilirubin, haptoglobin)
   - guaiac all stools
   # ARF:  Possibly secondary to ATN given sepsis.  Improving UOP.
   - cont CVVH with goal 2-3 liters negative today
   - Will discuss with renal team the endpoint for CVVH
   - goal CVP 10-12
   - continue to trend urine output
   - renally dose medications
   # Metabolic acidosis:  Multifactorial, secondary to DKA vs. sepsis vs.
   ARF.   Corrected with CVVH.
   - follow lactate, anion gap
   - cont CVVH per renal
   - cont insulin gtt, goal BG 80-120
   - q 12 hour lytes as per Renal
   # DM Type I:
   - continue insulin gtt protocol + continuous dextrose infusion in TPN
   - goal BG 80-120
   # Eosinophilia:  Elevated Eos on diff.  ? allergic reaction to
   antibiotics vs. intraabdominal infection.  No apparent rash.
   -          Urine eos negative
   -          Meropenem discontinued
   -          f/u stool O&P
   # FEN:
   -          Continue TPN as per Nutrition recs
   -          Goal I/O: negative 2-3 liters today
   # PPx:  Pneumoboots as DVT prophylaxis.  VAP bundle.
   - Famotidine in TPN as GI prophylaxis
   # Access: Left IJ placed in ED & right PICC on [**2-20**].
   - A-line
   - R fem HD line
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-2-22**] 05:50 PM 41.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   PICC Line - [**2189-2-20**] 09:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:   H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2189-02-23 09:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Spiked a fever off CVVH. Recieved 2 bags of plts for plt <50 and
   suctioning of blood from OG. Sedation weaned by 20% daily. Some bilious
   fluid suctioned from ETT. ID rec CT torso with contrast. Paralytics
   restarted for dysynchrony and hypoxia.
 PAN CULTURE - At [**2189-2-23**] 01:00 AM
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2189-2-22**] 02:11 PM
   Metronidazole - [**2189-2-23**] 03:04 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Fentanyl - 300 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Vasopressin - 2.4 units/hour
   Cisatracurium - 0.2 mg/Kg/hour
   Other ICU medications:
   Cisatracurium - [**2189-2-23**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-23**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.4
C (97.6
   HR: 87 (73 - 99) bpm
   BP: 97/40(56) {97/40(56) - 141/63(87)} mmHg
   RR: 24 (0 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 13 (10 - 15)mmHg
   Total In:
                                                                 10,242 mL
                                                                  3,789 mL
   PO:
   TF:
   IVF:
                                                                  9,031 mL
                                                                  3,020 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                 13,289 mL
                                                                  3,509 mL
   Urine:
                                                                  1,174 mL
                                                                    585 mL
   NG:
                                                                    720 mL
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,047 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 38 cmH2O
   Plateau: 32 cmH2O
   Compliance: 18.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.34/41/134/21/-3
   Ve: 8.5 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Non-tender, Distended
   Extremities: Right: 4+, Left: 4+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   121 K/uL
   102 mg/dL
   0.3 mg/dL
   21 mEq/L
   4.5 mEq/L
   16 mg/dL
   109 mEq/L
   138 mEq/L
   27.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2189-2-22**]  10:33 AM
                             [**2189-2-22**]  10:48 AM
                             [**2189-2-22**]  11:49 AM
                             [**2189-2-22**]  03:57 PM
                             [**2189-2-22**]  04:16 PM
                             [**2189-2-22**]  10:04 PM
                             [**2189-2-22**]  10:10 PM
                             [**2189-2-22**]  10:15 PM
                             [**2189-2-23**]  03:17 AM
                             [**2189-2-23**]  03:28 AM
   WBC
   8.1
   Hct
   30.9
   27.7
   27.9
   Plt
   38
   121
   Cr
   0.3
   0.3
   0.3
   TCO2
   24
   18
   25
   26
   23
   Glucose
   108
   125
   152
   102
   Other labs: PT / PTT / INR:21.3/46.1/2.0, ALT / AST:53/85, Alk Phos / T
   Bili:147/19.9, Amylase / Lipase:[**10-30**], Differential-Neuts:68.2 %,
   Band:1.0 %, Lymph:19.3 %, Mono:5.9 %, Eos:6.2 %, D-dimer:6342 ng/mL,
   Fibrinogen:158 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:412
   IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 DIABETES MELLITUS (DM), TYPE I
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 COCAINE ABUSE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATITIS, CHRONIC VIRAL
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PNEUMONIA, OTHER
   1. Sepsis: [**1-26**] C. Diff, CVP 12
   -IVIG qSat/vanco po and pr/IV flagyl
   -pancultured yesterday
   -caspofungin for fungal colonization
   -mini BAL to r/o VAP, ask ID about empiric coverage
   -CV sat
   2. resp failure: ARDS
   -worsening R base on CXR, inc sputum, inc WBC
   -cont. paralytics
   -ARDSnet vent
   -passive ROM
   3. thrombocytopenia: Suspect DIC, now improving fibrinogen
   -cryo if fib <100
   -plt >30 or >50 if bleeding
   -HIT Ab pending
   -Heme following
   4. Anemia: AOCD vs. hemolysis
   -keep hct >25%
   -trend hemolysis labs
   5. ARF: ATN
   -improving uop, touch base with renal about CVVH holiday
   -I/O 3L neg today if BP tolerates
   6. DKA: cont. insulin gtt, TPN
   7. Eosinophilia: O+P pending
   ? drug reaction
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-2-22**] 05:50 PM 41.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   PICC Line - [**2189-2-20**] 09:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow, reviewed and
   agree with the assessment and plan as above with emphasis and
   modification as follows:
   Patient with cirrhosis who developed severe septic shock presumably
   secondary to C. dificile colitis.  Patient was on 3 vasopressors at one
   point and developed renal failure requiring CVVH.  Currently, patient
   remains on vasopressin with levophed discontinued early this morning
   and is currently receiving CVVH.
   Last night, patient spiked a temperature of 101.6 and has increased
   sputum production.
   On exam, Tm 101  Tc 98.7   P 88   BP 106/60 (on vasopressin at .04
   Units/min)  Sat 94% (PEEP 12, Fio2 of 0.5)
   General: intubated, sedated, paralyzed
   Chest: Coarse breath sounds
   Heart: S1 S2 reg
   Abd; Soft, NT, slightly distended
   Ext: +2 edema bilaterally
   CXR: Right lower lobe infiltrate
   A:
   1)       Acute Respiratory Failure secondary ARDS and now pneumonia
   2)       Pneumonia (VAP
 developed overnight)
   3)       Septic Shock secondary to C. dif colitis
   4)       Acute Renal Failure
   5)       Coagulopathy
 DIC/liver failure
   P:
   1
 Mini-Bal and empiric therapy for pneumonia
   2
 Maintain current vent settings
 with treatment for pneumonia, will
   hopefully be able to continue to wean further
   3-   Check Cortisol level as prolonged ICU stay could lead to adrenal
   failure (and because patient now has eosinophils)
   4-   Continue vasopressin for now and check scvo2, va-pco2 difference
   for idea of cardiac output/hemodynamics
   5-  Continue therapy for c. diff colitis (vanc/flagyl, ivig)
   Critical Care: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2189-2-23**] 09:23 PM ------

2189-02-24 08:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - worsening infiltrates on CXR
   - mini BAL with no organisms on gram stain
   - Started IV vancomycin and meropenem as empiric coverage for VAP
   - Random cortisol 12.3
   - Aline no longer functioning
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2189-2-22**] 02:11 PM
   Meropenem - [**2189-2-23**] 11:18 PM
   Vancomycin - [**2189-2-24**] 12:17 AM
   Metronidazole - [**2189-2-24**] 04:16 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Insulin - Regular - 5 units/hour
   KCl (CRRT) - 2 mEq./hour
   Fentanyl - 300 mcg/hour
   Cisatracurium - 0.2 mg/Kg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: No(t) Tube feeds, Parenteral nutrition
   Endocrine: Hyperglycemia
   Allergy / Immunology: Immunocompromised
   Flowsheet Data as of  [**2189-2-24**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (96.9
   HR: 72 (70 - 96) bpm
   BP: 107/51(64) {107/51(64) - 107/51(64)} mmHg
   RR: 26 (24 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 10 (6 - 16)mmHg
   Total In:
                                                                 10,229 mL
                                                                  3,978 mL
   PO:
   TF:
   IVF:
                                                                  8,747 mL
                                                                  3,501 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                 12,876 mL
                                                                  4,991 mL
   Urine:
                                                                  1,097 mL
                                                                    485 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,647 mL
                                                                 -1,013 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 32 cmH2O
   Compliance: 23.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/34/94.[**Numeric Identifier 299**]/23/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: No(t) PERRL, Sclera edema
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Rhonchorous: )
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   101 K/uL
   9.4 g/dL
   137 mg/dL
   0.3 mg/dL
   23 mEq/L
   4.5 mEq/L
   15 mg/dL
   108 mEq/L
   137 mEq/L
   27.0 %
   6.3 K/uL
        [image002.jpg]
                             [**2189-2-23**]  03:17 AM
                             [**2189-2-23**]  03:28 AM
                             [**2189-2-23**]  09:44 AM
                             [**2189-2-23**]  10:08 AM
                             [**2189-2-23**]  03:52 PM
                             [**2189-2-23**]  04:04 PM
                             [**2189-2-23**]  09:54 PM
                             [**2189-2-23**]  10:07 PM
                             [**2189-2-24**]  03:48 AM
                             [**2189-2-24**]  04:09 AM
   WBC
   8.1
   6.0
   6.3
   Hct
   27.9
   27.1
   27.0
   Plt
   121
   108
   101
   Cr
   0.3
   0.3
   0.3
   0.3
   TCO2
   23
   25
   25
   25
   23
   Glucose
   102
   146
   140
   114
   108
   59
   137
   Other labs: PT / PTT / INR:23.8/49.0/2.3, ALT / AST:45/96, Alk Phos / T
   Bili:140/16.8, Amylase / Lipase:[**10-30**], Differential-Neuts:62.0 %,
   Band:5.0 %, Lymph:14.0 %, Mono:8.0 %, Eos:6.0 %, D-dimer:6342 ng/mL,
   Fibrinogen:190 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:445
   IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: c. diff toxin - negative x3
   Microbiology: [**2189-2-23**] 5:08 pm Mini-BAL      BRONCHIAL LAVAGE.
      GRAM STAIN (Final [**2189-2-23**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago, last
   flare, recent cryptospordial infection presented to OSH with worsening
   abdominal pain, nausea and vomitting.
    # Sepsis:  Presumed source is clostridium difficile infection in this
   patient with CVID, now s/p Xigris and IgG x 2 doses.   Patient had
   persistent severe metabolic acidosis and elevated lactate which have
   improved with initiation of CVVH.  Multiple BCx NTD, as is peritoneal
   fluid Cx.  Linezolid discontinued per ID given no gram +
s by culture.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - Surgical consult following for ? colonic resection if patient fails
   to improve with medical management
   - continue caspofungin as empiric coverage for yeast cultured from
   urine and BAL fluid, also has B glucan positive
   - appreciate ID recs
   - f/u blood, urine, peritoneal fluid cultures
   - next dose IVIG as per ID
   - currently on pressors; will leave on board today in effort to remove
   fluid via CVVH
   # Respiratory failure:  Improved in the past with recruitment
   maneuvers.  Likely ARDS in the setting of severe infection.  Now with
   worsening infiltrates on CXR, concerning for developing VAP.
   - diagnostic mini BAL today
   - daily trial with paralytics off
   - esophageal balloon to remain in place
   - As per ID recs, will defer initiation of broad-spectrum antibiotics
   (Vanc + Meropenem) in the setting of c. diff infection.  Will initiate
   for worsening ventilatory status, drop in BP.
   # Thrombocytopenia:   Low fibrinogen, elevated INR, and
   thrombocytopenia are suggestive of DIC in the setting of sepsis vs.
   underlying liver disease.  Fibrinogen 173 at time of admission; thus
   fibrinogen of ~100 represents a drop from baseline.  Patient has blood
   oozing from OGT, possibly consistent with DIC.   HIT 4T score of 3 (2
   points for >50% decrease in platelets, and 1 point for  fall occurring
   > 10 days following heparin exposure, as patient was on SC heparin as
   DVT prophylaxis during recent hospitalization from [**2-2**]
 [**2-11**]) confers
   low probability for HIT.  Furthermore, she has only received two doses
   of SC heparin during this hospitalization, both on [**2-13**].   Drug-induced
   thrombocytopenia is also a consideration with possible offending agents
   including Linezolid, PPI, Caspofungin.   TTP-HUS less likely given lack
   of  microangiopathic findings on the peripheral blood smear.
   -          Transfuse platelets > 50K if evidence of bleeding or drop in
   hct
   -          Maintain platelets > 20K if no evidence of active bleeding
   -          f/u HIT antibody (low probability)
   -          Transfuse 1 bag platelets today and check post-transfusion
   platelet count
   -          q 6 hour fibrinogens; transfuse cryo for fibrinogen < 100
   -          Hematology consult following
   # Anemia:  s/p 1 unit PRBC
s on [**2-13**] and 1 unit on [**2-16**] units on
   [**2-19**] unit on [**2-20**] (total 5 units for LOS).   Hemolysis labs  with
   low haptoglobin, elevated LDH, though no schistocytes are apparent on
   peripheral blood smear, making TTP unlikely.   Blood loss is possibly
   associated with mucosal oozing as above, given probable DIC.  Direct
   coombs antibody negative.
   - trend HCT [**Hospital1 **], goal > 25-28
   - active T&S
   - Daily review of peripheral smear for evidence of hemolysis
   - Trend hemolysis labs (LDH, bilirubin, haptoglobin)
   - guaiac all stools
   # ARF:  Possibly secondary to ATN given sepsis.  Improving UOP.
   - cont CVVH with goal 2-3 liters negative today
   - Will discuss with renal team the endpoint for CVVH
   - goal CVP 10-12
   - continue to trend urine output
   - renally dose medications
   # Metabolic acidosis:  Multifactorial, secondary to DKA vs. sepsis vs.
   ARF.   Corrected with CVVH.
   - follow lactate, anion gap
   - cont CVVH per renal
   - cont insulin gtt, goal BG 80-120
   - q 12 hour lytes as per Renal
   # DM Type I:
   - continue insulin gtt protocol + continuous dextrose infusion in TPN
   - goal BG 80-120
   # Eosinophilia:  Elevated Eos on diff.  ? allergic reaction to
   antibiotics vs. intraabdominal infection.  No apparent rash.
   -          Urine eos negative
   -          Meropenem discontinued
   -          f/u stool O&P
   # FEN:
   -          Continue TPN as per Nutrition recs
   -          Goal I/O: negative 2-3 liters today
   # PPx:  Pneumoboots as DVT prophylaxis.  VAP bundle.
   - Famotidine in TPN as GI prophylaxis
   # Access: Left IJ placed in ED & right PICC on [**2-20**].
   - A-line
   - R fem HD line
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-2-23**] 05:46 PM 54.[**Telephone/Fax (5) 4983**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Arterial Line - [**2189-2-13**] 04:20 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   PICC Line - [**2189-2-20**] 09:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2189-02-24 11:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Started vanco/[**Last Name (un) **] for possible VAP, miniBAL sent, GS neg. Random
   cortisol was 12.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2189-2-22**] 02:11 PM
   Meropenem - [**2189-2-23**] 11:18 PM
   Metronidazole - [**2189-2-24**] 04:16 AM
   Vancomycin - [**2189-2-24**] 09:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Insulin - Regular - 2 units/hour
   Fentanyl - 275 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-24**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (96.9
   HR: 80 (70 - 96) bpm
   BP: 92/43(54) {92/43(54) - 107/51(64)} mmHg
   RR: 28 (24 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 10 (6 - 16)mmHg
   Total In:
                                                                 10,230 mL
                                                                  5,214 mL
   PO:
   TF:
   IVF:
                                                                  8,747 mL
                                                                  4,608 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                 12,876 mL
                                                                  6,355 mL
   Urine:
                                                                  1,097 mL
                                                                    520 mL
   NG:
                                                                     75 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,646 mL
                                                                 -1,141 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 32 cmH2O
   SpO2: 99%
   ABG: 7.43/34/94.[**Numeric Identifier 299**]/24/0
   Ve: 9.1 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   throughout)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 4+, Left: 4+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   101 K/uL
   95 mg/dL
   0.3 mg/dL
   24 mEq/L
   4.2 mEq/L
   15 mg/dL
   107 mEq/L
   137 mEq/L
   27.0 %
   6.3 K/uL
        [image002.jpg]
                             [**2189-2-23**]  09:44 AM
                             [**2189-2-23**]  10:08 AM
                             [**2189-2-23**]  03:52 PM
                             [**2189-2-23**]  04:04 PM
                             [**2189-2-23**]  09:54 PM
                             [**2189-2-23**]  10:07 PM
                             [**2189-2-24**]  03:48 AM
                             [**2189-2-24**]  04:09 AM
                             [**2189-2-24**]  09:54 AM
                             [**2189-2-24**]  10:12 AM
   WBC
   6.0
   6.3
   Hct
   27.1
   27.0
   Plt
   108
   101
   Cr
   0.3
   0.3
   0.3
   0.3
   TCO2
   25
   25
   25
   23
   Glucose
   146
   140
   114
   108
   59
   137
   99
   95
   Other labs: PT / PTT / INR:23.8/49.0/2.3, ALT / AST:45/96, Alk Phos / T
   Bili:140/16.8, Amylase / Lipase:[**10-30**], Differential-Neuts:62.0 %,
   Band:5.0 %, Lymph:14.0 %, Mono:8.0 %, Eos:6.0 %, D-dimer:6342 ng/mL,
   Fibrinogen:190 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:445
   IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 DIABETES MELLITUS (DM), TYPE I
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 COCAINE ABUSE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATITIS, CHRONIC VIRAL
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PNEUMONIA, OTHER
   1. C. Diff/sepsis:
   -po/pr vanco/IV flagyl/IV vanco/[**Last Name (un) **] for ? VAP
   -continues on vaso for fluid removal
   -needs new aline
   -d/c caspofungin
   2. ARDS: Possible VAP
   -stop vanc/[**Last Name (un) **] if BAL neg
   -holding paralytics
   -cont. PCV
   -weaning sedation
   3. ARF/ATN: now uop improved
   -try aggressive fluid removal next few days (4L/day), then try CVVH
   holiday
   4. thrombocytopenia: HIT Ab neg, was DIC, now improved
   -keep plt >30, or >50 if bleeding
   -follow fibrinogen
   5. Anemia: DIC
   -now improved, hct stable
   -hct >24
   6. DM1/DKA: cont. insulin gtt, goal BS 80-120
   7. FEN: goal neg 4L, TPN
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-2-23**] 05:46 PM 54.[**Telephone/Fax (5) 4983**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   PICC Line - [**2189-2-20**] 09:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow, reviewed and
   agree with the assessment and plan as above with emphasis and
   modification as follows:
   Patient with cirrhosis who developed severe septic shock presumably
   secondary to C. dificile colitis.  Patient was on 3 vasopressors at one
   point and developed renal failure requiring CVVH.  Currently, patient
   remains on vasopressin with levophed discontinued early this morning
   and is currently receiving CVVH.
   No more fever spikes.
   On exam, T 98.7   P 88   BP 102/60 (on vasopressin at .04 Units/min)
   Sat 100% (PEEP 12, Fio2 of 0.5)
   General: intubated, sedated, paralyzed
   Chest: Coarse breath sounds
   Heart: S1 S2 reg
   Abd; Soft, NT, slightly distended
   Ext: +2 edema bilaterally
   CXR: improved infiltrates
   A:
   1)       Acute Respiratory Failure secondary ARDS
   2)       Pneumonia (VAP
 developed overnight)
 mini- BAL pending
   3)       Septic Shock secondary to C. dif colitis
   4)       Acute Renal Failure
   5)       Coagulopathy
 DIC/liver failure
   P:
   1
 Follow-miniBAL results
   2
 Will change from VC to PC and discontinue paralytics; decrease PEEP
   to 10
   3-  Arterial line will need to be re-sited as current line not
   functioning
   5-  Continue therapy for c. diff colitis (vanc/flagyl, ivig)
   Critical Care: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2189-2-24**] 19:07 ------

2189-02-25 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tolerated off sedation and paralytics most of the day.
   - PEEP decreased to 10
   - Renal recs, CVVH take 5 L off on [**2-25**], reassess tomorrow to d/c CVVH
   vs transition to lasix
   - Surgery recs, discussing surgery with family
   - Discontinued vanc/[**Last Name (un) **] given BAL does not show any growth
   - Discontined caspofungin as her fungal BCx did not grow in 7 days
   - ID agreed with the above antiobiotic changes
   - CMV VL sent per ID recs
   - patient received Winrho for receiving Rh+ platelets the day before
   - Patient became dyssynchronous with the vent at around 2 am.  Going up
   on pressure control or switching to CMV did not help.  Going up on
   sedation did not help.  Started on paralytics.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2189-2-22**] 02:11 PM
   Vancomycin - [**2189-2-24**] 09:00 AM
   Meropenem - [**2189-2-24**] 06:00 PM
   Metronidazole - [**2189-2-25**] 04:24 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 275 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Cisatracurium - 0.2 mg/Kg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Parenteral nutrition
   Endocrine: Hyperglycemia
   Allergy / Immunology: Immunocompromised
   Flowsheet Data as of  [**2189-2-25**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 81 (76 - 108) bpm
   BP: 119/49(71) {106/43(63) - 133/58(322)} mmHg
   RR: 26 (20 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 12 (10 - 17)mmHg
   Total In:
                                                                 10,175 mL
                                                                  3,183 mL
   PO:
   TF:
   IVF:
                                                                  8,859 mL
                                                                  2,741 mL
   Blood products:
   Total out:
                                                                 15,456 mL
                                                                  3,979 mL
   Urine:
                                                                  1,085 mL
                                                                    245 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,282 mL
                                                                   -796 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 35 cmH2O
   SpO2: 97%
   ABG: 7.35/42/107/25/-2
   Ve: 8.5 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   127 K/uL
   9.4 g/dL
   97 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.5 mEq/L
   16 mg/dL
   107 mEq/L
   138 mEq/L
   27.2 %
   9.8 K/uL
        [image002.jpg]
                             [**2189-2-24**]  04:09 AM
                             [**2189-2-24**]  09:54 AM
                             [**2189-2-24**]  10:12 AM
                             [**2189-2-24**]  04:46 PM
                             [**2189-2-24**]  05:09 PM
                             [**2189-2-24**]  10:58 PM
                             [**2189-2-24**]  11:15 PM
                             [**2189-2-25**]  05:19 AM
                             [**2189-2-25**]  05:36 AM
                             [**2189-2-25**]  07:05 AM
   WBC
   9.8
   Hct
   27.2
   Plt
   127
   Cr
   0.3
   0.4
   0.4
   TCO2
   23
   26
   25
   24
   Glucose
   99
   95
   75
   71
   132
   97
   Other labs: PT / PTT / INR:22.5/49.1/2.2, ALT / AST:45/96, Alk Phos / T
   Bili:140/16.8, Amylase / Lipase:[**10-30**], Differential-Neuts:62.0 %,
   Band:5.0 %, Lymph:14.0 %, Mono:8.0 %, Eos:6.0 %, D-dimer:6342 ng/mL,
   Fibrinogen:202 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:445
   IU/L, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
[**2189-2-23**] 5:08 pm Mini-BAL      BRONCHIAL LAVAGE.
   GRAM STAIN (Final [**2189-2-23**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   POTASSIUM HYDROXIDE PREPARATION (Final [**2189-2-24**]):
   FUNGAL CULTURE (Preliminary):
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago, last
   flare, recent cryptospordial infection presented to OSH with worsening
   abdominal pain, nausea and vomitting.
    # Sepsis:  Presumed source is clostridium difficile infection in this
   patient with CVID, now s/p Xigris and IgG x 2 doses.   Patient had
   persistent severe metabolic acidosis and elevated lactate which have
   improved with initiation of CVVH.  All other micro data have been NGTD.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - Surgical consult following for ? colonic resection if patient fails
   to improve with medical management
   - d/c caspofungin, as 7-day course completed and mycolytic cultures
   negativ
   - appreciate ID recs
   - f/u blood, urine, peritoneal fluid cultures
   - next dose IVIG as per ID recs
   - currently on vasopressin; will leave on board today in effort to
   remove fluid via CVVH
   # Respiratory failure:  Improved in the past with recruitment
   maneuvers.  Likely ARDS in the setting of severe infection.  Now with
   worsening infiltrates on CXR and increased sputum production,
   concerning for developing VAP.
   - diagnostic mini BAL performed on [**2-24**] with negative gram stain;
   follow-up cultures
   - Continue Vancomycin, Meropenem empirically for VAP, pending culture
   data
   - trial of Pressure Control today in effort to wean paralytics
   - esophageal balloon to remain in place
   # Thrombocytopenia:   Low fibrinogen, elevated INR, and
   thrombocytopenia are suggestive of DIC in the setting of sepsis vs.
   underlying liver disease.  Fibrinogen 173 at time of admission; thus
   fibrinogen of ~100 represented a drop from baseline, but now improved
   back to baseline.  Patient has blood oozing from OGT, possibly
   consistent with DIC.   HIT antibody negative.  Drug-induced
   thrombocytopenia is also a consideration with possible offending agents
   including Linezolid, PPI, Caspofungin.   TTP-HUS less likely given lack
   of  microangiopathic findings on the peripheral blood smear.
   -          Transfuse platelets > 50K if evidence of bleeding or drop in
   hct
   -          Maintain platelets > 20K if no evidence of active bleeding
   -          daily fibrinogen
   -          Hematology consult following
   # Anemia:  s/p 1 unit PRBC
s on [**2-13**] and 1 unit on [**2-16**] units on
   [**2-19**] unit on [**2-20**] (total 5 units for LOS).   Hemolysis labs  with
   low haptoglobin, elevated LDH, though no schistocytes are apparent on
   peripheral blood smear, making TTP unlikely.   Blood loss is possibly
   associated with mucosal oozing as above, given probable DIC.  Direct
   coombs antibody negative.
   - trend HCT [**Hospital1 **], goal > 25-28
   - active T&S
   - Daily review of peripheral smear for evidence of hemolysis
   - Trend hemolysis labs (LDH, bilirubin, haptoglobin)
   - guaiac all stools
   # ARF:  Possibly secondary to ATN given sepsis.  Improving UOP with > 1
   liter urine x 3 sequential days.
   - cont CVVH for fluid status management now for goal negative 4 liters
   today
   - Per renal, will continue CVVH for additional 48 hours with goal for 4
   liters negative endpoint for CVVH
   - continue to trend urine output
   - renally dose medications
   # Metabolic acidosis:  Multifactorial, secondary to DKA vs. sepsis vs.
   ARF.   Corrected with CVVH.
   - follow lactate, anion gap
   - cont CVVH per renal
   - cont insulin gtt, goal BG 80-120
   - q 12 hour lytes as per Renal
   # DM Type I:
   - continue insulin gtt protocol + continuous dextrose infusion in TPN
   - goal BG 80-120
   # Eosinophilia:  Elevated Eos on diff.  ? allergic reaction to
   antibiotics vs. intraabdominal infection.  No apparent rash.
   -          Urine eos negative
   -          Meropenem discontinued
   # Cirrhosis:  chronic HCV infection.
   - continue to trend transaminases
   - Liver consult team following
   # FEN:
   -          Continue TPN as per Nutrition recs
   -          Goal I/O: negative 4 liters today
   # PPx:  Pneumoboots as DVT prophylaxis.  VAP bundle.
   - Famotidine in TPN as GI prophylaxis
   # Access: Left IJ placed in ED on [**2-12**] & right PICC on [**2-20**].
   - A-line to be resited today
   - R fem HD line to be discontinued after 48 hours
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-2-25**] 06:25 AM 54.[**Telephone/Fax (5) 4983**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   PICC Line - [**2189-2-20**] 09:27 AM
   Arterial Line - [**2189-2-24**] 09:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2189-02-25 11:18:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   5L neg on CVVH. PEEP [**Month (only) 453**] to 10. Vanc/[**Last Name (un) 350**] were d/c'd as BAL was neg.
   Caspofungin d/c'd as fungal cx neg X7d. Got Rhogam for having gotten Rh
   positive plts. Restarted on paralytics as was dysynchronous and
   desatting.
 ARTERIAL LINE - STOP [**2189-2-24**] 09:06 AM
 ARTERIAL LINE - START [**2189-2-24**] 09:29 PM
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2189-2-22**] 02:11 PM
   Vancomycin - [**2189-2-24**] 09:00 AM
   Meropenem - [**2189-2-24**] 06:00 PM
   Metronidazole - [**2189-2-25**] 04:24 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Insulin - Regular - 2 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Cisatracurium - 0.2 mg/Kg/hour
   Fentanyl - 275 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-25**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 70 (70 - 108) bpm
   BP: 115/48(70) {106/43(63) - 133/58(322)} mmHg
   RR: 26 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 9 (9 - 17)mmHg
   Total In:
                                                                 10,175 mL
                                                                  4,482 mL
   PO:
   TF:
   IVF:
                                                                  8,859 mL
                                                                  3,848 mL
   Blood products:
   Total out:
                                                                 15,456 mL
                                                                  6,414 mL
   Urine:
                                                                  1,085 mL
                                                                    310 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,281 mL
                                                                 -1,932 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 35 cmH2O
   SpO2: 100%
   ABG: 7.43/37/144/24/1
   Ve: 8.5 L/min
   PaO2 / FiO2: 288
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse, Wheezes : diffuse)
   Abdominal: Soft, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   127 K/uL
   124 mg/dL
   0.3 mg/dL
   24 mEq/L
   4.2 mEq/L
   16 mg/dL
   108 mEq/L
   139 mEq/L
   27.2 %
   9.8 K/uL
        [image002.jpg]
                             [**2189-2-24**]  10:12 AM
                             [**2189-2-24**]  04:46 PM
                             [**2189-2-24**]  05:09 PM
                             [**2189-2-24**]  10:58 PM
                             [**2189-2-24**]  11:15 PM
                             [**2189-2-25**]  05:19 AM
                             [**2189-2-25**]  05:36 AM
                             [**2189-2-25**]  07:05 AM
                             [**2189-2-25**]  09:42 AM
                             [**2189-2-25**]  09:55 AM
   WBC
   9.8
   Hct
   27.2
   Plt
   127
   Cr
   0.4
   0.4
   0.3
   TCO2
   26
   25
   24
   25
   Glucose
   95
   75
   71
   132
   97
   130
   124
   Other labs: PT / PTT / INR:22.5/49.1/2.2, ALT / AST:45/96, Alk Phos / T
   Bili:140/16.8, Amylase / Lipase:[**10-30**], Differential-Neuts:62.0 %,
   Band:5.0 %, Lymph:14.0 %, Mono:8.0 %, Eos:6.0 %, D-dimer:6342 ng/mL,
   Fibrinogen:202 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:445
   IU/L, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 DIABETES MELLITUS (DM), TYPE I
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 COCAINE ABUSE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATITIS, CHRONIC VIRAL
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PNEUMONIA, OTHER
   42 y/o f with C. Diff sepsis, ARDS, ARF.
   1. Sepsis: C. Diff
   -IVIG qSat
   -vaso for fluid removal
   -po/pr vanco/flagyl IV
   2. Resp failure: ARDS
   -PEEP down to 8
   -consult IP for trach
   -turn off paralytics, consider PS if dysynchronous
   3. ATN: uop improved
   -4-5L neg today, then CVVH holiday tomorrow
   4. thrombocytopenia: DIC resolved, fibrinogen increased
   -follow plts, bili trending down
   -hct >25
   5. eosinophilia: Check diff tommorow
   6. Cirrhosis:
   -liver following
   7. DM: Cont. insulin gtt, consider either sc or putting in TPN
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-2-25**] 06:25 AM 62.5 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   PICC Line - [**2189-2-20**] 09:27 AM
   Arterial Line - [**2189-2-24**] 09:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow, reviewed and
   agree with the assessment and plan as above with emphasis and
   modification as follows:
   Patient with cirrhosis who developed severe septic shock presumably
   secondary to C. dificile colitis.  Patient was on 3 vasopressors at one
   point and developed renal failure requiring CVVH.  Currently, patient
   remains on vasopressin with levophed discontinued early this morning
   and is currently receiving CVVH.
   No more fever spikes.
   On exam, T 98.7   P 88   BP 115/40 (on vasopressin at .04 Units/min)
   Sat 100% (PEEP 10, Fio2 of 0.5)
   General: intubated, sedated,
   Chest: Coarse breath sounds
   Heart: S1 S2 reg
   Abd; Soft, NT, slightly distended
   Ext: +2 edema bilaterally
   CXR: improved infiltrates
   A:
   1)       Acute Respiratory Failure secondary ARDS - improving
   2)       Septic Shock secondary to C. dif colitis - improving
   3)       Acute Renal Failure
   4)       Coagulopathy
 DIC/liver failure
   P:
   1
 Discontinue paralytics that were started overnight
 decrease PEEP
   to 8
   2
 VAP antibiotics discontinued as mini-BAL was negative
   3-  Repeat abdominal CT Scan tomorrow if respiratory status continues
   to improve
 depending on the results, may consider beginning enteral
   feeding
   4-  Continue therapy for c. diff colitis (vanc/flagyl, ivig)
   5-  Continue CVVH for now although urine output much improved
   Critical Care Time: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2189-2-25**] 10:31 PM ------

2189-02-26 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - paralytics discontinued
   - PEEP waned to 8, FiO2 to 40%
   - IP involved
   - insulin in TPN and SSI
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-24**] 09:00 AM
   Meropenem - [**2189-2-24**] 06:00 PM
   Metronidazole - [**2189-2-26**] 06:03 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Insulin - Regular - 4 units/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 275 mcg/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Parenteral nutrition
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Heme / Lymph: Coagulopathy
   Allergy / Immunology: Immunocompromised
   Flowsheet Data as of  [**2189-2-26**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 92 (70 - 103) bpm
   BP: 120/51(72) {109/43(64) - 139/63(89)} mmHg
   RR: 25 (24 - 48) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 7 (-5 - 13)mmHg
   Total In:
                                                                  9,720 mL
                                                                  3,204 mL
   PO:
   TF:
   IVF:
                                                                  8,259 mL
                                                                  2,694 mL
   Blood products:
   Total out:
                                                                 19,098 mL
                                                                  5,716 mL
   Urine:
                                                                    691 mL
                                                                    148 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -9,378 mL
                                                                 -2,506 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.46/34/110/21/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Distended, absent bowel sounds
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   144 K/uL
   11.2 g/dL
   186
   0.4 mg/dL
   21 mEq/L
   4.5 mEq/L
   17 mg/dL
   106 mEq/L
   137 mEq/L
   32.8 %
   11.5 K/uL
        [image002.jpg]
                             [**2189-2-25**]  07:05 AM
                             [**2189-2-25**]  09:42 AM
                             [**2189-2-25**]  09:55 AM
                             [**2189-2-25**]  03:38 PM
                             [**2189-2-25**]  03:54 PM
                             [**2189-2-25**]  10:17 PM
                             [**2189-2-25**]  10:21 PM
                             [**2189-2-26**]  04:43 AM
                             [**2189-2-26**]  04:54 AM
                             [**2189-2-26**]  06:00 AM
   WBC
   11.5
   Hct
   32.8
   Plt
   144
   Cr
   0.3
   0.4
   0.4
   TCO2
   24
   25
   28
   26
   25
   Glucose
   130
   124
   146
   137
   96
   173
   186
   Other labs: PT / PTT / INR:20.9/41.3/2.0, ALT / AST:45/96, Alk Phos / T
   Bili:140/16.8, Amylase / Lipase:[**10-30**], Differential-Neuts:68.0 %,
   Band:4.0 %, Lymph:14.0 %, Mono:11.0 %, Eos:0.0 %, D-dimer:6342 ng/mL,
   Fibrinogen:202 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:445
   IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Microbiology: [**2189-2-23**] 5:08 pm Mini-BAL      BRONCHIAL LAVAGE.
      GRAM STAIN (Final [**2189-2-23**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2189-2-25**]):    NO GROWTH, <1000 CFU/ml.
   FUNGAL CULTURE (Preliminary):
   URINE CULTURE (Final [**2189-2-24**]):
         GRAM POSITIVE COCCUS(COCCI).    ~3000/ML.
         YEAST.    ~1000/ML.
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, distant IBD > 20 yrs ago, last
   flare, recent cryptospordial infection presented to OSH with worsening
   abdominal pain, nausea and vomitting.
    # Sepsis:  Presumed source is clostridium difficile infection in this
   patient with CVID, now s/p Xigris and IgG x 2 doses.   Patient had
   persistent severe metabolic acidosis and elevated lactate which have
   improved with initiation of CVVH.  All other micro data have been NGTD.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - Surgical consult following for ? colonic resection if patient fails
   to improve with medical management
   - appreciate ID recs
   - f/u blood, urine, BAL, peritoneal fluid cultures
   - next dose IVIG as per ID recs
   - currently on vasopressin; will leave on board today in effort to
   remove fluid via CVVH
   # Respiratory failure:  Improved in the past with recruitment
   maneuvers.  Likely ARDS in the setting of severe infection.  Now with
   worsening infiltrates on CXR and increased sputum production,
   concerning for developing VAP.
   - diagnostic mini BAL performed on [**2-23**] with culture NGTD
   - d/c Vancomycin & Meropenem given negative BAL culture
   - discontinue paralytics
   - wean PEEP to 8, FiO2 40% as able
   - IP to perform bedside trach Friday
   - esophageal balloon to remain in place
   # Thrombocytopenia:   Low fibrinogen, elevated INR, and
   thrombocytopenia were suggestive of DIC in the setting of sepsis vs.
   underlying liver disease.  Fibrinogen 173 at time of admission; thus
   fibrinogen of ~100 represented a drop from baseline, but now improved
   back to baseline.  Patient has blood oozing from OGT, possibly
   consistent with DIC.   HIT antibody negative.  Drug-induced
   thrombocytopenia is also a consideration with possible offending agents
   including Linezolid, PPI, Caspofungin.   TTP-HUS less likely given lack
   of  microangiopathic findings on the peripheral blood smear.
   -          Transfuse platelets > 50K if evidence of bleeding or drop in
   hct
   -          Maintain platelets > 20K if no evidence of active bleeding
   -          daily fibrinogen
   -          Hematology consult following
   # Anemia:  s/p 1 unit PRBC
s on [**2-13**] and 1 unit on [**2-16**] units on
   [**2-19**] unit on [**2-20**] (total 5 units for LOS).   Hemolysis labs  with
   low haptoglobin, elevated LDH, though no schistocytes are apparent on
   peripheral blood smear, making TTP unlikely.   Blood loss is possibly
   associated with mucosal oozing as above, given probable DIC.  Direct
   coombs antibody negative.
   - trend HCT [**Hospital1 **], goal > 25-28
   - active T&S
   - Daily review of peripheral smear for evidence of hemolysis
   - Trend hemolysis labs (LDH, bilirubin, haptoglobin)
   - guaiac all stools
   # ARF:  Possibly secondary to ATN given sepsis.  Improving UOP with > 1
   liter urine x 4 sequential days.
   - cont CVVH today for fluid status management now for goal negative 5
   liters today
   - plan to d/c CVVH tomorrow and trial of Lasix
   - continue to trend urine output
   - renally dose medications
   # DM Type I:
   - transition insulin to TPN for continuous infusion
   - goal BG 80-120
   # Eosinophilia:  Elevated Eos on diff.  ? allergic reaction to
   antibiotics vs. intraabdominal infection.  No apparent rash.
   -          Urine eos negative
   -          Meropenem discontinued
   -          recheck differential tomorrow
   # Cirrhosis:  chronic HCV infection.
   - continue to trend transaminases
   - Liver consult team following
   # FEN:
   -          Continue TPN as per Nutrition recs
   -          Goal I/O: negative 5 liters today
   # PPx:  Pneumoboots as DVT prophylaxis.  VAP bundle.
   - Famotidine in TPN as GI prophylaxis
   # Access: Left IJ placed in ED on [**2-12**] & right PICC on [**2-20**].
   - A-line resided on [**2-24**]
   - R fem HD line to be discontinued later this week
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-2-25**] 10:17 PM 62.5 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   PICC Line - [**2189-2-20**] 09:27 AM
   Arterial Line - [**2189-2-24**] 09:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  Famotidine in TPN
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:  ICU

2189-02-26 11:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PEEP weaned to 8. FiO2 down to 40%. Was 9L neg on CVVH. CVVH taken off
   this am. Switched insulin to TPN. Off vasopressin.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-24**] 09:00 AM
   Meropenem - [**2189-2-24**] 06:00 PM
   Metronidazole - [**2189-2-26**] 06:03 AM
   Infusions:
   Insulin - Regular - 5 units/hour
   Fentanyl - 275 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-26**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 102 (74 - 103) bpm
   BP: 109/44(64) {109/43(64) - 139/63(89)} mmHg
   RR: 25 (24 - 48) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   CVP: 13 (-5 - 13)mmHg
   Total In:
                                                                  9,720 mL
                                                                  3,929 mL
   PO:
   TF:
   IVF:
                                                                  8,259 mL
                                                                  3,210 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                 19,098 mL
                                                                  6,714 mL
   Urine:
                                                                    691 mL
                                                                    198 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -9,378 mL
                                                                 -2,785 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.46/34/110/21/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse, Wheezes : diffuse)
   Abdominal: Soft, Distended, Tender: diffuse
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   144 K/uL
   209
   0.4 mg/dL
   21 mEq/L
   4.5 mEq/L
   17 mg/dL
   106 mEq/L
   137 mEq/L
   32.8 %
   11.5 K/uL
        [image002.jpg]
                             [**2189-2-25**]  09:55 AM
                             [**2189-2-25**]  03:38 PM
                             [**2189-2-25**]  03:54 PM
                             [**2189-2-25**]  10:17 PM
                             [**2189-2-25**]  10:21 PM
                             [**2189-2-26**]  04:43 AM
                             [**2189-2-26**]  04:54 AM
                             [**2189-2-26**]  06:00 AM
                             [**2189-2-26**]  09:00 AM
                             [**2189-2-26**]  11:00 AM
   WBC
   11.5
   Hct
   32.8
   Plt
   144
   Cr
   0.4
   0.4
   TCO2
   25
   28
   26
   25
   Glucose
   124
   146
   137
   96
   173
   186
   196
   209
   Other labs: PT / PTT / INR:20.9/41.3/2.0, ALT / AST:45/96, Alk Phos / T
   Bili:140/16.8, Amylase / Lipase:[**10-30**], Differential-Neuts:68.0 %,
   Band:4.0 %, Lymph:14.0 %, Mono:11.0 %, Eos:0.0 %, D-dimer:6342 ng/mL,
   Fibrinogen:202 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:445
   IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1. C. Diff sepsis: Cont. po vanco/pr vanco/ IV flagyl
   -off pressors
   -IVIG weekly, due tomorrow possibly
   -trophic TF at 10/h if CT OK
   -CT abd without contrast today to rule out free air
   2. ARDS: Decrease PEEP to 5 and 0.4, could try PS if she starts over
   breathing
   -fentanyl [**Month (only) 453**] to 200, versed 4 today, turn off briefly for daily wake
   up
   -trach tomorrow
   3. ARF: CVVH off
   -I/O goal neg
   -follow uop
   -renal recs
   4. DIC: Resolved
   5. DM1, on TPN with insulin, SSI
   6. Leukocytosis: pancx
   7. Cirrhosis: LFts improved
   -liver following
   8. Pull L SCL today if enough access
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-2-25**] 10:17 PM 62.5 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Multi Lumen - [**2189-2-13**] 12:05 AM
   Dialysis Catheter - [**2189-2-17**] 07:22 PM
   PICC Line - [**2189-2-20**] 09:27 AM
   Arterial Line - [**2189-2-24**] 09:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow, reviewed and
   agree with the assessment and plan as above with emphasis and
   modification as follows:
   Patient with cirrhosis who developed severe septic shock presumably
   secondary to C. dificile colitis.  Patient was on 3 vasopressors at one
   point and developed renal failure requiring CVVH.
   Now off vasopression overnight
   On exam, T 98.7   P 96   BP 106/40   Sat 100% (PEEP 8, Fio2 of 0.4)
   General: intubated, sedated,
   Chest: Coarse breath sounds
   Heart: S1 S2 reg
   Abd; Soft, NT, slightly distended
   Ext: +1 edema bilaterally
   A:
   1)       Acute Respiratory Failure secondary ARDS
 improving but still
   nearing 14 days post-intubation
   2)       Septic Shock secondary to C. dif colitis - improving
   3)       Acute Renal Failure
   4)       Coagulopathy
 DIC/liver failure
   P:
   1
 Trach planned for tomorrow
   2-  Discontinue sedation
   3 -  Repeat abd. CT today
 will consider trophic feeding after
   complete
   4-  Continue therapy for c. diff colitis (vanc/flagyl, ivig)
   5-  Plan to discontinue CVVH today
   Addendum: In the late afternoon/early evening, patient begin to develop
   tachycardia, low grade temperature spikes, and relative lower [**Name2 (NI) 1056**]
   pressure (90s/60s) with high shock index.  Thus, it appears that
   patient may be developing septic response again.  Source could be
   abdominal or from lines.
   A: 1) Septic Shock
   2) Resp Failure
   Plan:
   - Remove central line/PICC/HD cath
   - Place central line
   - IVFs/albumin/resuscitation as needed
 follow lactate, urine output
   and other perfusion endpoints
   Critical Care Time: 90 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2189-2-27**] 01:01 AM ------

2189-02-27 08:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CVVH stopped in AM
   - Fentanyl & versed turned off
   - CT abdomen & CT head performed
   - Febrile to 101, hypotensive with SBP's in 80's, tachy to 120's in the
   PM
   - Tried boluses of fentanyl and versed for tachycardia, without
   improvement.
   - all lines cultured, urine & sputum sent
   - Gave 1 L NS bolus with improvement of BP's, but no improvement in HR
   - started Daptomycin & Meropenem
   - HD line pulled with tip sent for culture
   - LIJ pulled with tip sent for culture
   - RIJ placed
   - PICC pulled with tip sent for culture
   - TPN discarded as this had been on potentially contaminated line;
   started PPN + insulin gtt until next bag hung
   - CVP 6 this AM -> received 2 additional liters NS.
   - Blood-tinged fluid back from NGT.  Hct drop from 32 -> 27.  Type &
   crossed.  Started IV Protonix [**Hospital1 **].
   - BG 44 this AM, gave [**12-26**] amp dextrose
   - Increased vent dysynchrony this AM on propofol; restarted Fentanyl at
   150, Versed at 4
   - 4 units FFP and DDAVP ordered for this morning for trach
   - CVP 6-7 after 3 units.  MAP > 70.  4th liter NS given.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-26**] 05:15 PM
   Daptomycin - [**2189-2-26**] 11:00 PM
   Meropenem - [**2189-2-27**] 04:00 AM
   Metronidazole - [**2189-2-27**] 04:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2189-2-26**] 08:00 PM
   Midazolam (Versed) - [**2189-2-26**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: NPO, Parenteral nutrition
   Genitourinary: Foley
   Flowsheet Data as of  [**2189-2-27**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (99
   HR: 115 (94 - 140) bpm
   BP: 150/62(88) {97/39(56) - 150/68(92)} mmHg
   RR: 21 (21 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
    CVP: 6 (6 - 14)mmHg
   Total In:
                                                                  6,450 mL
                                                                  4,193 mL
   PO:
   TF:
   IVF:
                                                                  4,857 mL
                                                                  3,645 mL
   Blood products:
   Total out:
                                                                  7,073 mL
                                                                    449 mL
   Urine:
                                                                    557 mL
                                                                    249 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -623 mL
                                                                  3,744 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 28 cmH2O
   SpO2: 100%
   ABG: 7.45/30/168/19/-1
   Ve: 9.7 L/min
   PaO2 / FiO2: 420
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   143 K/uL
   9.3 g/dL
   219 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.2 mEq/L
   35 mg/dL
   112 mEq/L
   140 mEq/L
   27.4 %
   13.4 K/uL
        [image002.jpg]
                             [**2189-2-26**]  04:43 AM
                             [**2189-2-26**]  04:54 AM
                             [**2189-2-26**]  06:00 AM
                             [**2189-2-26**]  09:00 AM
                             [**2189-2-26**]  11:00 AM
                             [**2189-2-26**]  05:00 PM
                             [**2189-2-26**]  11:23 PM
                             [**2189-2-27**]  01:29 AM
                             [**2189-2-27**]  03:53 AM
                             [**2189-2-27**]  04:06 AM
   WBC
   11.5
   13.4
   Hct
   32.8
   27.6
   27.4
   Plt
   144
   143
   Cr
   0.4
   0.7
   0.8
   TropT
   0.05
   TCO2
   25
   21
   21
   Glucose
   173
   186
   196
   [**Telephone/Fax (3) 5054**]
   Other labs: PT / PTT / INR:22.4/52.1/2.1, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:60/101, Alk Phos / T Bili:154/14.0,
   Amylase / Lipase:[**10-30**], Differential-Neuts:76.5 %, Band:4.0 %,
   Lymph:18.0 %, Mono:4.5 %, Eos:0.6 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:445 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:5.2 mg/dL
   Microbiology: 3/5 Blood cultures
 NGTD
   CT head [**2-26**]:
   There is no intracranial hemorrhage, mass effect, shift of normally
   midline structures or edema. [**Doctor Last Name **]-white matter differentiation is
   preserved.
   The ventricles, basal cisterns, and sulci are normal in size and
   configuration.
   Opacification of the mastoid air cells bilaterlly, fluid level with
   aerosolized secretions within the left sphenoid sinus, and mild mucosal
   thickening of the right sphenoid sinus and aerosolized secretions are
   new in
   comparison to CT [**2189-2-12**]. Minimal mucosal thickening involvs the right
   maxillary sinus and multiple ethmoid air cells. Increased soft tissue
   density
   within the posterior nasopharynx is likely related to nasogastric tube.
   No fracture or lesions suspicious for malignancy is identified.
   IMPRESSION:
   1. No intracranial hemorrhage or edema.
   2. Fluid and aerosolized secretions within the sphenoid sinuses. New
   opacification of bilateral mastoid air cells.
   Please correlate clinically for signs and symptoms of sinusitis.
   NOTE ON ATTENDING REVIEW:
   While there is no overt edema, there is slightly decreased conspicuity
   of the
   cerebral sulci in the frontal and parietal lobes at the vertex compared
   to the
   prior OSH study which may be technical and related to pt. positioning
   versus
   early cerebrale dema. To corrleate clinically and closely followup
   based on
   the pt.'s condition.
   CT abdomen [**2-26**] (prelim report):
   Dense right lower lobe airspace consolidation. Smaller focus of left
   lower lobe consolidation/atelectasis. The focal ill-defined pulmonary
   opacities are incompletely evaluated. Moderate ascites, slightly
   increased in
   comparison to [**2189-2-12**]. Diffuse bowel wall thickening with
   relative
   sparing of the cecum consistent with colitis, and likely slightly
   improved in
   comparison to [**2189-2-12**]. Anasarca.
   Assessment and Plan
   42 y/o lady with CVID, HepC, Type 1 DM, p/w c. diff sepsis
   # Fevers, hypotension, tachycardia:  Interval development of T 101, low
   MAP
s, decreased UOP, and tachycardia 120-140
s, suspicious for
   nosocomial infection.  Consider pulmonary infection vs. line
   infection.  PICC, CVL, and HD line all discontinued yesterday with tips
   sent for culture.
   -          Continue Vancomycin & Meropenem as empiric broad-spectrum
   therapy
   -          IVF boluses for goal CVP 8-12
   -          Follow UOP
   -          f/u line cultures
   -          diagnostic bronch today
    # C diff sepsis:  now s/p Xigris and IgG x 2 doses.  Colitis appears
   improved on serial CT scans of the abdomen.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - Surgical consult following for ? colonic resection if patient fails
   to improve with medical management
   - appreciate ID recs
   - next dose IVIG as per ID recs
   # Respiratory failure:  Likely ARDS in the setting of severe
   infection.
   - goal to wean PEEP to 5, FiO2 40% as able
   - IP to perform bedside trach today, with diagnostic bronch given
   pulmonary infiltrates on CT
   - esophageal balloon to remain in place
   # Anemia:  s/p 1 unit PRBC
s on [**2-13**] and 1 unit on [**2-16**] units on
   [**2-19**] unit on [**2-20**] (total 5 units for LOS).   Now with bloody
   aspirate from NGT.
   -          active T&C
   -          IV PPI [**Hospital1 **]
   # ARF:  Possibly secondary to ATN given sepsis, now off CVVH.
   Decreased UOP in the setting of fevers & tachycardia.
   - continue to trend urine output
   - renally dose medications
   # DM Type I:
   - off TPN given infection work-up; resumed insulin gtt + dextrose gtt.
   Hypoglycemic this AM.
   - goal BG 80-120
   # Cirrhosis:  chronic HCV infection.
   - continue to trend transaminases
   - Liver consult team following
   # FEN:
   -          PPN for continuous dextrose; resume TPN if blood cx negative
   -          Initiate tube feeds at 10 mL/hour
   -          Goal I/O: as per CVP
   # PPx:  Pneumoboots as DVT prophylaxis.  VAP bundle.
   - PPI as GI ppx.
   # Access:  RIJ placed [**2-26**]
   - A-line resited on [**2-24**]
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2189-2-27**] 02:00 AM 62.5 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   20 Gauge - [**2189-2-26**] 06:28 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2189-02-27 09:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CVVH stopped. Fentanyl/Versed discontinued for daily wakeup, no
   purposeful movement. CT abd and head performed. Started developing a
   temp 101 rectal. MAP dropped to 50s. HR in 120s. Pancultured. New CVL
   placed and all lines pulled. Given one time bolus of versed and
   fentanyl with no effect on HR. Given vanco 1g IV X1 for possibility of
   line infection. Also given a dose of dapto and meropenem given new
   sepsis. TPN held for concern of infection, insulin gtt restarted. Hct
   dropped from 32 to 27. Started protonix [**Hospital1 **]. CVP is now 6. Given more
   IVF. Developed vent dysynchrony and fentanyl/versed restarted. Gotten
   4U FFP and DDAVP for trach today.
 BLOOD CULTURED - At [**2189-2-26**] 12:48 PM
 URINE CULTURE - At [**2189-2-26**] 12:49 PM
 BLOOD CULTURED - At [**2189-2-26**] 02:33 PM
 MULTI LUMEN - STOP [**2189-2-26**] 04:45 PM
 DIALYSIS CATHETER - STOP [**2189-2-26**] 05:49 PM
 MULTI LUMEN - START [**2189-2-26**] 10:30 PM
   right sc.
 PICC LINE - STOP [**2189-2-27**] 12:29 AM
   Basilic
 EKG - At [**2189-2-27**] 04:38 AM
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-26**] 05:15 PM
   Daptomycin - [**2189-2-26**] 11:00 PM
   Meropenem - [**2189-2-27**] 04:00 AM
   Metronidazole - [**2189-2-27**] 04:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2189-2-26**] 08:00 PM
   Midazolam (Versed) - [**2189-2-26**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-27**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (99
   HR: 115 (94 - 140) bpm
   BP: 150/62(88) {97/39(56) - 150/68(92)} mmHg
   RR: 21 (21 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
   CVP: 6 (6 - 14)mmHg
   Total In:
                                                                  6,450 mL
                                                                  4,302 mL
   PO:
   TF:
   IVF:
                                                                  4,857 mL
                                                                  3,748 mL
   Blood products:
   Total out:
                                                                  7,073 mL
                                                                    449 mL
   Urine:
                                                                    557 mL
                                                                    249 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -623 mL
                                                                  3,853 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 28 cmH2O
   SpO2: 100%
   ABG: 7.45/30/168/19/-1
   Ve: 9.7 L/min
   PaO2 / FiO2: 420
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   143 K/uL
   219 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.2 mEq/L
   35 mg/dL
   112 mEq/L
   140 mEq/L
   27.4 %
   13.4 K/uL
        [image002.jpg]
                             [**2189-2-26**]  04:43 AM
                             [**2189-2-26**]  04:54 AM
                             [**2189-2-26**]  06:00 AM
                             [**2189-2-26**]  09:00 AM
                             [**2189-2-26**]  11:00 AM
                             [**2189-2-26**]  05:00 PM
                             [**2189-2-26**]  11:23 PM
                             [**2189-2-27**]  01:29 AM
                             [**2189-2-27**]  03:53 AM
                             [**2189-2-27**]  04:06 AM
   WBC
   11.5
   13.4
   Hct
   32.8
   27.6
   27.4
   Plt
   144
   143
   Cr
   0.4
   0.7
   0.8
   TropT
   0.05
   TCO2
   25
   21
   21
   Glucose
   173
   186
   196
   [**Telephone/Fax (3) 5054**]
   Other labs: PT / PTT / INR:22.4/52.1/2.1, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:60/101, Alk Phos / T Bili:154/14.0,
   Amylase / Lipase:[**10-30**], Differential-Neuts:76.5 %, Band:4.0 %,
   Lymph:18.0 %, Mono:4.5 %, Eos:0.6 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:445 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1. Recurrent sepsis: Possible line infection vs. VAP vs. Persistent
   Colitis
   -CVP goal [**8-3**]
   -check pulse pressure variation with vigileo
   -vanco/meropenem/flagyl, po/pr vanco
   -f/u BCx, BAL after trach today in RLL
   -possible IVIG redose
   2. ARF: Off CVVH, Now oliguric from recurrent sepsis, renal dose meds
   -off CVVH
   3. DM1/DKA: Cont. insulin gtt, hold TPN
   -insulin gtt with D10 today
   4. ARDS: Improved, trach today
   -turn off sedation, try PS after trach
   -BAL RLL today
   5. DIC: Resolved, follow plts
   6. Anemia: Unclear if bleeding
   -CVP8-10
   -trend hct q8h today
   -[**Hospital1 **] PPI
   7. FEN: Start trophic TF p trach
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2189-2-27**] 02:00 AM 62.5 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   20 Gauge - [**2189-2-26**] 06:28 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Physical Exam:
   Gen: Sedated, no response to voice or sternal rub, intubated
   HEENT: +jaundice, PERRLbilat
   CV: RRR no m/r/g
   Pulm: Crackles and squeaks throughout
   Abd: soft, distended no BS
   Ext 3+ edema bilat, warm
   Skin: No rashes
   ------ Protected Section Addendum Entered By:[**Name (NI) 5058**] [**Last Name (NamePattern1) 1516**], MD
   on:[**2189-2-27**] 01:36 PM ------
   I have seen and examined the patient with the fellow.  I have reviewed
   and agree with the assessment and plan as above with the following
   emphasis and modifications:
   Patient with cirrhosis who developed severe septic shock presumably
   secondary to C. dificile colitis.  Patient was on 3 vasopressors at one
   point and developed renal failure requiring CVVH and also with severe
   ARDS.  Most recently has been off vasopressors and weaning from
   ventilator.
   Late afternoon yesterday, she developed fevers, tachycardia, decreased
   urine op, hypotension.  In response to this, all of her old lines were
   removed and a right IJ was placed.  She was placed on broad-spectrum
   antibiotics.
   On exam, Tmax 101  Tc 98.7,   Pulse 98   BP 150/70  RR 16   SaO2: 97%
   on CPAP
   General: intubated, sedated,
   Chest: Coarse breath sounds
   Heart: S1 S2 reg
   Abd; Soft, NT, slightly distended
   Ext: +1 edema bilaterally
   A:
   1)       Acute Respiratory Failure secondary ARDS
 improving but still
   nearing 14 days post-intubation
   2)       Septic Shock secondary to C. dif colitis
 improving
   3)       Fever (recurrent sepsis)
 likely secondary to line infection
   as improved after changed although may be pneumonia or other source as
   well
 cultures pending and on broad-spectrum antibiotics
   4)       Acute Renal Failure
 overnight had decrease in urine output
   during recurrent sepsis event but picked up after receiving IVFs
   5)       Coagulopathy
 DIC/liver failure - stable
   P:
   1
 Trach today
   2
 FFP in preparation of trach
   3
 Await culture results and maintain broad-spectrum antibiotics
   pending results
   4-  Continue therapy for c. diff colitis (vanc/flagyl, ivig)
   5-  Plan to discontinue CVVH today
   Time Spent: 30 minutes (patient is critically ill)
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2189-2-28**] 12:00 AM ------

2189-03-01 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Per ID, [**Last Name (un) **], iv vanc discontinued and dapto started for enterococcus
   on HD line
   - TPN restarted
   - thought she was negative at 9pm, but then discovered that d10 was
   still going but autod/c'd in [**Last Name (LF) 5079**], [**First Name3 (LF) **] she was actually positive -
   got 40mg IV lasix
   - another 40 IV lasix this AM
   - started PO narcan in hopes that it would improve her gut motility -
   she stooled
   - vent weaned to PEEP 5
   - IVIG awaiting IGG level per ID
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-27**] 08:21 PM
   Meropenem - [**2189-2-28**] 10:44 AM
   Daptomycin - [**2189-2-28**] 05:20 PM
   Metronidazole - [**2189-3-1**] 04:52 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 230 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2189-3-1**] 05:14 AM
   Furosemide (Lasix) - [**2189-3-1**] 07:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds, Parenteral nutrition
   Flowsheet Data as of  [**2189-3-1**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.8
C (96.5
   HR: 104 (82 - 110) bpm
   BP: 157/62(88) {104/39(57) - 159/67(91)} mmHg
   RR: 21 (0 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
    CVP: 14 (8 - 19)mmHg
   Total In:
                                                                  4,479 mL
                                                                  1,219 mL
   PO:
   TF:
                                                                    103 mL
   IVF:
                                                                  3,706 mL
                                                                    649 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  4,300 mL
                                                                  1,430 mL
   Urine:
                                                                  4,000 mL
                                                                  1,430 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    179 mL
                                                                   -211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 420 (420 - 420) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.48/34/103/23/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Overweight / Obese
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Distended
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   144 K/uL
   10.5 g/dL
   35 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.3 mEq/L
   36 mg/dL
   104 mEq/L
   141 mEq/L
   30.2 %
   13.6 K/uL
        [image002.jpg]
                             [**2189-2-27**]  10:53 PM
                             [**2189-2-28**]  05:02 AM
                             [**2189-2-28**]  05:21 AM
                             [**2189-2-28**]  10:23 AM
                             [**2189-2-28**]  12:19 PM
                             [**2189-2-28**]  02:57 PM
                             [**2189-2-28**]  03:20 PM
                             [**2189-2-28**]  04:12 PM
                             [**2189-3-1**]  03:56 AM
                             [**2189-3-1**]  04:22 AM
   WBC
   11.8
   13.6
   13.6
   Hct
   28.2
   35
   30
   29.6
   30.2
   Plt
   112
   130
   144
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   25
   23
   24
   24
   23
   26
   Glucose
   92
   54
   143
   125
   138
   35
   Other labs: PT / PTT / INR:24.1/42.6/2.4, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:58/113, Alk Phos / T Bili:145/18.1,
   Amylase / Lipase:[**10-30**], Differential-Neuts:76.5 %, Band:4.0 %,
   Lymph:18.0 %, Mono:4.5 %, Eos:0.6 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:8.5
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Microbiology: [**2189-2-26**] 5:52 pm CATHETER TIP-IV      Source: HD
   catheter.
      WOUND CULTURE (Preliminary):
         ENTEROCOCCUS SP..    >15 colonies.
   Assessment and Plan
   42 y/o with CVID, HepC, Type 1 DM, p/w c. diff sepsis
   # Fevers, hypotension, tachycardia:  Interval development of T 101, low
   MAP
s, decreased UOP, and tachycardia 120-140
s, suspicious for
   nosocomial infection.  Consider pulmonary infection vs. line
   infection.  PICC, CVL, and HD line all discontinued yesterday with tips
   sent for culture.  HD cath growing GPCs. S/P BAL.
   - per ID, continue Vancomycin, d/c Meropenem given less likely pulm.
   Follow clinically and broaden vanc to linezolid or dapto if necessary
   - vanc level in AM
   - IVF boluses for goal CVP 8-12
   - Follow UOP
   - f/u cultures
   - surveillance clutures
   # pulm edema: likely flash pulmonary edema after aggressive fluid
   resuscitation for hypotension and hypertension periprocedure for
   trach.  Improved CXR with diuresis.
   - cont diuresis, goal 1-2 L negative today
   # C diff sepsis:  now s/p Xigris and IgG x 2 doses.  Colitis appears
   improved on serial CT scans of the abdomen.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - Surgical consult following for ? colonic resection if patient fails
   to improve with medical management
   - appreciate ID recs
   - dose IVIG today as per ID recs
   # Decreased GI movement: tube feeds with significant residuals at low
   rate.  Little to no stool output.  Unclear whether this is secondary to
   ileus from prolonged illness vs bowel death.
   - surgery following
   - will try PO narcan today
   # Respiratory failure:  Likely ARDS in the setting of severe
   infection.  s/p trach on [**2-27**]
   - goal to wean PEEP to 5, FiO2 40% as able
   - d/c esoph balloon
   # Anemia:  s/p 1 unit PRBC
s on [**2-13**] and 1 unit on [**2-16**] units on
   [**2-19**] unit on [**2-20**] (total 5 units for LOS).
   - PM HCT
   - active T&C
   - IV PPI [**Hospital1 **]
   - tx for HCT < 25
   # hyperbilirubinemia: likely multifactorial from underlying liver
   disease, acute illness, possible contribution from hemolysis.  No
   biliary ductal dilatation by CT on [**2-26**].
   - fractionate bili
   - follow
   # ARF:  Possibly secondary to ATN given sepsis, now off CVVH.  UOP
   inproved.
   - continue to trend urine output
   - renally dose medications
   # DM Type I:
   - off TPN given infection work-up; resumed insulin gtt + dextrose gtt.
   Hypoglycemic this AM.
   - goal BG 80-120
   # Cirrhosis:  chronic HCV infection.
   - continue to trend transaminases
   - Liver consult team following
   # FEN:
   - d/c tube feeds if continued residuals
   - restart TPN
   # PPx:  Pneumoboots as DVT prophylaxis.  VAP bundle.
   - PPI as GI ppx.
   # Access:  RIJ placed [**2-26**]
   - A-line resited on [**2-24**]
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-2-28**] 07:17 PM 62.5 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   20 Gauge - [**2189-2-26**] 06:28 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2189-03-02 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2189-3-1**] 05:02 PM
   - IgG level 830
   - Sedation reduced by 20% to Fentanyl 150 and Versed 4
   - Vent settings turned down to PS 10/5/40%; patient became tachypneic
   to 40's
   - Started lasix gtt at 10 mg/hour during the day; discontinued with
   dwindling UOP, rising BUN
   - Insulin put back in TPN @ 20 units/24 hours
   - Insulin gtt and dextrose gtt discontinued
   - Started RISS q6 hours
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-2-27**] 08:21 PM
   Meropenem - [**2189-2-28**] 10:44 AM
   Daptomycin - [**2189-3-1**] 03:42 PM
   Metronidazole - [**2189-3-2**] 12:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-3-1**] 11:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-2**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 83 (83 - 112) bpm
   BP: 121/50(68) {103/44(61) - 144/65(89)} mmHg
   RR: 6 (0 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
    CVP: 14 (11 - 17)mmHg
   Total In:
                                                                  3,047 mL
                                                                    812 mL
   PO:
   TF:
   IVF:
                                                                  1,422 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                    255 mL
   Urine:
                                                                  3,400 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -353 mL
                                                                    557 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 592 (370 - 592) mL
   PS : 18 cmH2O
   RR (Set): 20
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 23 cmH2O
   SpO2: 97%
   ABG: 7.41/43/98.[**Numeric Identifier 20**]/27/1
   Ve: 5.4 L/min
   PaO2 / FiO2: 245
   Physical Examination
   GEN: Intubated
   HEENT: PERRL
   Heart: s1s2 RRR
   Chest:
   Abdomen:
   EXT: + edema
   Skin:  Warm, dry
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   128 K/uL
   9.6 g/dL
   193 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.6 mEq/L
   44 mg/dL
   105 mEq/L
   139 mEq/L
   28.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2189-2-28**]  04:12 PM
                             [**2189-3-1**]  03:56 AM
                             [**2189-3-1**]  04:22 AM
                             [**2189-3-1**]  09:07 AM
                             [**2189-3-1**]  12:19 PM
                             [**2189-3-1**]  02:24 PM
                             [**2189-3-1**]  04:14 PM
                             [**2189-3-1**]  10:00 PM
                             [**2189-3-1**]  10:17 PM
                             [**2189-3-2**]  04:09 AM
   WBC
   13.6
   11.8
   Hct
   30.2
   28.7
   Plt
   144
   128
   Cr
   0.8
   0.9
   0.8
   TCO2
   23
   26
   22
   24
   24
   25
   28
   Glucose
   35
   132
   173
   128
   102
   141
   193
   Other labs: PT / PTT / INR:24.2/44.6/2.4, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:60/123, Alk Phos / T Bili:149/19.7,
   Amylase / Lipase:[**10-30**], Differential-Neuts:76.5 %, Band:4.0 %,
   Lymph:18.0 %, Mono:4.5 %, Eos:0.6 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:8.5
   mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   42 y/o with CVID, HepC, Type 1 DM, p/w c. diff sepsis
   # Line infection:  s/p HD catheter removal on [**2-26**] with catheter tip
   growing ENTEROCOCCUS.  Blood cx NGTD. No growth from PICC.
   -          Daptomycin day #3 of 14 for ENTEROCOCCUS
   -          f/u blood cultures, NGTD so far
   -          surveillance cultures
   # C diff sepsis:  now s/p Xigris and IVIG.  Colitis appears improved on
   serial CT scans of the abdomen.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - appreciate ID recs
   - dose IVIG weekly as per ID recs
   - PO narcan for bowel motility
   - Surgery following
   # Respiratory failure:  Likely ARDS in the setting of severe
   infection.  s/p trach on [**2-27**], now on pressure support.
   - RSBI 78 this AM
   - lasix gtt for diuresis given pulmonary edema following fluid
   resuscitation yesterday, goal EVEN today
   - wean PS  today, check ABG if becomes tachypneic
   # Anemia:  s/p 7 units PRBC
s for LOS.  Patient has had evidence of
   hemolysis (Coomb
s negative) as well as bloody secretions suctioned
   from NGT. DIC resolved.
   - check hct [**Hospital1 **]
   - active T&C
   - IV PPI [**Hospital1 **]
   - tx for HCT < 25, has been stable
   - FFP for active bleeding
   # Hyperbilirubinemia: likely multifactorial from underlying liver
   disease, acute illness, as well as contribution from hemolysis.  No
   biliary ductal dilatation by CT on [**2-26**].
   - continue to trend bilirubin, remains high but stable
   # DM Type I: Developed DKA while here.
   - continue insulin gtt + D10 infusion with goal BG 80-120
   - consider transitioning to long-acting insulin
   # Cirrhosis:  chronic HCV infection.
   - continue to trend transaminases
   - Liver consult team following
   # FEN:
   - failed attempt at trophic feeds on [**2-28**], re-challenge today as pt has
   notable bowel sounds this AM
   - continue TPN with insulin
   # PPx:
   - Pneumoboots as DVT prophylaxis.
   - VAP bundle.
   - PPI as GI ppx.
   # Access:
   - RIJ placed [**2-26**]
   - A-line resited on [**2-24**]
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo: ICU
    ICU Care
   Nutrition: TF today
   TPN w/ Lipids - [**2189-2-28**] 07:17 PM 62.5 mL/hour
   Glycemic Control:  Insulin gtt
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   20 Gauge - [**2189-2-26**] 06:28 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-2**] 03:17 AM 62.5 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2189-03-02 10:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Day of 3 of daptomycin for enterococcus on line tip cx. PS increased
   for tachypnea. Lasix gtt d/c'd due to rising BUN. Insulin put in TPN,
   so insulin gtt stopped.
 BLOOD CULTURED - At [**2189-3-1**] 05:02 PM
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2189-2-28**] 10:44 AM
   Daptomycin - [**2189-3-1**] 03:42 PM
   Vancomycin - [**2189-3-2**] 08:00 AM
   Metronidazole - [**2189-3-2**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-3-1**] 11:17 AM
   Pantoprazole (Protonix) - [**2189-3-2**] 08:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-2**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 97 (82 - 112) bpm
   BP: 143/60(85) {103/44(61) - 144/65(89)} mmHg
   RR: 15 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
   CVP: 13 (11 - 17)mmHg
   Total In:
                                                                  3,047 mL
                                                                  1,069 mL
   PO:
   TF:
   IVF:
                                                                  1,422 mL
                                                                    457 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                    375 mL
   Urine:
                                                                  3,400 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -353 mL
                                                                    694 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 644 (370 - 644) mL
   PS : 18 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: 7.41/43/98.[**Numeric Identifier 20**]/27/1
   Ve: 6.2 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   128 K/uL
   193 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.6 mEq/L
   44 mg/dL
   105 mEq/L
   139 mEq/L
   28.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2189-2-28**]  04:12 PM
                             [**2189-3-1**]  03:56 AM
                             [**2189-3-1**]  04:22 AM
                             [**2189-3-1**]  09:07 AM
                             [**2189-3-1**]  12:19 PM
                             [**2189-3-1**]  02:24 PM
                             [**2189-3-1**]  04:14 PM
                             [**2189-3-1**]  10:00 PM
                             [**2189-3-1**]  10:17 PM
                             [**2189-3-2**]  04:09 AM
   WBC
   13.6
   11.8
   Hct
   30.2
   28.7
   Plt
   144
   128
   Cr
   0.8
   0.9
   0.8
   TCO2
   23
   26
   22
   24
   24
   25
   28
   Glucose
   35
   132
   173
   128
   102
   141
   193
   Other labs: PT / PTT / INR:24.2/44.6/2.4, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:60/123, Alk Phos / T Bili:149/19.7,
   Amylase / Lipase:[**10-30**], Differential-Neuts:76.5 %, Band:4.0 %,
   Lymph:18.0 %, Mono:4.5 %, Eos:0.6 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:8.5
   mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Plan:
   1. Sepsis:
   -Cont. daptomycin, po/pr vanco, IV flagyl
   -weekly IVIG qSat
   -[**Doctor First Name 91**] recs
   -PNG narcan
   -I/O even
   2. Resp failure: ARDS
   -tachypneic yesterday on [**9-28**]
   -try [**9-28**] today, if tachypneic check ABG
   -[**Month (only) 453**] sedation 20%
   3. ID: Unclear if true line infection, enterococcus
   -daptomycin for 14 days
   -possible d/c vanco enemas if absorbing
   4. Anemia: Unclear etiology
   -transfuse for hct <25
   -give FFP if acute bleed
   5. Hyperbilirubinemia: Likely partially hemolysis, and hepatic
   dysfunction
   6. DM1/DKA: Cont. insulin in TPN
   -increase SSI
   7. FEN: TPN, start trophic TF
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-2**] 03:17 AM 62.5 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow.  I have reviewed
   and agree with the assessment and plan as above with the following
   emphasis and modifications:
   Patient with cirrhosis who developed severe septic shock presumably
   secondary to C. dificile colitis.  Patient was on 3 vasopressors at one
   point and developed renal failure requiring CVVH and also with severe
   ARDS.  Most recently has been off vasopressors and weaning from
   ventilator.
   Late afternoon yesterday, she developed fevers, tachycardia, decreased
   urine op, hypotension.  In response to this, all of her old lines were
   removed and a right IJ was placed.  She was placed on broad-spectrum
   antibiotics.
   On exam, T 37.1,   Pulse 98   BP 143/60   RR 16   SaO2: 97%  on CPAP
   General: intubated, sedated,
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd; Soft, NT, slightly distended
   Ext: +1 edema bilaterally
   A:
   1)       Acute Respiratory Failure secondary ARDS/pneumonia now s/p
   trach - improving
   2)       Septic Shock secondary to C. dif colitis
 improving
   3)       Acute Renal Failure
 improved -
   4)       Coagulopathy
 DIC/liver failure - stable
   P:
   1
 Continue PS wean
   2
 Diuresis - lasix
   3-  Continue therapy for c. diff colitis (vanc/flagyl, ivig)
   Time Spent: 30 minutes (patient is critically ill)
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-2**] 07:04 PM ------

2189-03-03 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TF restarted (trophic feeds) at 10ml/h with high residuals, so
   stopped again
   - weaned pressure support from 18 to 15 now to 12
   - weaned sedation
   - HCT stable 28.7 > 30.3
   - will continue PR vanco until bowel function better
   - lasix x1
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2189-2-28**] 10:44 AM
   Vancomycin - [**2189-3-2**] 02:35 PM
   Daptomycin - [**2189-3-2**] 04:45 PM
   Metronidazole - [**2189-3-3**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-3-2**] 08:52 AM
   Furosemide (Lasix) - [**2189-3-2**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-3**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 91 (84 - 99) bpm
   BP: 131/54(76) {94/40(57) - 164/70(99)} mmHg
   RR: 12 (4 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
    CVP: 11 (10 - 13)mmHg
   Total In:
                                                                  2,413 mL
                                                                    676 mL
   PO:
   TF:
                                                                     65 mL
   IVF:
                                                                    848 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    610 mL
   Urine:
                                                                  1,660 mL
                                                                    580 mL
   NG:
                                                                     40 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    713 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 283 (276 - 644) mL
   PS : 12 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 168
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.45/40/101/28/3
   Ve: 6.2 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Intubated
   Eyes / Conjunctiva: Scleral icterus
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   165 K/uL
   10.1 g/dL
   221 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.9 mEq/L
   49 mg/dL
   109 mEq/L
   144 mEq/L
   28.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2189-3-1**]  12:19 PM
                             [**2189-3-1**]  02:24 PM
                             [**2189-3-1**]  04:14 PM
                             [**2189-3-1**]  10:00 PM
                             [**2189-3-1**]  10:17 PM
                             [**2189-3-2**]  04:09 AM
                             [**2189-3-2**]  11:33 AM
                             [**2189-3-2**]  05:51 PM
                             [**2189-3-3**]  03:28 AM
                             [**2189-3-3**]  03:50 AM
   WBC
   11.8
   11.9
   Hct
   28.7
   30.3
   28.9
   Plt
   128
   165
   Cr
   0.9
   0.8
   0.9
   TCO2
   24
   24
   25
   28
   28
   29
   Glucose
   173
   128
   102
   141
   193
   221
   Other labs: PT / PTT / INR:23.6/42.6/2.3, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:61/120, Alk Phos / T Bili:156/18.7,
   Amylase / Lipase:[**10-30**], Differential-Neuts:76.5 %, Band:4.0 %,
   Lymph:18.0 %, Mono:4.5 %, Eos:0.6 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:8.6
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   42 y/o with Common VID, HepC, Type 1 DM, p/w c. diff sepsis
   # Line infection:  s/p HD catheter removal on [**2-26**] with catheter tip
   growing ENTEROCOCCUS.  Blood cx NGTD. No growth from PICC.
   -          Daptomycin day #3 of 14 for ENTEROCOCCUS
   -          f/u blood cultures, NGTD so far
   -          surveillance cultures
   # C diff sepsis:  now s/p Xigris and IVIG.  Colitis appears improved on
   serial CT scans of the abdomen.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - appreciate ID recs
   - dose IVIG weekly as per ID recs
   - PO narcan for bowel motility
   - Surgery following
   # Respiratory failure:  Likely ARDS in the setting of severe
   infection.  s/p trach on [**2-27**], now on pressure support.
   - RSBI 78 this AM
   - lasix gtt for diuresis given pulmonary edema following fluid
   resuscitation yesterday, goal EVEN today
   - wean PS  today, check ABG if becomes tachypneic
   # Anemia:  s/p 7 units PRBC
s for LOS.  Patient has had evidence of
   hemolysis (Coomb
s negative) as well as bloody secretions suctioned
   from NGT. DIC resolved.
   - check hct [**Hospital1 **]
   - active T&C
   - IV PPI [**Hospital1 **]
   - tx for HCT < 25, has been stable
   - FFP for active bleeding
   # Hyperbilirubinemia: likely multifactorial from underlying liver
   disease, acute illness, as well as contribution from hemolysis.  No
   biliary ductal dilatation by CT on [**2-26**].
   - continue to trend bilirubin, remains high but stable
   # DM Type I: Developed DKA while here.
   - continue insulin gtt + D10 infusion with goal BG 80-120
   - consider transitioning to long-acting insulin
   # Cirrhosis:  chronic HCV infection.
   - continue to trend transaminases
   - Liver consult team following
   # FEN:
   - failed attempt at trophic feeds on [**2-28**], re-challenge today as pt has
   notable bowel sounds this AM
   - continue TPN with insulin
   # PPx:
   - Pneumoboots as DVT prophylaxis.
   - VAP bundle.
   - PPI as GI ppx.
   # Access:
   - RIJ placed [**2-26**]
   - A-line resited on [**2-24**]
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo: ICU
    ICU Care
   Nutrition: TF today
   TPN w/ Lipids - [**2189-2-28**] 07:17 PM 62.5 mL/hour
   Glycemic Control:  Insulin gtt
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   20 Gauge - [**2189-2-26**] 06:28 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-2**] 03:17 AM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-03-03 10:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned to PS of 12. Given some lasix overnight. Trophic TF stopped for
   high residuals.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2189-2-28**] 10:44 AM
   Daptomycin - [**2189-3-2**] 04:45 PM
   Metronidazole - [**2189-3-3**] 08:31 AM
   Vancomycin - [**2189-3-3**] 08:32 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-3-2**] 06:00 PM
   Pantoprazole (Protonix) - [**2189-3-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-3**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 86 (84 - 99) bpm
   BP: 140/55(79) {94/40(57) - 164/70(99)} mmHg
   RR: 7 (4 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
   CVP: 8 (8 - 13)mmHg
   Total In:
                                                                  2,413 mL
                                                                    978 mL
   PO:
   TF:
                                                                     65 mL
   IVF:
                                                                    848 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    900 mL
   Urine:
                                                                  1,660 mL
                                                                    870 mL
   NG:
                                                                     40 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    713 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 369 (276 - 369) mL
   PS : 12 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 168
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.45/40/101/28/3
   Ve: 9.2 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Gen: awake following simple commands
   HEENT: mmm, trach
   CV: RRR no m/r/g
   Pulm: Few crackles
   Abd: Soft, slight tenderness, few BS
   Ext: 3+ edema bilat
   Labs / Radiology
   10.1 g/dL
   165 K/uL
   221 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.9 mEq/L
   49 mg/dL
   109 mEq/L
   144 mEq/L
   28.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2189-3-1**]  12:19 PM
                             [**2189-3-1**]  02:24 PM
                             [**2189-3-1**]  04:14 PM
                             [**2189-3-1**]  10:00 PM
                             [**2189-3-1**]  10:17 PM
                             [**2189-3-2**]  04:09 AM
                             [**2189-3-2**]  11:33 AM
                             [**2189-3-2**]  05:51 PM
                             [**2189-3-3**]  03:28 AM
                             [**2189-3-3**]  03:50 AM
   WBC
   11.8
   11.9
   Hct
   28.7
   30.3
   28.9
   Plt
   128
   165
   Cr
   0.9
   0.8
   0.9
   TCO2
   24
   24
   25
   28
   28
   29
   Glucose
   173
   128
   102
   141
   193
   221
   Other labs: PT / PTT / INR:23.6/42.6/2.3, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:61/120, Alk Phos / T Bili:156/18.7,
   Amylase / Lipase:[**10-30**], Differential-Neuts:76.5 %, Band:4.0 %,
   Lymph:18.0 %, Mono:4.5 %, Eos:0.6 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:8.6
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Plan:
   1. C. Diff Sepsis:
   -po/pr vanco
   -IV flagyl
   -IVIG qweek
   -try trophic TF
   -start reglan
   2. ID: Unclear if true line infection, but improved line removal, VRE
   on HD line tip
   -daptomycin
   -CXR looks improved
   3. ARDS: Improving
   -now on [**11-28**], RISB 250
   -keep 500 neg today
   -change to prn versed
   4. DIC: Check CBC daily, now resolved
   5. Weakness:
   -start ROM activities
   6. DM1/DKA
   -increase insulin in TPN, make SSI more aggressive
   7. Liver dysfunction: Unchanged coagulopathy
   -f/u liver recs
   8: FEN: TPN and trophic TF
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-2**] 03:17 AM 62.5 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: Keep HOB elevated
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow.  I have reviewed
   and agree with the assessment and plan as above with the following
   emphasis and modifications:
   Patient with cirrhosis who developed severe septic shock presumably
   secondary to C. dificile colitis.  Patient was on 3 vasopressors at one
   point and developed renal failure requiring CVVH and also with severe
   ARDS.  Most recently has been off vasopressors and weaning from
   ventilator.
   On exam, T 37.1,   Pulse 86   BP 140/50   RR 16   SaO2: 99%  on CPAP
   General: intubated, sedated,
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd; Soft, NT, slightly distended
   Ext: trace edema bilaterally
   A:
   1)       Acute Respiratory Failure secondary ARDS/pneumonia now s/p
   trach - improving
   2)       Septic Shock secondary to C. dif colitis
 improving
   3)       Acute Renal Failure
 improved -
   4)       Coagulopathy
 DIC/liver failure - stable
   P:
   1- Continue PS wean
   2- Diuresis - lasix
   3- Continue therapy for c. diff colitis (vanc/flagyl, ivig)
   4- Continue Daptomycin to complete 7 day course
   Time Spent: 30 minutes (patient is critically ill)
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-3**] 06:52 PM ------

2189-03-04 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Given IV Reglan x 1
   - Tolerated tubefeeding as 10mL/hr, no advance with only 30-40cc
   residuals.
   - Negative C.diff A/B x 1; no other new positive culture data
   - Increased insulin in TPN
   - Transitioned to bolus sedation for Versed
   - CM was contact[**Name (NI) **] about potential d/c to respiratory rehab; patient
   may need to be off all sedation prior to discharge
   - Goal -500cc fluid, ran even for the day
   - PICC line order placed
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2189-3-3**] 04:28 PM
   Metronidazole - [**2189-3-4**] 12:00 AM
   Vancomycin - [**2189-3-4**] 02:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-3-3**] 08:00 AM
   Furosemide (Lasix) - [**2189-3-3**] 12:52 PM
   Midazolam (Versed) - [**2189-3-4**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-4**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 92 (81 - 98) bpm
   BP: 129/56(78) {90/47(68) - 150/86(91)} mmHg
   RR: 11 (0 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
    CVP: 12 (7 - 13)mmHg
   Total In:
                                                                  2,285 mL
                                                                    760 mL
   PO:
   TF:
                                                                    100 mL
                                                                     74 mL
   IVF:
                                                                    670 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                    470 mL
   Urine:
                                                                  2,130 mL
                                                                    470 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                    115 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 421 (311 - 439) mL
   PS : 12 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.44/40/116/26/3
   Ve: 8 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: jaundiced
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   172 K/uL
   10.4 g/dL
   142 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   45 mg/dL
   112 mEq/L
   147 mEq/L
   30.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2189-3-1**]  10:00 PM
                             [**2189-3-1**]  10:17 PM
                             [**2189-3-2**]  04:09 AM
                             [**2189-3-2**]  11:33 AM
                             [**2189-3-2**]  05:51 PM
                             [**2189-3-3**]  03:28 AM
                             [**2189-3-3**]  03:50 AM
                             [**2189-3-3**]  10:42 AM
                             [**2189-3-3**]  04:18 PM
                             [**2189-3-4**]  03:00 AM
   WBC
   11.8
   11.9
   12.0
   Hct
   28.7
   30.3
   28.9
   30.8
   Plt
   128
   165
   172
   Cr
   0.9
   0.8
   0.9
   0.8
   0.7
   TCO2
   28
   28
   29
   28
   Glucose
   141
   193
   221
   135
   142
   Other labs: PT / PTT / INR:25.1/44.3/2.5, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:66/137, Alk Phos / T Bili:160/19.1,
   Amylase / Lipase:[**10-30**], Differential-Neuts:76.5 %, Band:4.0 %,
   Lymph:18.0 %, Mono:4.5 %, Eos:0.6 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   42 y/o with Common VID, HepC, Type 1 DM, p/w c. diff sepsis
   # Line infection:  s/p HD catheter removal on [**2-26**] with catheter tip
   growing ENTEROCOCCUS.  Blood cx NGTD. No growth from PICC.
   -          Daptomycin day #5 of 7 for ENTEROCOCCUS on line (none in
   blood, plan for 7 d course)
   -          f/u blood cultures, NGTD so far
   -          surveillance cultures
   # C diff sepsis:  now s/p Xigris and IVIG.  Colitis appears improved on
   serial CT scans of the abdomen.
   - Continue Vancomycin retention enemas, PO Vancomycin via NGT, IV
   flagyl for c. diff
   - appreciate ID recs
   - dose IVIG weekly as per ID recs
   - PO narcan for bowel motility
   - Surgery following
   # Respiratory failure:  Likely ARDS in the setting of severe
   infection.  s/p trach on [**2-27**], now on pressure support.
   - goal even to -500, give prn lasix
   - wean PS  today, check ABG if becomes tachypneic
   - bolus versed, continue fentanyl gtt
   # Anemia:  s/p 7 units PRBC
s for LOS.  Patient has had evidence of
   hemolysis (Coomb
s negative) as well as bloody secretions suctioned
   from NGT. DIC resolved.
   - check hct [**Hospital1 **]
   - active T&C
   - IV PPI [**Hospital1 **]
   - tx for HCT < 25, has been stable
   - FFP for active bleeding
   # Hyperbilirubinemia: likely multifactorial from underlying liver
   disease, acute illness, as well as contribution from hemolysis.  No
   biliary ductal dilatation by CT on [**2-26**].
   - continue to trend bilirubin, remains high but stable
   # DM Type I: Developed DKA while here.
   - continue insulin in TPN, titrate
   - tighten up sliding scale
   # Cirrhosis:  chronic HCV infection.
   - continue to trend transaminases
   - Liver consult team following
   # FEN:
   - tolerating tropic TF, continue to check residuals & advance as
   tolerated
   - continue TPN with insulin
   # PPx:
   - Pneumoboots as DVT prophylaxis.
   - VAP bundle.
   - PPI as GI ppx.
   - PT/OT consult for range of motion activities
   # Access:
   - RIJ placed [**2-26**]
   - A-line re-sited on [**2-24**]
   #  Case Management
 start to screen for vent rehab
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo: ICU
    ICU Care
   Nutrition: TF today
   TPN w/ Lipids - [**2189-2-28**] 07:17 PM 62.5 mL/hour
   Glycemic Control:  Insulin gtt
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   20 Gauge - [**2189-2-26**] 06:28 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-3**] 10:22 AM 62.5 mL/hour
   Vivonex (Full) - [**2189-3-3**] 02:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-03-04 11:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   She tolerated trophic TF yesterday. CM starting rehab screen. Placing a
   PICC.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2189-3-3**] 04:28 PM
   Metronidazole - [**2189-3-4**] 08:21 AM
   Vancomycin - [**2189-3-4**] 09:21 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-3-3**] 12:52 PM
   Midazolam (Versed) - [**2189-3-4**] 10:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-4**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 87 (81 - 98) bpm
   BP: 136/52(78) {90/47(68) - 150/86(91)} mmHg
   RR: 43 (0 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
   CVP: 12 (7 - 13)mmHg
   Total In:
                                                                  2,285 mL
                                                                  1,199 mL
   PO:
   TF:
                                                                    100 mL
                                                                    109 mL
   IVF:
                                                                    670 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                    680 mL
   Urine:
                                                                  2,130 mL
                                                                    680 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                    115 mL
                                                                    519 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (311 - 439) mL
   PS : 12 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, severe weakness, unable to squeeze
   hand or lift head
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   172 K/uL
   142 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   45 mg/dL
   112 mEq/L
   147 mEq/L
   30.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2189-3-1**]  10:00 PM
                             [**2189-3-1**]  10:17 PM
                             [**2189-3-2**]  04:09 AM
                             [**2189-3-2**]  11:33 AM
                             [**2189-3-2**]  05:51 PM
                             [**2189-3-3**]  03:28 AM
                             [**2189-3-3**]  03:50 AM
                             [**2189-3-3**]  10:42 AM
                             [**2189-3-3**]  04:18 PM
                             [**2189-3-4**]  03:00 AM
   WBC
   11.8
   11.9
   12.0
   Hct
   28.7
   30.3
   28.9
   30.8
   Plt
   128
   165
   172
   Cr
   0.9
   0.8
   0.9
   0.8
   0.7
   TCO2
   28
   28
   29
   28
   Glucose
   141
   193
   221
   135
   142
   Other labs: PT / PTT / INR:25.1/44.3/2.5, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:66/137, Alk Phos / T Bili:160/19.1,
   Amylase / Lipase:[**10-30**], Differential-Neuts:76.5 %, Band:4.0 %,
   Lymph:18.0 %, Mono:4.5 %, Eos:0.6 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1. Resp: ARDS:
   -Wean to [**9-28**]
   -keep I/O neg
   2. Enterococcus on HD line:
   -dapto for 7 days
   3. C. Diff sepsis:
   -stop PR vanco, cont. po vanco/IV flagyl
   -now having BS
   -try 10/h TF
   -cont. TPN
   4. Anemia: stable
   -goal hct >21%
   5. Liver dysfunction: Coags stable, no bleeding
   -f/u w liver
   6. DM1/DKA
   -increased insulin in TPN yesterday with better control
   -cont. SSI
   7. FEN: Increase trophic TF, cont. TPN
   -IR guided PICC
   8. Weakness: Cont. ROM exercises
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-3**] 10:22 AM 62.5 mL/hour
   Vivonex (Full) - [**2189-3-3**] 02:00 PM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow.  I have reviewed
   and agree with the assessment and plan as above with the following
   emphasis and modifications:
   Patient with cirrhosis who developed severe septic shock presumably
   secondary to C. dificile colitis.  Patient was on 3 vasopressors at one
   point and developed renal failure requiring CVVH and also with severe
   ARDS.  Most recently has been off vasopressors and weaning from
   ventilator.
   Overnight, continues to have high residuals and not tolerating even
   trophic feedings
   On exam, T 37.1,   Pulse 86   BP 136/70   RR 16   SaO2: 99%  on CPAP
   General: intubated, follows simple commands
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd; Soft, diffuse abdominal tenderness
   Ext: trace edema bilaterally
   A:
   1)       Acute Respiratory Failure secondary ARDS/pneumonia now s/p
   trach
 improving
   2)       Abdominal tenderness/not tolerating TFs
   3)       Septic Shock secondary to C. dif colitis
 improving
   4)       Acute Renal Failure
 improved -
   5)       Coagulopathy
 DIC/liver failure - stable
   P:
   1- Discuss with surgery as I am concerned for persistent inability to
   use bowel and whether patient may have underlying ischemia
   2- Diuresis - lasix
   3- Wean PS as tolerated
   4- Continue therapy for c. diff colitis (vanc/flagyl, ivig)
   5- Continue Daptomycin to complete 7 day course
   Time Spent: 30 minutes (patient is critically ill)
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-4**] 10:18 PM ------

2189-03-05 12:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Had CT abd last night, read pending. Developed profound both metabolic
   and resp alkalosis. Diuresed 1.7L last night.
 PICC LINE - START [**2189-3-4**] 03:00 PM
 MULTI LUMEN - START [**2189-3-4**] 05:00 PM
   right sc.
 MULTI LUMEN - STOP [**2189-3-4**] 05:06 PM
   right sc.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2189-3-4**] 05:03 PM
   Metronidazole - [**2189-3-5**] 09:27 AM
   Vancomycin - [**2189-3-5**] 09:28 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2189-3-4**] 02:03 PM
   Furosemide (Lasix) - [**2189-3-5**] 01:20 AM
   Pantoprazole (Protonix) - [**2189-3-5**] 09:00 AM
   Hydromorphone (Dilaudid) - [**2189-3-5**] 09:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-5**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 97 (83 - 98) bpm
   BP: 138/65(89) {99/51(71) - 144/66(92)} mmHg
   RR: 21 (12 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
             Total In:
                                                                  2,807 mL
                                                                  1,670 mL
   PO:
             TF:
                                                                    247 mL
   IVF:
                                                                    650 mL
                                                                    825 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                  3,260 mL
   Urine:
                                                                  2,650 mL
                                                                  3,260 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                     97 mL
                                                                 -1,590 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 342 (157 - 342) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 160
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.55/33/107/27/7
   Ve: 5.3 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bases)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: diffusely
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   190 K/uL
   123 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.7 mEq/L
   45 mg/dL
   111 mEq/L
   149 mEq/L
   29.5 %
   11.1 K/uL
        [image002.jpg]
                             [**2189-3-3**]  10:42 AM
                             [**2189-3-3**]  04:18 PM
                             [**2189-3-4**]  03:00 AM
                             [**2189-3-4**]  11:56 AM
                             [**2189-3-5**]  04:15 AM
                             [**2189-3-5**]  04:20 AM
                             [**2189-3-5**]  04:48 AM
                             [**2189-3-5**]  05:42 AM
                             [**2189-3-5**]  08:43 AM
                             [**2189-3-5**]  10:10 AM
   WBC
   12.0
   11.1
   Hct
   30.8
   29.5
   Plt
   172
   190
   Cr
   0.8
   0.7
   0.7
   TCO2
   28
   32
   32
   30
   33
   31
   30
   Glucose
   135
   142
   123
   Other labs: PT / PTT / INR:24.4/48.3/2.4, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:74/152, Alk Phos / T Bili:159/19.4,
   Amylase / Lipase:[**10-30**], Differential-Neuts:76.5 %, Band:4.0 %,
   Lymph:18.0 %, Mono:4.5 %, Eos:0.6 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:8.4
   mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1. Alkalemia: Both respiratory and metabolic
   -I/O goal even
   -cont. TC trial
   2. Line: Finishing 1 week of daptomycin
   3. Sepsis/C. Diff:
   -Still with some abd pain
   -CT abd looks OK, f/u final read
   -restart TF today
   4. DM1/DKA:
   -cont. TPN with insulin
   -BS well controlled
   5. FEN: TPN and TF
   6. Pull RIJ
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-5**] 08:45 AM 62.5 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-4**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow.  I have reviewed
   and agree with the assessment and plan as above with the following
   emphasis and modifications:
   Patient with cirrhosis who developed severe septic shock presumably
   secondary to C. dificile colitis.  Patient was on 3 vasopressors at one
   point and developed renal failure requiring CVVH and also with severe
   ARDS.  Most recently has been off vasopressors and weaning from
   ventilator
   Overnight, developed high pH
 7.7 on PS with high volumes and also
   being diuresed
   On exam, T 37.1,   Pulse 86   BP 136/70   RR 16   SaO2: 99%  on PS/CPAP
   General: trach in place, follows simple commands
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd; Soft, diffuse abdominal tenderness
   Ext: trace edema bilaterally
   CT: colitis - improving
   A:
   1)       Acute Respiratory Failure secondary ARDS/pneumonia now s/p
   trach
 improving
   2)       Colitis - improving
   3)       Septic Shock secondary to C. dif colitis
 improving
   4)       Acute Renal Failure
 improved -
   5)       Coagulopathy
 DIC/liver failure
 stable
   6)       Alkalemia
 likely combination of improved lung compliance and
   high volumes on PS and contraction alkalosis as well
   P:
   1- Change to trach shield
   2- Diuresis - lasix
   3- Continue therapy for c. diff colitis (vanc/flagyl, ivig)
   4-  complete Daptomycin  7 day course
   Time Spent: 30 minutes (patient is critically ill)
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-6**] 12:47 AM ------

2189-03-06 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2189-3-5**] 02:03 PM
   right sc.
 INVASIVE VENTILATION - STOP [**2189-3-5**] 10:00 PM
   - metabolic alkalosis improved with coming off vent and giving back
   500cc NS
   - stopped fentanyl drip today, severe pain, got 4mg IV dilaudid, 50mcg
   IV fentanyl
   and 2mg versed and was finally relieved.  Pt states that pain in
   abdomen and back
   - tolerating tube feeds, advanced to 30cc/h
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2189-3-5**] 04:00 PM
   Metronidazole - [**2189-3-6**] 12:00 AM
   Vancomycin - [**2189-3-6**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-3-5**] 09:00 AM
   Fentanyl - [**2189-3-5**] 11:15 PM
   Hydromorphone (Dilaudid) - [**2189-3-6**] 02:00 AM
   Midazolam (Versed) - [**2189-3-6**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-6**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (98.9
   HR: 83 (83 - 102) bpm
   BP: 144/59(86) {108/50(1) - 150/74(99)} mmHg
   RR: 29 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
             Total In:
                                                                  2,953 mL
                                                                    993 mL
   PO:
             TF:
                                                                    226 mL
                                                                    241 mL
   IVF:
                                                                  1,034 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                    430 mL
   Urine:
                                                                  4,100 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,147 mL
                                                                    563 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 99%
   ABG: 7.42/46/122/28/5
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: No(t) Sclera edema, Icteric
   Head, Ears, Nose, Throat: Poor dentition, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, mild diffuse tender
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Decreased
   Labs / Radiology
   231 K/uL
   10.9 g/dL
   173 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.1 mEq/L
   44 mg/dL
   112 mEq/L
   148 mEq/L
   33.0 %
   13.6 K/uL
        [image002.jpg]
                             [**2189-3-5**]  04:15 AM
                             [**2189-3-5**]  04:20 AM
                             [**2189-3-5**]  04:48 AM
                             [**2189-3-5**]  05:42 AM
                             [**2189-3-5**]  08:43 AM
                             [**2189-3-5**]  10:10 AM
                             [**2189-3-5**]  04:29 PM
                             [**2189-3-5**]  05:09 PM
                             [**2189-3-6**]  04:08 AM
                             [**2189-3-6**]  04:27 AM
   WBC
   11.1
   13.6
   Hct
   29.5
   33.0
   Plt
   190
   231
   Cr
   0.7
   0.6
   0.6
   TCO2
   32
   30
   33
   31
   30
   32
   31
   Glucose
   123
   101
   173
   Other labs: PT / PTT / INR:24.9/51.9/2.4, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:74/152, Alk Phos / T Bili:159/19.4,
   Amylase / Lipase:[**10-30**], Differential-Neuts:76.5 %, Band:4.0 %,
   Lymph:18.0 %, Mono:4.5 %, Eos:0.6 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:8.3
   mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   42 y/o with Common VID, HepC, Type 1 DM, p/w c. diff sepsis
    # Line infection:  s/p HD catheter removal on [**2-26**] with catheter tip
   growing ENTEROCOCCUS.  Blood cx NGTD. No growth from PICC.
   - Daptomycin now complete
   - f/u blood cultures, NGTD so far
   - surveillance cultures
   # C diff sepsis:  now s/p Xigris and IVIG.  Colitis appears improved on
   serial CT scans of the abdomen.
   - d/c Vancomycin retention enemas, continue PO Vancomycin via NGT, IV
   flagyl for c. diff
   - appreciate ID recs
   - dose IVIG weekly as per ID recs
   - senna/colace
   - Surgery following, CT not concerning, will follow
   - check a lactate
   # Respiratory failure:  Likely ARDS in the setting of severe
   infection.  s/p trach on [**2-27**], was on pressure support, now on TM trial.
   - goal even today
   - trach mask
   - sedation off, pain meds PRN
   - speech and swallow c/s for paci muir valve
   # Pain Management
 Still having pain that is difficult to control
   -          start fentanyl patch
   -          cont PRN dilaudid
   # Anemia:  s/p 7 units PRBC
s for LOS.  Patient has had evidence of
   hemolysis (Coomb
s negative) as well as bloody secretions suctioned
   from NGT. DIC resolved.
   - check hct daily & tx for HCT < 25, has been stable
   - active T&C
   - IV PPI [**Hospital1 **]
   - FFP for active bleeding
   # Hyperbilirubinemia: likely multifactorial from underlying liver
   disease, acute illness, as well as contribution from hemolysis.  No
   biliary ductal dilatation by CT on [**2-26**].
   - continue to trend bilirubin, remains high but stable
   # DM Type I: Developed DKA while here.
   - continue insulin in TPN, titrate
   - tighten up sliding scale
   # Cirrhosis:  chronic HCV infection.
   - continue to trend transaminases
   - Liver consult team following
   # FEN:
   - tolerating tropic TF, continue to check residuals; at 33cc/hr today
   - continue TPN with insulin
   - free H20 bolus
   # PPx:
   - Pneumoboots as DVT prophylaxis.
   - VAP bundle.
   - PPI as GI ppx.
   - PT/OT consult for range of motion activities
   # Access:
   - RIJ placed [**2-26**]
   - A-line re-sited on [**2-24**]
   -PICC placement, will attempt to get IR today
   #  Case Management
 start to screen for vent rehab
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo: ICU
   Nutrition: TF today
   TPN w/ Lipids - [**2189-2-28**] 07:17 PM 62.5 mL/hour
   Glycemic Control:  Insulin gtt
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   20 Gauge - [**2189-2-26**] 06:28 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   DVT: Boots
   VAP: HOB elevation, Mouth care, Daily wake up
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed
   Code status: Full code
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-3**] 10:22 AM 62.5 mL/hour
   Vivonex (Full) - [**2189-3-3**] 02:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   Multi Lumen - [**2189-2-26**] 10:30 PM
   Code status: Full code
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-5**] 08:45 AM 56 mL/hour
   Vivonex (Full) - [**2189-3-6**] 04:25 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-03-06 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CVL was pulled. Overnight got 4 mg dilaudid and 50 mcg of fentanyl for
   abd pain. At 30/h on TF. Being screened for rehab. On TC overnight.
 MULTI LUMEN - STOP [**2189-3-5**] 02:03 PM
   right sc.
 INVASIVE VENTILATION - STOP [**2189-3-5**] 10:00 PM
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2189-3-5**] 04:00 PM
   Vancomycin - [**2189-3-6**] 08:31 AM
   Metronidazole - [**2189-3-6**] 08:32 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2189-3-5**] 11:15 PM
   Hydromorphone (Dilaudid) - [**2189-3-6**] 02:00 AM
   Midazolam (Versed) - [**2189-3-6**] 03:00 AM
   Pantoprazole (Protonix) - [**2189-3-6**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-6**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.1
C (97
   HR: 92 (83 - 102) bpm
   BP: 157/63(92) {108/50(1) - 157/74(99)} mmHg
   RR: 29 (14 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
             Total In:
                                                                  2,953 mL
                                                                  1,504 mL
   PO:
             TF:
                                                                    226 mL
                                                                    341 mL
   IVF:
                                                                  1,034 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                    430 mL
   Urine:
                                                                  4,100 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,147 mL
                                                                  1,074 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   FiO2: 40%
   SpO2: 95%
   ABG: 7.42/46/122/28/5
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely with guarding
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   231 K/uL
   173 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.1 mEq/L
   44 mg/dL
   112 mEq/L
   148 mEq/L
   33.0 %
   13.6 K/uL
        [image002.jpg]
                             [**2189-3-5**]  04:15 AM
                             [**2189-3-5**]  04:20 AM
                             [**2189-3-5**]  04:48 AM
                             [**2189-3-5**]  05:42 AM
                             [**2189-3-5**]  08:43 AM
                             [**2189-3-5**]  10:10 AM
                             [**2189-3-5**]  04:29 PM
                             [**2189-3-5**]  05:09 PM
                             [**2189-3-6**]  04:08 AM
                             [**2189-3-6**]  04:27 AM
   WBC
   11.1
   13.6
   Hct
   29.5
   33.0
   Plt
   190
   231
   Cr
   0.7
   0.6
   0.6
   TCO2
   32
   30
   33
   31
   30
   32
   31
   Glucose
   123
   101
   173
   Other labs: PT / PTT / INR:24.9/51.9/2.4, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:74/152, Alk Phos / T Bili:159/19.4,
   Amylase / Lipase:[**10-30**], Differential-Neuts:76.5 %, Band:4.0 %,
   Lymph:18.0 %, Mono:4.5 %, Eos:0.6 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:8.3
   mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1. ARDS: Improved
   Tolerating TM 24h
   -speech c/s for PMV
   2. Pain:
   -dilaudid prn
   -fentanyl 25 mcg patch
   3. Line infection: Today is day [**6-30**] of daptomycin
   -all other cx NGTD
   4. Sepsis: Improved
   -po vanco and flagyl
   -discuss dosing of IVIG with ID
   -recheck lactate
   5. DM1/DKA: Cont. TPN with insulin and TF
   -TF at goal
   -discuss with nutrition when she can come off TPN
   6. PT/OT/rehab screen
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-5**] 08:45 AM 56 mL/hour
   Vivonex (Full) - [**2189-3-6**] 04:25 AM 30 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow.  I have reviewed
   and agree with the assessment and plan as above with the following
   emphasis and modifications:
   Patient with cirrhosis who developed severe septic shock presumably
   secondary to C. dificile colitis.  Patient was on 3 vasopressors at one
   point and developed renal failure requiring CVVH and also with severe
   ARDS.  Most recently has been off vasopressors and weaning from
   ventilator
   Overnight, developed high pH
 7.7 on PS with high volumes and also
   being diuresed
   On exam, T 38.0,   Pulse 92   BP 156/70   RR 16   SaO2: 95% trach
   shield
   General: trach in place, follows commands
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd; Soft, mild abdominal tenderness
 improved since yesterday
   Ext: trace edema bilaterally
   CT: colitis - improving
   A:
   1)       Acute Respiratory Failure secondary ARDS/pneumonia now on
   trach shield
 improving
   2)       Low grade fever (one spike)
   3)       Septic Shock secondary to C. dif colitis
 improving
   4)       Acute Renal Failure
 improved -
   5)       Coagulopathy
 DIC/liver failure
 stable
   6)       Alkalemia
 likely combination of improved lung compliance and
   high volumes on PS and contraction alkalosis as well
   P:
   1- Continue trach shield
   2- Follow culture results
   3- Continue therapy for c. diff colitis (vanc/flagyl, ivig)
   4-  Finish Daptomycin  7 day course
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-6**] 10:31 PM ------

2189-03-07 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-6**]
   - Increased WBC (near most recent elevated baseline), low grade fever
   so differential added to AM labs, unchanged from prior
   - FFP x 2 given for diagnostic tap
   - Diagnostic tap performed to evaluated for SBP, negative with 60 WBC
   - lactate checked and normal
   - Increased free water for hypernatremia, improving by the afternoon
   - Speech and Swallow consult for passe-muir valve recommended:
   1.  Reattempt placement of the PMV here or at rehab when
   secretions clear further.
   2. Q4 oral care given NPO status.
   3. Continue alternative means of nutrition, hydration and
   medication via TPN and NG tube as appropriate.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2189-3-6**] 04:00 PM
   Metronidazole - [**2189-3-7**] 12:00 AM
   Vancomycin - [**2189-3-7**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-3-6**] 08:32 AM
   Fentanyl - [**2189-3-6**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-7**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 103 (85 - 103) bpm
   BP: 136/60(85) {121/56(82) - 157/74(100)} mmHg
   RR: 42 (14 - 45) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
             Total In:
                                                                  3,760 mL
                                                                  1,016 mL
   PO:
             TF:
                                                                    720 mL
                                                                    232 mL
   IVF:
                                                                    500 mL
                                                                    177 mL
   Blood products:
                                                                    545 mL
   Total out:
                                                                  1,290 mL
                                                                    415 mL
   Urine:
                                                                  1,290 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,470 mL
                                                                    601 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   SpO2: 95%
   ABG: 7.47/39/98.[**Numeric Identifier 20**]/26/4
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: Jaundice
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, NG tube, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffuse
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   245 K/uL
   10.7 g/dL
   209 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.5 mEq/L
   40 mg/dL
   112 mEq/L
   145 mEq/L
   32.0 %
   14.7 K/uL
        [image002.jpg]
                             [**2189-3-5**]  05:42 AM
                             [**2189-3-5**]  08:43 AM
                             [**2189-3-5**]  10:10 AM
                             [**2189-3-5**]  04:29 PM
                             [**2189-3-5**]  05:09 PM
                             [**2189-3-6**]  04:08 AM
                             [**2189-3-6**]  04:27 AM
                             [**2189-3-6**]  03:50 PM
                             [**2189-3-7**]  04:28 AM
                             [**2189-3-7**]  04:45 AM
   WBC
   13.6
   15.2
   14.7
   Hct
   33.0
   32.0
   32.0
   Plt
   [**Telephone/Fax (3) 5166**]
   Cr
   0.6
   0.6
   0.6
   0.7
   TCO2
   33
   31
   30
   32
   31
   29
   Glucose
   101
   173
   176
   209
   Other labs: PT / PTT / INR:23.3/49.0/2.3, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:74/152, Alk Phos / T Bili:159/19.4,
   Amylase / Lipase:[**10-30**], Differential-Neuts:82.0 %, Band:0.0 %, Lymph:5.0
   %, Mono:8.0 %, Eos:3.0 %, D-dimer:6342 ng/mL, Fibrinogen:202 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   42 y/o with Common VID, HepC, Type 1 DM, p/w c. diff sepsis
    # Line infection:  s/p HD catheter removal on [**2-26**] with catheter tip
   growing ENTEROCOCCUS.  Blood cx NGTD. No growth from PICC.
   - Daptomycin end [**3-9**]
   - f/u blood cultures, NGTD so far
   # C diff sepsis:  now s/p Xigris and IVIG.  Colitis appears improved on
   serial CT scans of the abdomen.  Afebrile.
   - d/c Vancomycin retention enemas, continue PO Vancomycin via NGT, IV
   flagyl for c. diff
   - appreciate ID recs
   - dose IVIG weekly as per ID recs
   - senna/colace
   - Surgery following, CT not concerning, will follow
   - lactate yesterday normal
   - consider scope if ongoing pain
   - prob d/c vac/flagyl once off Dapto
   # Respiratory failure:  Likely ARDS in the setting of severe
   infection.  s/p trach on [**2-27**], now on TM.
   - goal even today
   - trach mask
   - speech and swallow c/s for passy-muir valve: soon
   # Pain Management
 Still having pain that is difficult to control
   -          start fentanyl patch
   -          cont PRN dilaudid
   # Anemia:  Stable
   - IV PPI [**Hospital1 **]
   # Hyperbilirubinemia: likely multifactorial from underlying liver
   disease, acute illness, as well as contribution from hemolysis.  No
   biliary ductal dilatation by CT on [**2-26**].
   - continue to trend bilirubin, remains high but stable
   # DM Type I: Developed DKA while here.
   - continue insulin in TPN, titrate
   - tighten up sliding scale
   # Cirrhosis:  chronic HCV infection.
   - continue to trend transaminases
   - Liver consult team following
   # FEN:
   - tolerating tropic TF, continue to check residuals; at goal today
   - continue TPN with insulin
   - free H20 bolus
   # PPx:
   - Pneumoboots as DVT prophylaxis.
   - VAP bundle.
   - PPI as GI ppx.
   - PT/OT consult for range of motion activities
   # Access:
   - A-line re-sited on [**2-24**]
   -PICC
   #  Case Management
 start to screen for vent rehab
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-3-6**] 05:27 PM 40.[**Telephone/Fax (3) 5167**] mL/hour
   Vivonex (Full) - [**2189-3-7**] 04:17 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-03-08 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2189-3-7**] 06:34 PM
 FEVER - 101.8
F - [**2189-3-7**] 06:00 PM
   - Spiked temp 101.7 in afternoon, pan-cultured; abd exam stable
   - ABG 7 pm: 7.47/38/117/28 on TM collar
   - Peritoneal tap [**3-6**]: cx P
   - IVIG given
   - Stopping TPN, TF at goal
   - lasix 20 IV x 1
   - RUQ u/s:
   - LENIs:
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-7**] 02:00 AM
   Metronidazole - [**2189-3-7**] 08:04 AM
   Daptomycin - [**2189-3-7**] 04:53 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: Cough
   Gastrointestinal: Abdominal pain, No(t) Emesis
   Integumentary (skin): Jaundice
   Pain: [**2-25**] Mild
   Flowsheet Data as of  [**2189-3-8**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.9
C (100.2
   HR: 103 (94 - 115) bpm
   BP: 118/52(74) {115/49(70) - 151/68(94)} mmHg
   RR: 38 (18 - 38) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
             Total In:
                                                                  3,306 mL
                                                                    690 mL
   PO:
             TF:
                                                                    878 mL
                                                                    420 mL
   IVF:
                                                                    490 mL
                                                                     70 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  2,635 mL
                                                                    730 mL
   Urine:
                                                                  2,635 mL
                                                                    430 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                    671 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Trach [**Year (4 digits) 1269**]
   SpO2: 94%
   ABG: 7.47/38/117/25/4
   PaO2 / FiO2: 167
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Tender: diffuse
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   284 K/uL
   10.1 g/dL
   228 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.1 mEq/L
   38 mg/dL
   112 mEq/L
   146 mEq/L
   31.0 %
   16.3 K/uL
        [image002.jpg]
                             [**2189-3-5**]  10:10 AM
                             [**2189-3-5**]  04:29 PM
                             [**2189-3-5**]  05:09 PM
                             [**2189-3-6**]  04:08 AM
                             [**2189-3-6**]  04:27 AM
                             [**2189-3-6**]  03:50 PM
                             [**2189-3-7**]  04:28 AM
                             [**2189-3-7**]  04:45 AM
                             [**2189-3-7**]  06:55 PM
                             [**2189-3-8**]  04:11 AM
   WBC
   13.6
   15.2
   14.7
   16.3
   Hct
   33.0
   32.0
   32.0
   31.0
   Plt
   [**Telephone/Fax (3) 5177**]84
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   TCO2
   30
   32
   31
   29
   28
   Glucose
   101
   173
   176
   209
   228
   Other labs: PT / PTT / INR:28.1/64.9/2.8, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:71/133, Alk Phos / T Bili:168/22.3,
   Amylase / Lipase:[**10-30**], Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:7.9
   mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   42 y/o with Common VID, HepC, Type 1 DM, p/w c. diff sepsis, c/b ARDS
   and respiratory failure s/p trach, now with new fever.
   # Fever: Pt has had low grade temps over last week, finally spiked
   yesterday. Currently on Dapto until [**3-9**] and PO Vanc, PO Flagyl.
   Lactate 1.3 last night.
   - Cultured broadly
   - CXR this AM
   - Consider possible PNA given ? increased O2 requirement on TM (50% to
   70%) but no new secretions
   -  F/U u/s to investigate DVT, biliary pathology
   - [**Month (only) 8**] need PICC removed, a-line removed (kept in case of HD instability
   o/n)
   -  Sinus CT when able to travel
   - Hold off on changing antibx for now
   - mini-BAL
   # Line infection:  s/p HD catheter removal on [**2-26**] with catheter tip
   growing ENTEROCOCCUS.  Blood cx NGTD. No growth from PICC.
   - Daptomycin course completed
   - f/u blood cultures, NGTD so far
   # C diff sepsis:  now s/p Xigris and IVIG.  Colitis appears improved on
   serial CT scans of the abdomen.  Afebrile.
   - d/c Vancomycin retention enemas, continue PO Vancomycin via NGT, po
   flagyl for c. diff
   - appreciate ID recs
   - dose IVIG weekly as per ID recs; Q Saturday
   - senna / colace
   - Surgery following, CT not concerning, will follow
   - lactate [**3-7**] normal
   - Holding scope although ongoing pain given risk of perforation
   - Will continue vanc/flagyl for 14 days post completion of Dapto given
   severity of her illness (although per ID Dapto unlikely to contribute
   to C Diff risk)
   # Respiratory failure:  Likely ARDS in the setting of severe
   infection.  s/p trach on [**2-27**], now on TM. New O2 requirement.
   - goal -500 cc to -1L today
   - trach [**Last Name (LF) 1269**], [**First Name3 (LF) 124**] rest on vent and diurese
   - speech and swallow c/s for passy-muir valve thinks not quite yet, but
   soon
   # Pain Management : Still having pain that is difficult to control
   -          fentanyl patch, will not titrate until has been on for 72
   hours
   -          cont PRN dilaudid
   # Weakness: Likely ICU myopathy [**1-26**] prolonged illness, paralytics.
   -          Continue PT/OT
   -          Rehab
   # Anemia:  Stable
   - IV PPI [**Hospital1 **]
   # Hyperbilirubinemia: likely multifactorial from underlying liver
   disease, acute illness, as well as contribution from hemolysis.  No
   biliary ductal dilatation by CT on [**2-26**].
   - continue to trend bilirubin, remains high but stable
   - f/u RUQ u/s
   # DM Type I: Developed DKA while here.
   -          tighten up sliding scale
   -          consider adding long-acting insulin now that pt is
   tolerating TF and TPN is off
   # Cirrhosis:  chronic HCV infection.
   - continue to trend transaminases
   - Liver consult team following
   # FEN:
   - TF at goal,  d/c
d TPN
   - continue free H20 bolus, Na 146 today
   # PPx:
   - Pneumoboots as DVT prophylaxis.
   - VAP bundle.
   - PPI as GI ppx.
   # Access:
   - A-line re-sited on [**2-24**]
   -PICC placed [**3-4**]
   #  Case Management
 screening for vent rehab
   # Contact: With fiance [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo: ICU
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2189-3-8**] 05:31 AM 60 mL/hour
   Glycemic Control:  RISS
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer: PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2189-03-09 10:52:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Over weekend developed high fevers, rising lactate, CT C/A/P shows
   increased pulm infiltrates, and bowel wall thickening. Started on
   meropenem and continued on daptomycin.
 INVASIVE VENTILATION - START [**2189-3-8**] 12:00 PM
 FEVER - 103.5
F - [**2189-3-8**] 04:00 PM
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-7**] 02:00 AM
   Metronidazole - [**2189-3-7**] 08:04 AM
   Daptomycin - [**2189-3-8**] 05:10 PM
   Meropenem - [**2189-3-9**] 08:10 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-3-8**] 10:35 AM
   Hydromorphone (Dilaudid) - [**2189-3-8**] 08:00 PM
   Lorazepam (Ativan) - [**2189-3-8**] 08:15 PM
   Fentanyl - [**2189-3-9**] 12:01 AM
   Dextrose 50% - [**2189-3-9**] 03:25 AM
   Midazolam (Versed) - [**2189-3-9**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-9**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 37.5
C (99.5
   HR: 101 (98 - 125) bpm
   BP: 124/52(72) {107/44(62) - 138/64(85)} mmHg
   RR: 26 (16 - 51) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
             Total In:
                                                                  4,175 mL
                                                                    948 mL
   PO:
             TF:
                                                                    907 mL
   IVF:
                                                                  1,563 mL
                                                                    828 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  1,455 mL
                                                                    435 mL
   Urine:
                                                                  1,155 mL
                                                                    435 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  2,720 mL
                                                                    513 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 380 (380 - 400) mL
   Vt (Spontaneous): 299 (299 - 6,000) mL
   PS : 16 cmH2O
   RR (Set): 12
   RR (Spontaneous): 27
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 95%
   ABG: 7.48/32/86.[**Numeric Identifier 253**]/24/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: diffusely, Wheezes : end insp squeaks)
   Abdominal: Soft, Distended, Tender: diffuse
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   293 K/uL
   74 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   42 mg/dL
   110 mEq/L
   144 mEq/L
   28.1 %
   16.4 K/uL
        [image002.jpg]
                             [**2189-3-7**]  04:45 AM
                             [**2189-3-7**]  06:55 PM
                             [**2189-3-8**]  04:11 AM
                             [**2189-3-8**]  12:15 PM
                             [**2189-3-8**]  08:08 PM
                             [**2189-3-8**]  08:28 PM
                             [**2189-3-9**]  01:41 AM
                             [**2189-3-9**]  03:24 AM
                             [**2189-3-9**]  04:49 AM
                             [**2189-3-9**]  06:58 AM
   WBC
   16.3
   20.1
   16.4
   Hct
   31.0
   32.3
   28.1
   Plt
   [**Telephone/Fax (3) 5189**]
   Cr
   0.7
   0.6
   0.6
   TCO2
   29
   28
   26
   27
   27
   25
   25
   Glucose
   228
   154
   74
   Other labs: PT / PTT / INR:28.2/61.3/2.8, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:61/107, Alk Phos / T Bili:153/28.2,
   Amylase / Lipase:[**10-30**], Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:539 IU/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1. Resp failure: Suspect VAP vs. persistent bowel sepsis
   -cultures pending
   -vancomycin, meropenem, and flagyl
   -bronch for seial lavages and cell count
   -drop PS to 14, check ABG
   2. ID: New sepsis, suspect VAP vs bowel source, at high risk for
   fungemia
   -cover with fluconazole and send fungal cx
   -vanco/[**Last Name (un) **]/flagyl
   -ID recs
   3. Anemia: Possible AOCD, check DIC labs
   4. Hyperbilirubinemia: Still climbing, ?hemolysis
   -send hemolysis labs, fractionate the bili, stopped TPN
   5. DM1: Restart TPN and insulin
   -d/c glargine
   6. Pain: d/c fentanyl patch, and use versed/fentanyl boluses for care,
   and prn IV dilaudid for persistent pain
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Pt seen and examined on rounds; agree with Dr. [**First Name (STitle) 1516**]
s note as outlined
   above. 42 yo female with Cirrhosis admitted with Cdiff colitis, septic
   shock and multiorgan failure who had been improving. Has new evidence
   of infection with fevers, leukocytosis, worsening LFT
s, high
   residuals, respiratory failure back on ventilator support and
   increasing lactate- some improvement with addition of merepenem.
   Suspected infectious sources would be lung, digestive tract. F/u
   cultures and will bronch today.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-9**] 14:17 ------

2189-03-10 09:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Bronch yesterday showed GNR. Uop last few hours has been 15 cc/h.
 BAL FLUID CULTURE - At [**2189-3-9**] 08:36 AM
 BRONCHOSCOPY - At [**2189-3-9**] 02:21 PM
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2189-3-8**] 05:10 PM
   Micafungin - [**2189-3-9**] 05:42 PM
   Meropenem - [**2189-3-9**] 08:00 PM
   Vancomycin - [**2189-3-9**] 08:54 PM
   Metronidazole - [**2189-3-10**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 30 mcg/hour
   Other ICU medications:
   Fentanyl - [**2189-3-9**] 12:12 PM
   Midazolam (Versed) - [**2189-3-9**] 12:43 PM
   Furosemide (Lasix) - [**2189-3-9**] 08:00 PM
   Lansoprazole (Prevacid) - [**2189-3-10**] 08:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-10**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.5
C (97.7
   HR: 91 (91 - 113) bpm
   BP: 114/50(70) {92/36(55) - 130/63(86)} mmHg
   RR: 10 (4 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
             Total In:
                                                                  2,687 mL
                                                                  2,441 mL
   PO:
             TF:
   IVF:
                                                                  2,517 mL
                                                                  2,361 mL
   Blood products:
   Total out:
                                                                  1,308 mL
                                                                    620 mL
   Urine:
                                                                    708 mL
                                                                    170 mL
   NG:
   150 mL
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  1,379 mL
                                                                  1,821 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 400) mL
   Vt (Spontaneous): 315 (315 - 332) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 32 cmH2O
   Compliance: 15.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/31/82.[**Numeric Identifier 253**]/21/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : diffusely)
   Abdominal: Soft, Tender: diffuse
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   388 K/uL
   193 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.2 mEq/L
   51 mg/dL
   108 mEq/L
   144 mEq/L
   29.3 %
   16.3 K/uL
        [image002.jpg]
                             [**2189-3-8**]  08:08 PM
                             [**2189-3-8**]  08:28 PM
                             [**2189-3-9**]  01:41 AM
                             [**2189-3-9**]  03:24 AM
                             [**2189-3-9**]  04:49 AM
                             [**2189-3-9**]  06:58 AM
                             [**2189-3-9**]  10:57 AM
                             [**2189-3-9**]  12:41 PM
                             [**2189-3-9**]  03:36 PM
                             [**2189-3-10**]  03:17 AM
   WBC
   20.1
   16.4
   16.3
   Hct
   32.3
   28.1
   28.9
   28.2
   29.3
   Plt
   378
   293
   388
   Cr
   0.6
   0.6
   0.9
   TCO2
   27
   27
   25
   25
   23
   Glucose
   154
   74
   193
   Other labs: PT / PTT / INR:29.8/57.5/3.0, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:60/91, Alk Phos / T Bili:161/26.8,
   Amylase / Lipase:[**10-30**], Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:407
   mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:460 IU/L, Ca++:7.7
   mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 HYPOGLYCEMIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1. Sepsis, new GNR PNA
   -vanco/[**Last Name (un) **]/IV flagyl/po vanco/micafungin
   -fever resolved
   -bolus to uop >30 cc/h
   2. Line infection- completed daptomycin
   -new CVL, give 2 bags FFP for new line for TPN
   3. C. Diff: Cont. po vanco/flagyl
   -keep checking residuals, appears to have ileus
   4. Resp: VAP
   -try PS today
   -[**Month (only) 453**] FiO2 to 0.4
   -fentanyl/versed
   5. ICU myopathy: Cont. ROM exercises
   6. Anemia: No clear bleeding source
   -appears to be AOCD
   7. Hyperbilirubinemia: Sepsis vs. TPN
   -no clear biliary obx
   -follow for now
   8. DM1/DKA:
   -start insulin gtt
   -when has CVL will start insulin in TPN
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and agree with the pertinents of Dr.
   [**First Name (STitle) 1516**]
s note as outlined above. 42 yo female recovering from severe
   sepsis from C.diff colitis with multi-organ failure s/p Xigris; had
   been improving until the past couple days with recurrent sepsis,
   fevers, and recurrent respiratory failure. With addition of merepenem
   and mycofungin, there has been resolution of fevers and improved chest
   X-ray. Source potentially lungs with possible GNR
s on Bronch BAL GS,
   cultures pending.
   On exam, pt is comfortable and sedated, trach
d. Lungs exam with
   bilateral rhonchi, CV: RRR. Abdomen: mildly distended but soft,
   nontender, Ext with 2-3+ edema.
   Remains critically ill with respiratory failure. Plan continued
   ventilator support, wean vent settings as tolerated, maintain current
   abx regiment and f/u cultures
   Pt critically ill. Time spent on pt: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-10**] 18:48 ------

2189-03-11 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Given albumin and IVF for low BP. Cr up today. TF restarted for no
   residuals. CVL placed for TPN access.
 MULTI LUMEN - START [**2189-3-10**] 03:35 PM
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2189-3-8**] 05:10 PM
   Micafungin - [**2189-3-10**] 06:35 PM
   Vancomycin - [**2189-3-11**] 08:00 AM
   Meropenem - [**2189-3-11**] 08:34 AM
   Metronidazole - [**2189-3-11**] 08:34 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 1.5 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-3-10**] 06:35 PM
   Pantoprazole (Protonix) - [**2189-3-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-11**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 83 (77 - 91) bpm
   BP: 132/50(74) {94/40(56) - 142/61(84)} mmHg
   RR: 24 (15 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
   CVP: 12 (8 - 18)mmHg
   Total In:
                                                                  5,760 mL
                                                                  1,245 mL
   PO:
   TF:
                                                                     85 mL
   IVF:
                                                                  4,167 mL
                                                                    515 mL
   Blood products:
                                                                  1,050 mL
   Total out:
                                                                  1,370 mL
                                                                    638 mL
   Urine:
                                                                    590 mL
                                                                    438 mL
   NG:
                                                                    330 mL
   Stool:
   Drains:
   Balance:
                                                                  4,390 mL
                                                                    607 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 348 (310 - 440) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 97%
   ABG: 7.41/33/95.[**Numeric Identifier 253**]/21/-2
   Ve: 10.3 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: diffusely)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   281 K/uL
   81 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.2 mEq/L
   58 mg/dL
   111 mEq/L
   143 mEq/L
   26.1 %
   11.8 K/uL
        [image002.jpg]
                             [**2189-3-9**]  10:57 AM
                             [**2189-3-9**]  12:41 PM
                             [**2189-3-9**]  03:36 PM
                             [**2189-3-10**]  03:17 AM
                             [**2189-3-10**]  10:34 AM
                             [**2189-3-10**]  05:38 PM
                             [**2189-3-10**]  09:11 PM
                             [**2189-3-11**]  12:06 AM
                             [**2189-3-11**]  03:14 AM
                             [**2189-3-11**]  03:33 AM
   WBC
   16.3
   11.8
   Hct
   28.9
   28.2
   29.3
   26.1
   Plt
   388
   281
   Cr
   0.9
   1.6
   1.7
   TCO2
   23
   22
   21
   23
   22
   Glucose
   193
   178
   124
   88
   81
   Other labs: PT / PTT / INR:26.1/53.5/2.6, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:45/71, Alk Phos / T Bili:137/26.8,
   Amylase / Lipase:[**10-30**], Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:407
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.9 g/dL, LDH:363 IU/L, Ca++:8.3
   mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 HYPOGLYCEMIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1. Sepsis:
   -vanco/meropenem/flagyl
   -albumin and IVF to keep uop >30/h
   -f/u ID recs
   2. Resp failure: ARDS
   -decrease PEEP to 7.5, if tolerates
   -cont. fenanyl and versed
   3. ARF: likely [**1-26**] new sepsis
   -cont. IVF and albumin
   4. Anemia: follow hcts
   -bili mostly direct
   5. Hyperbilirubinemia: Call liver to discuss
   6. DM1/DKA: Transition to insulin in TPN
   7. FEN: hold TF for high residuals
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-10**] 05:00 PM 54.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-10**] 03:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of services provided. I would add the following: 42 yo
   female with Cdiff colitis, with recurrent sepsis (PNA). She
s had no
   further fevers and her WBC continues to decrease after expansion of abx
   regimen to merepenem/dapto/flagyl/vanco/myfungin. Tentatively appears
   to be recovering from recent sepsis, but she has been intermittently
   hypotensive with attempts to diurese, and has new onset acute renal
   failure despite resuscitation, Cr 1.7. Cultures still pending. Plan :
   IV hydrate, wean vent as tolerated, scale back antibiotics.
   Pt is critically ill. Time spent on pt: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-11**] 14:30 ------

2189-03-12 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - liver re bili- to be expected with new infection and also could be
   because of meds, specifically [**Last Name (un) **]
   - d/c'd vanc
   - FeUrea<.1
   urine output dropped to 20cc/h put on albumin plus a 500cc bolus
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2189-3-11**] 08:34 AM
   Vancomycin - [**2189-3-11**] 02:00 PM
   Micafungin - [**2189-3-11**] 06:00 PM
   Metronidazole - [**2189-3-11**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-3-11**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-12**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 92 (82 - 103) bpm
   BP: 146/66(92) {122/50(74) - 147/66(92)} mmHg
   RR: 41 (16 - 41) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
    CVP: 18 (6 - 22)mmHg
   Total In:
                                                                  2,714 mL
                                                                  1,169 mL
   PO:
   TF:
                                                                    207 mL
                                                                     40 mL
   IVF:
                                                                    913 mL
                                                                    620 mL
   Blood products:
                                                                     50 mL
                                                                     50 mL
   Total out:
                                                                  1,293 mL
                                                                    248 mL
   Urine:
                                                                    893 mL
                                                                    248 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,421 mL
                                                                    921 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 444 (310 - 538) mL
   PS : 14 cmH2O
   RR (Spontaneous): 34
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   SpO2: 99%
   ABG: 7.39/35/96.[**Numeric Identifier 7**]/21/-2
   Ve: 14 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Chronically ill
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, NG tube, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: diffusely
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   269 K/uL
   9.3 g/dL
   112 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.4 mEq/L
   66 mg/dL
   113 mEq/L
   144 mEq/L
   28.3 %
   13.2 K/uL
        [image002.jpg]
                             [**2189-3-10**]  03:17 AM
                             [**2189-3-10**]  10:34 AM
                             [**2189-3-10**]  05:38 PM
                             [**2189-3-10**]  09:11 PM
                             [**2189-3-11**]  12:06 AM
                             [**2189-3-11**]  03:14 AM
                             [**2189-3-11**]  03:33 AM
                             [**2189-3-11**]  02:03 PM
                             [**2189-3-12**]  02:18 AM
                             [**2189-3-12**]  02:28 AM
   WBC
   16.3
   11.8
   13.2
   Hct
   29.3
   26.1
   28.3
   Plt
   388
   281
   269
   Cr
   0.9
   1.6
   1.7
   1.5
   TCO2
   22
   21
   23
   22
   22
   22
   Glucose
   193
   178
   124
   88
   81
   112
   Other labs: PT / PTT / INR:27.4/53.0/2.7, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:43/80, Alk Phos / T Bili:139/26.9,
   Amylase / Lipase:[**10-30**], Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:407
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:333 IU/L, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR [**3-11**]: The tracheostomy tube, NG tube and right central
   line are unchanged.
   Diffuse bilateral opacification of the lung fields is relatively
   unchanged
   compared to the multiple prior studies dating back to [**3-8**].
   Slight
   improvement in aeration of both lungs are noted since [**2189-3-10**].
   No
   pleural effusion or pneumothorax is detected.
   Microbiology: BAL [**3-9**]: RESPIRATORY CULTURE (Final [**2189-3-11**]):    NO
   GROWTH, <1000 CFU/ml.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 OLIGURIA/ANURIA
 HYPOGLYCEMIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   42 y/o with Common VID, HepC, Type 1 DM, p/w c. diff sepsis, c/b ARDS
   and respiratory failure s/p trach, now with new fever.
   # Sepsis: Pt febrile, with new oxygen requirement, and GNRs in BAL
   makes lungs likely source.  VAP.
   - Cultured broadly
   - [**Last Name (un) 350**], Vanco
   - PO Vanco & Flagyl for C Diff
   - [**Month (only) 8**] need PICC and a-line removed
   - Sinus CT
  findings could be consistent with sinusitis but
   impossible to say definitively, getting nasal NS
   - Meropenum added back per ID [**3-8**]
   - Micofungin added [**3-9**], d/c
d [**3-12**]
   - Fluid boluses for hypoTN, low UOP
   # Line infection:  s/p HD catheter removal on [**2-26**] with catheter tip
   growing ENTEROCOCCUS.  Blood cx NGTD. No growth from PICC.  Daptomycin
   course completed.
   - f/u blood cultures, NGTD so far
   # C diff sepsis:  now s/p Xigris and IVIG.  Colitis appears improved on
   serial CT scans of the abdomen.  Afebrile. lactate stable
   - d/c Vancomycin retention enemas, continue PO Vancomycin via NGT, po
   flagyl back to IV
   - appreciate ID recs
   - dose IVIG weekly as per ID recs; Q Saturday
   - senna / colace
   - Surgery following, CT not concerning, will follow
   - Holding scope although ongoing pain given risk of perforation
   # Respiratory failure:  Appears to have new PNA.  Back on vent for resp
   distress.
   - Continue vent for now
   - can try to wean pressure support
   # Pain Management : Still having pain that is difficult to control.
   Discontinued Fentanyl patch and dilaudid IV [**3-9**].
   - Fentanyl & versed gtt
   # Weakness: Likely ICU myopathy [**1-26**] prolonged illness, paralytics.
   -          Continue PT/OT
   -          Rehab
   # Anemia:  HCT trending down, stabilized. Neg DIC labs.
   - Trend HCT
   - IV PPI [**Hospital1 **]
   - Guaiac stools
   - Transfuse for HCT<21
   # Renal Failure:  Creat up, likely intravascularly dry but total body
   overloaded. FeUrea <.1, EOS in urine
   - Albumin
   - Renally dose meds
   # Hyperbilirubinemia: likely multifactorial from underlying liver
   disease, acute illness, as well as contribution from hemolysis.  No
   biliary ductal dilatation by CT on [**2-26**] or [**3-8**]. Bili appears to be
   rising (from high teens to 22 to 28 to 26).  RUQ u/s w/o
   choledocholithiasis.
   - Will touch base with Liver today given increased Tbili / Dbili
   # DM Type I: Developed DKA while here.
   - Now NPO again as gut not working well
   - Will likely go back on TPN with insulin, but need increased line
   access
   - stopped glargine, NPH [**6-30**]
   # Cirrhosis:  chronic HCV infection.
   - transaminases prn
   - Liver consult team following
   # FEN:
   - TF on hold for now  /  continue free H20 bolus /  restart TPN with
   increased access
   # PPx:
   - Pneumoboots as DVT prophylaxis / VAP bundle / PPI as GI ppx.
   # Access:
   - A-line re-sited on [**2-24**]
   - PICC placed [**3-4**]
   - Needs better access, place IJ CVL today, consider pulling PICC
   #  Case Management
 screening for vent rehab (on hold)
   # Contact: With [**Last Name (LF) 4495**]
, [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-11**] 08:13 PM 58.[**Telephone/Fax (5) 5239**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-10**] 03:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-03-12 11:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Found to have urine eos, micafungin and vanco were d/c'd. Given IVF and
   albumin for low uop.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-11**] 02:00 PM
   Micafungin - [**2189-3-11**] 06:00 PM
   Meropenem - [**2189-3-12**] 08:00 AM
   Metronidazole - [**2189-3-12**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-3-11**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-12**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 89 (83 - 103) bpm
   BP: 150/74(99) {122/52(74) - 150/74(99)} mmHg
   RR: 15 (15 - 41) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
   CVP: 8 (6 - 22)mmHg
   Total In:
                                                                  2,714 mL
                                                                  1,646 mL
   PO:
   TF:
                                                                    207 mL
                                                                     40 mL
   IVF:
                                                                    913 mL
                                                                    883 mL
   Blood products:
                                                                     50 mL
                                                                     50 mL
   Total out:
                                                                  1,293 mL
                                                                    368 mL
   Urine:
                                                                    893 mL
                                                                    368 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,421 mL
                                                                  1,278 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 542 (310 - 542) mL
   PS : 14 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.39/35/96.[**Numeric Identifier 7**]/21/-2
   Ve: 7.9 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : diffuse)
   Abdominal: Distended, Tender: diffusely, no rebound
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   269 K/uL
   112 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.4 mEq/L
   66 mg/dL
   113 mEq/L
   144 mEq/L
   28.3 %
   13.2 K/uL
        [image002.jpg]
                             [**2189-3-10**]  03:17 AM
                             [**2189-3-10**]  10:34 AM
                             [**2189-3-10**]  05:38 PM
                             [**2189-3-10**]  09:11 PM
                             [**2189-3-11**]  12:06 AM
                             [**2189-3-11**]  03:14 AM
                             [**2189-3-11**]  03:33 AM
                             [**2189-3-11**]  02:03 PM
                             [**2189-3-12**]  02:18 AM
                             [**2189-3-12**]  02:28 AM
   WBC
   16.3
   11.8
   13.2
   Hct
   29.3
   26.1
   28.3
   Plt
   388
   281
   269
   Cr
   0.9
   1.6
   1.7
   1.5
   TCO2
   22
   21
   23
   22
   22
   22
   Glucose
   193
   178
   124
   88
   81
   112
   Other labs: PT / PTT / INR:27.4/53.0/2.7, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:43/80, Alk Phos / T Bili:139/26.9,
   Amylase / Lipase:[**10-30**], Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:407
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:333 IU/L, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 OLIGURIA/ANURIA
 HYPOGLYCEMIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1. Sepsis: Possible new VAP
   -complete 8 days of meropenem
   2. C. Diff colitis/ileus: Cont. flagyl/vanco
   -cont. TPN, can retry TF tomorrow
   3. Resp failure:
   -drop PEEP to 5
   -sedation holiday and check RISB
   4. ARF: [**Month (only) 8**] be prerenal vs. AIN
   -mica and vanco d/c'd
   5. Hyperbili: Discussed with liver, likely combo of sepsis and TPN
   -follow bili
   -cont. to try TF
   6. DM1/DKA:
   -off insulin gtt
   -cont. TPN with insulin
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-11**] 08:13 PM 58.[**Telephone/Fax (5) 5239**] mL/hour
   Glycemic Control:  Blood sugar well controlled, Insulin in TPN
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-10**] 03:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with Dr. [**First Name (STitle) 1516**] of the key
   portions of the services provided. I would add the following: 42 yo
   female recovering from [**First Name (STitle) **] colitis/sepsis and respiratory failure.
   Yesterday, her urine output was intermittently low but responsive to
   fluids and albumin. She
s had no further fevers.
   Problem [**Name (NI) 670**]
   [**Name2 (NI) **] colitis
   Acute respiratory failure
   Presumed VAP- negative cultures, improved with Zosyn.
   Plan:
   Continue abx, vanc/mycofungin dc
   Continue vent settings, wean PEEP
   Lighten sedation.
   Pt is critically ill: time spent on pt: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-12**] 18:51 ------

2189-03-13 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID recs: d/c Vanco & Micafungin as negative BAL, if continues to be
   negative for an additional 24 hours could consider d/c Meropenum
   - TPN restarted with insulin
   - Trended Hct 26.1 --> 28.3 --> 26.3
   - Decreased PEEP to 5 successfully with ABG 7.4 / 33/75
   - Liver recs: no need to work-up bilirubin further at this point
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-11**] 02:00 PM
   Micafungin - [**2189-3-11**] 06:00 PM
   Meropenem - [**2189-3-12**] 08:00 AM
   Metronidazole - [**2189-3-13**] 04:28 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-3-12**] 08:09 PM
   Allergies:
   Aspirin rectal bleeding
   Penicillins Rash; Hives;
   Sulfonamides aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin) Rash;
   Cefzil (Oral) (Cefprozil) Rash;
   Motrin (Oral) (Ibuprofen) aseptic meningi
   Erythromycin Base Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-11**] 02:00 PM
   Micafungin - [**2189-3-11**] 06:00 PM
   Meropenem - [**2189-3-12**] 08:00 AM
   Metronidazole - [**2189-3-13**] 04:28 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-3-12**] 08:09 PM
   Flowsheet Data as of  [**2189-3-13**] 07:47 AM
   Hemodynamic monitoring
   Vital signs
    CVP: 98 (8 - 138)mmHg
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 98 (89 - 101) bpm
   BP: 142/59(84) {124/56(79) - 150/74(99)} mmHg
   RR: 40 (6 - 41) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
   Total In:
                                                                  2,912 mL
                                                                    829 mL
   PO:
   TF:
                                                                     40 mL
   IVF:
                                                                  1,263 mL
                                                                    270 mL
   Blood products:
                                                                    150 mL
                                                                     50 mL
   Total out:
                                                                    913 mL
                                                                    585 mL
   Urine:
                                                                    913 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,999 mL
                                                                    244 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 318 (318 - 618) mL
   PS : 16 cmH2O
   RR (Spontaneous): 63
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 23 cmH2O
   SpO2: 94%
   ABG: 7.40/33/75/18/-2
   Ve: 16.6 L/min
   PaO2 / FiO2
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffuse
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   264 K/uL
   9.2 g/dL
   165 mg/dL
   1.5 mg/dL
   18 mEq/L
   5.4 mEq/L
   75 mg/dL
   112 mEq/L
   140 mEq/L
   27.4 %
   16.2 K/uL
        [image002.jpg]
                             [**2189-3-11**]  12:06 AM
                             [**2189-3-11**]  03:14 AM
                             [**2189-3-11**]  03:33 AM
                             [**2189-3-11**]  02:03 PM
                             [**2189-3-12**]  02:18 AM
                             [**2189-3-12**]  02:28 AM
                             [**2189-3-12**]  03:06 PM
                             [**2189-3-12**]  06:01 PM
                             [**2189-3-12**]  06:06 PM
                             [**2189-3-13**]  03:20 AM
   WBC
   11.8
   13.2
   16.2
   Hct
   26.1
   28.3
   26.3
   27.4
   Plt
   [**Telephone/Fax (3) 5271**]
   Cr
   1.7
   1.5
   1.5
   TCO2
   23
   22
   22
   22
   22
   21
   Glucose
   124
   88
   81
   112
   139
   159
   165
   Other labs: PT / PTT / INR:28.9/62.3/2.9, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:43/80, Alk Phos / T Bili:139/26.9,
   Amylase / Lipase:[**10-30**], Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:407
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:333 IU/L, Ca++:8.7
   mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Microbiology: [**3-9**] BAL: Cx FINAL neg
   Assessment and Plan
   42 y/o with Common VID, HepC, Type 1 DM, p/w c. diff sepsis, c/b ARDS
   and respiratory failure s/p trach
   # Sepsis: Pt febrile, with new oxygen requirement, suspected VAP, no
   growth from BAL. Micofungin added [**3-9**], d/c
d [**3-12**].
   - Cultured broadly
   - Vanc/Micafungin d/c
d [**3-13**]
   - PO Vanco & Flagyl for C Diff
   - Sinus CT
  findings could be consistent with sinusitis but
   impossible to say definitively, getting nasal NS
   - Meropenum added back per ID [**3-8**]
 plan for 8 day course of Meropenum
   (Day 6 of 8)
   - Fluid boluses for hypoTN, low UOP
   # C diff sepsis:  now s/p Xigris and IVIG.  Colitis appears improved on
   serial CT scans of the abdomen.  Afebrile. lactate stable
   - d/c Vancomycin retention enemas
   - continue PO Vancomycin via NGT, po flagyl back to IV
   - appreciate ID recs
   - dose IVIG weekly as per ID recs; Q Saturday
   - senna / colace
 make PRN given loose stools
   - Surgery following, CT not concerning, will follow
   - Holding scope although ongoing pain given risk of perforation
   # Respiratory failure:  Developed PNA.  Back on vent for resp distress.
   - Continue vent for now but will try to place on TM with only vent for
   transitioning
   # Pain Management : Still having pain that is difficult to control.
   Discontinued Fentanyl patch and dilaudid IV [**3-9**].  Pain control has
   consistently been a difficult issue, some concern for hypersensitivity
   syndrome.
   - Fentanyl & versed gtt should be transitioned to bolus dosing
   dilaudid PRN
   - Pain consult today
   # Weakness: Likely ICU myopathy [**1-26**] prolonged illness, paralytics.
   - Continue PT/OT & ultimately plan to rehab
   # Anemia:  HCT trending down, stabilized. Neg DIC labs.
   - Trend HCT, transfuse for HCT<21
   - IV PPI [**Hospital1 **]
   - Guaiac stools
   # Renal Failure:  Creat up, likely intravascularly dry but total body
   overloaded. FeUrea <.1, EOS in urine.
   - Albumin PRN, but will not give standing
   - Renally dose meds
   # DM Type I: Developed DKA while here.
   - Now NPO again as gut not working well
   - TPN with insulin
   # Cirrhosis:  chronic HCV infection. Liver consult team following,
   nothing further to do about Bili. Transaminases PRN
   # Hyperbilirubinemia: likely multifactorial from underlying liver
   disease, acute illness, as well as contribution from hemolysis.  No
   biliary ductal dilatation by CT on [**2-26**] or [**3-8**]. Bili appears to be
   rising (from high teens to 22 to 28 to 26).  RUQ u/s w/o
   choledocholithiasis. Per liver [**3-12**], this is due to severe infection,
   and shouldn
t be evaluated further at this time.
   # Line infection:  s/p HD catheter removal on [**2-26**] with catheter tip
   growing ENTEROCOCCUS.  Blood cx NGTD. No growth from PICC.  Daptomycin
   course completed. F/u blood cultures, NGTD so far.
   # FEN:  TF on hold for now  /  continue free H20 bolus /  TPN
   # PPx:   Pneumoboots as DVT prophylaxis / VAP bundle / PPI as GI ppx.
   # Access:
   - A-line re-sited on [**2-24**]
   - PICC placed [**3-4**]
   - R IJ on [**3-10**]
   # Contact: With [**Last Name (LF) 4495**]
, [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo: ICU

2189-03-13 11:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned to PEEP of 5.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-11**] 02:00 PM
   Micafungin - [**2189-3-11**] 06:00 PM
   Metronidazole - [**2189-3-13**] 04:28 AM
   Meropenem - [**2189-3-13**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-3-12**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-13**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 98 (89 - 101) bpm
   BP: 152/69(97) {124/58(79) - 155/74(99)} mmHg
   RR: 47 (6 - 47) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
   CVP: 88 (8 - 138)mmHg
   Total In:
                                                                  2,935 mL
                                                                  1,355 mL
   PO:
   TF:
                                                                     40 mL
   IVF:
                                                                  1,263 mL
                                                                    433 mL
   Blood products:
                                                                    150 mL
                                                                     50 mL
   Total out:
                                                                    913 mL
                                                                    745 mL
   Urine:
                                                                    913 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,022 mL
                                                                    610 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 539 (318 - 618) mL
   PS : 14 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.38/34/87.[**Numeric Identifier 7**]/18/-3
   Ve: 15.9 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, Fixed)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   264 K/uL
   165 mg/dL
   1.5 mg/dL
   18 mEq/L
   5.3 mEq/L
   75 mg/dL
   112 mEq/L
   140 mEq/L
   27.4 %
   16.2 K/uL
        [image002.jpg]
                             [**2189-3-11**]  03:14 AM
                             [**2189-3-11**]  03:33 AM
                             [**2189-3-11**]  02:03 PM
                             [**2189-3-12**]  02:18 AM
                             [**2189-3-12**]  02:28 AM
                             [**2189-3-12**]  03:06 PM
                             [**2189-3-12**]  06:01 PM
                             [**2189-3-12**]  06:06 PM
                             [**2189-3-13**]  03:20 AM
                             [**2189-3-13**]  08:02 AM
   WBC
   11.8
   13.2
   16.2
   Hct
   26.1
   28.3
   26.3
   27.4
   Plt
   [**Telephone/Fax (3) 5271**]
   Cr
   1.7
   1.5
   1.5
   TCO2
   22
   22
   22
   22
   21
   21
   Glucose
   88
   81
   112
   139
   159
   165
   Other labs: PT / PTT / INR:28.9/62.3/2.9, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:43/80, Alk Phos / T Bili:139/26.9,
   Amylase / Lipase:[**10-30**], Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:407
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:333 IU/L, Ca++:8.7
   mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 OLIGURIA/ANURIA
 HYPOGLYCEMIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1. Resp failure:
   -TC trial
   -pain consult, dilaudid IV q3h, hold sedation
   - 6/8 days of meropenem
   2. C. Diff:
   -po vanc/flagyl until at least 2 weeks after meropenem
   3. abd pain: Call GI to consider sigmoidoscopy to r/o dead bowel given
   persistent abd pain despite unchanged CT
   4. FEN: cont. TPN with insulin
   5. Myopathy: Likely from paralytics and critical illness
   -consider PT for ROM
   6. ARF: Possible AIN vs. Intravascularly dry
   -d/c albumin, try to keep I/O even today
   7. DM1: Insulin in TPN
   8. FEN: Try TF 10/h
   d/c po narcan
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-12**] 09:47 PM 62.5 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-10**] 03:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**First Name11 (Name Pattern1) 1516**]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] as
   outlined above, and would add: 42 yo female
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-13**] 04:31 PM ------
   42 yo female with CVID, Hep C, DM I admitted with Cdiff sepsis and
   ARDS/acute respiratory failure.  Her current issues include:
   1. Sepsis: source presumed VAP- vancomycin and mycofungin dc
d with
   unrevealing cultures, plan to complete 8 day total course
   2. Acute respiratory failure: had graduated to TC until her recent
   sepsis. Over the past day we have been able to decrease her PEEP
   requirement. Will plan to wean ventilator support with transition to
   trach collar as tolerated
   3. Cdiff colitis: remains on flagyl/vanco. Abdominal pain remains
   significant- ?GI consult regarding sigmoidoscopy
   4. Acute renal failure: possible component of AIN with urine
   eo
unnecessary abx (vanc/mycof) discontinued, renally dose meds and
   will attempt to keep even today.
   Pt is critically ill. Total time spent on pt: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-13**] 04:43 PM ------

2189-03-14 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TF restarted
   - Transitioned to TM, later noted to be in some resp distress, ABG
   7.26/47/96 --> placed back on 14/5
   - CXR, KUB: no free air
   - BS 40, K 6.2, creat 1.2, treated for hyperK, stopped TPN, started
   insulin gtt and D10 to prevent DKA
   - Notify Renal in AM
   - Lactate 1.3
   - Abd tender but seems to be at baseline
   - ABGs improved back on vent
   - Started lasix gtt to diurese
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-11**] 02:00 PM
   Micafungin - [**2189-3-11**] 06:00 PM
   Meropenem - [**2189-3-13**] 08:03 PM
   Metronidazole - [**2189-3-14**] 04:03 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2189-3-13**] 09:45 PM
   Insulin - Regular - [**2189-3-13**] 09:50 PM
   Furosemide (Lasix) - [**2189-3-13**] 11:45 PM
   Dextrose 50% - [**2189-3-14**] 12:45 AM
   Hydromorphone (Dilaudid) - [**2189-3-14**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-14**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 111 (96 - 121) bpm
   BP: 139/63(87) {120/54(74) - 155/72(97)} mmHg
   RR: 29 (12 - 47) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
    CVP: 16 (13 - 21)mmHg
   Total In:
                                                                  2,989 mL
                                                                    717 mL
   PO:
   TF:
                                                                     33 mL
   IVF:
                                                                    980 mL
                                                                    692 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,260 mL
                                                                    775 mL
   Urine:
                                                                  1,010 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,729 mL
                                                                    -58 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 505 (502 - 632) mL
   PS : 14 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: 7.36/37/103/20/-3
   Ve: 11.8 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Eyes / Conjunctiva: PERRL, icteric
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Rhonchorous: )
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   275 K/uL
   8.4 g/dL
   70 mg/dL
   1.5 mg/dL
   20 mEq/L
   5.8 mEq/L
   80 mg/dL
   110 mEq/L
   140 mEq/L
   24.5 %
   17.3 K/uL
        [image002.jpg]
                             [**2189-3-13**]  08:02 AM
                             [**2189-3-13**]  07:45 PM
                             [**2189-3-13**]  08:36 PM
                             [**2189-3-13**]  09:31 PM
                             [**2189-3-13**]  10:29 PM
                             [**2189-3-14**]  01:50 AM
                             [**2189-3-14**]  03:22 AM
                             [**2189-3-14**]  04:17 AM
                             [**2189-3-14**]  04:30 AM
                             [**2189-3-14**]  05:08 AM
   WBC
   17.6
   17.3
   Hct
   25.5
   24.5
   Plt
   263
   275
   Cr
   1.2
   1.5
   TCO2
   21
   22
   22
   22
   22
   20
   21
   22
   Glucose
   68
   70
   Other labs: PT / PTT / INR:28.1/62.9/2.8, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:32/95, Alk Phos / T Bili:131/30.6,
   Amylase / Lipase:[**10-30**], Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:407
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:353 IU/L, Ca++:9.0
   mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   42 y/o with Common VID, HepC, Type 1 DM, p/w c. diff sepsis, c/b ARDS
   and respiratory failure s/p trach
   # Hyperkalemia: New hyperK in setting of slowly rising creatinine.
   - Stopped TPN with K
   - Treated for hyperK with calcium, bicarb, insulin, dextrose, and
   kayexalate
   -  Renal c/s
   - Send urine studies
   - Lasix for diuresis should help lower K
   # Sepsis: Pt developed fever, new oxygen requirement last week,
   suspected VAP, no growth from BAL. Micofungin added [**3-9**], d/c
d [**3-12**].
   - Cultured broadly
   - Vanc/Micafungin d/c
d [**3-13**]
   - PO Vanco & Flagyl for C Diff
   - Sinus CT
  findings could be consistent with sinusitis but
   impossible to say definitively, getting nasal NS
   - Meropenum added back per ID [**3-8**]
 plan for 8 day course of Meropenum
   (Day 7 of 8 today)
   # C diff sepsis:  now s/p Xigris and IVIG.  Colitis appears improved on
   serial CT scans of the abdomen.  Afebrile. lactate stable
   - d/c Vancomycin retention enemas
   - continue PO Vancomycin via NGT, po flagyl back to IV
   - appreciate ID recs
   - dose IVIG weekly as per ID recs; Q Saturday
   - senna / colace
 make PRN given loose stools
   - Surgery following, CT not concerning, will follow
   - Holding scope although ongoing pain given risk of perforation
   # Respiratory failure:  Developed PNA.  Back on vent for resp distress.
   - Continue vent for now but will try to place on TM with only vent for
   transitioning once acute issues stabilized
   # Pain Management : Still having pain that is difficult to control.
   Discontinued Fentanyl patch and dilaudid IV [**3-9**].  Pain control has
   consistently been a difficult issue, some concern for hypersensitivity
   syndrome.
   - Fentanyl & versed gtt should be transitioned to bolus dosing
   dilaudid PRN
   - Pain consult recs appreciated
   # Weakness: Likely ICU myopathy [**1-26**] prolonged illness, paralytics.
   - Continue PT/OT & ultimately plan to rehab
   # Anemia:  HCT trending down, stabilized. Neg DIC labs.
   - Trend HCT, transfuse for HCT<21
   - IV PPI [**Hospital1 **]
   - Guaiac stools
   # Renal Failure:  Creat up, likely intravascularly dry but total body
   overloaded. FeUrea <.1, EOS in urine.
   - Albumin PRN, but will not give standing
   - Renally dose meds
   - Renal c/s today, ? need for CVVH given hyperK
   # DM Type I: Developed DKA while here.
   - Now NPO again as gut not working well
   - TPN with insulin
   # Cirrhosis:  chronic HCV infection. Liver consult team following,
   nothing further to do about Bili. Transaminases PRN
   # Hyperbilirubinemia: likely multifactorial from underlying liver
   disease, acute illness, as well as contribution from hemolysis.  No
   biliary ductal dilatation by CT on [**2-26**] or [**3-8**]. Bili appears to be
   rising (from high teens to 22 to 28 to 26).  RUQ u/s w/o
   choledocholithiasis. Per liver [**3-12**], this is due to severe infection,
   and shouldn
t be evaluated further at this time.
   # Line infection:  s/p HD catheter removal on [**2-26**] with catheter tip
   growing ENTEROCOCCUS.  Blood cx NGTD. No growth from PICC.  Daptomycin
   course completed. F/u blood cultures, NGTD so far.
   # FEN:  TF on hold for now  /  continue free H20 bolus /  TPN
   # PPx:   Pneumoboots as DVT prophylaxis / VAP bundle / PPI as GI ppx.
   # Access:
   - A-line re-sited on [**2-24**]
   - PICC placed [**3-4**]
   - R IJ on [**3-10**]
   # Contact: With [**Last Name (LF) 4495**]
, [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo: ICU
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin gtt
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-10**] 03:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2189-03-14 10:19:00 Physician Attending Progress Note
24 Hour Events:
   Overnight she was attempted on trachmask, but did not tolerate
   secondary to tachypnea and acute respiratory acidosis (superimposed
   upon a metabolic acidosis likely secondary to renal failure).  She was
   placed back on PSV 14/5 and Fio2 0.5 with improvement in her
   respiratory acidosis.
   Also, she developed worsening renal failure and hyperkalemia. Her TPN
   was discontinued because it contained potassium; was therefor started
   on insulin gtt and dextrose because of history of DKA.  She remained
   hyperkalemic, and renal was consulted this morning.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-11**] 02:00 PM
   Micafungin - [**2189-3-11**] 06:00 PM
   Metronidazole - [**2189-3-14**] 04:03 AM
   Meropenem - [**2189-3-14**] 08:01 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2189-3-13**] 09:45 PM
   Insulin - Regular - [**2189-3-13**] 09:50 PM
   Furosemide (Lasix) - [**2189-3-13**] 11:45 PM
   Dextrose 50% - [**2189-3-14**] 12:45 AM
   Hydromorphone (Dilaudid) - [**2189-3-14**] 07:00 AM
   Other medications:
   Vancomycin PO
   PPI
   Chlorhexidine
   Metoclopramide
   Meropenem
   Lasix drip at 1mg/hr
   Insulin drip
   Changes to medical and family history:
   No change from admission.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-14**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 107 (98 - 121) bpm
   BP: 116/52(72) {116/52(72) - 152/72(97)} mmHg
   RR: 16 (12 - 47) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
   CVP: 12 (12 - 21)mmHg
   Total In:
                                                                  2,989 mL
                                                                    918 mL
   PO:
   TF:
                                                                     33 mL
   IVF:
                                                                    980 mL
                                                                    893 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,260 mL
                                                                    920 mL
   Urine:
                                                                  1,010 mL
                                                                    910 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  1,729 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 447 (447 - 632) mL
   PS : 14 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.39/34/91/20/-3
   Ve: 16.9 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Gen: chronically ill appearing, remains on ventilator via trach
   Chest: Diffusely course breath sounds, crackles at bilateral bases;
   scattered wheeze with right>L
   Cardiac: regular, tachy; no appreciable murmurs
   Abd: distended, tense; evidence of ascites; tender to palpation.
   Ext: anasarca
   Neurologic: Responds to commands, tearful; in pain.
   Labs / Radiology
   8.4 g/dL
   275 K/uL
   70 mg/dL
   1.5 mg/dL
   20 mEq/L
   5.5 mEq/L
   80 mg/dL
   110 mEq/L
   140 mEq/L
   24.5 %
   17.3 K/uL
        [image002.jpg]
                             [**2189-3-13**]  07:45 PM
                             [**2189-3-13**]  08:36 PM
                             [**2189-3-13**]  09:31 PM
                             [**2189-3-13**]  10:29 PM
                             [**2189-3-14**]  01:50 AM
                             [**2189-3-14**]  03:22 AM
                             [**2189-3-14**]  04:17 AM
                             [**2189-3-14**]  04:30 AM
                             [**2189-3-14**]  05:08 AM
                             [**2189-3-14**]  08:07 AM
   WBC
   17.6
   17.3
   Hct
   25.5
   24.5
   Plt
   263
   275
   Cr
   1.2
   1.5
   TCO2
   22
   22
   22
   22
   20
   21
   22
   21
   Glucose
   68
   70
   Other labs: PT / PTT / INR:28.1/62.9/2.8, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:32/95, Alk Phos / T Bili:131/30.6,
   Amylase / Lipase:[**10-30**], Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:407
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:353 IU/L, Ca++:9.0
   mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   58F with multiple comorbidities and long ICU course complicated by
   cdiff, persistent respiratory failure, VAP; now has worsening renal
   failure and hyperkalemia.
   1.       Renal Failure: Most immediate issue is her renal failure given
   evidence of gross volume overload and hyperkalemia.  Cause unclear, but
   suspect related to antibiotics (was on vancomycin and micafungin
   previously).  Renal consult is pending.
   -          Renal consult pending for consideration of renal replacement
   therapy.
   -          Continue lasix drip for time being.
   -          Will need urine lytes, urine eos, sediment.
   2.       Respiratory Failiure:  Yesterday did not tolerate trach mask
   secondary to hypoxic and hypercarbic respiratory failure.  Suspect
   underlying issue is volume overload given evidence of total body
   overload and CXR consistent with pulmonary edema.  She also has history
   of obstructive lung disease.
   3.       Cdiff/Sepsis: Resolving cdiff colitis.  Abdomen remains
   distended, unclear if worse than recent baseline.  She is
   hemodynamically stable.  Remains on treatment with metronidazole and
   oral vancomycin.
   -          Continue antibiotics; no change in hemodynamics; no fevers
   -          Will continue to monitor clinically, hold on repeat
   abdominal CT for time being.
   4.       Abdominal pain: Perhaps mildly worse than previously. Her KUB
   does not reveal an acute process on a limited study.  Suspect volume
   overload and ascites.
   -          Check amylase/lipase given TPN
   -          Treat with dilaudid per pain service
   5.       Anemia: HCT 24; will monitor
   6.       Endocrine: history of DKA; most recent glucose < 70.   Will
   plan to restart TPN without potassium provided normal amylase/lipase.
   7.       GI: persistent hyperbilirubinemia in setting of critical
   illness and severe infection.  Has been evaluated by Liver service.
   ICU Care
   Nutrition:  Plan to restart TPN today without potassium
   Comments: Currently holding TPN for hyperkalemia
   Glycemic Control:  Currently on insulin drip; holding for hypoglycemia.
   Can stop once restart TPN with glucose.
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-10**] 03:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   I was physically present with the housestaff and examined the patient
   on this date
I agree with the above note including that assessment and
   plan and would add the following comments.
   Patient is 42 yo female with prolonged hospital course with initial
   trigger of C. Diff Colitis but now with concern for volume overload and
   hyperkalemia  as relates to continued impaired renal function and
   inability to tolerate trach mask trial, perhaps in large part driven by
   volume overload driving hypoxemia and mild metabolic alkalosis driving
   increased ventilatory demand.
   On exam
patient responsive to voice and answers questions
   appropriately.
   Lungs
Decreased and distant breath sounds
   Abdomen
Very tender to palpation without rebound but very brisk grimace
   with palpation.
   In addition to above will
   -Continue with diuresis with Lasix
   -If unable to effect substantially negative fluid balance over next 24
   hours will need to consider ultrafiltration to aid in mobilization of
   volume
   -Hyperkalemia to be managed as above
   -Abdominal exam is consistent with significant tenderness and KUB as
   reviewed showed NGT in good position and no free air
will follow exam
   Critical Care Time-35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-14**] 14:45 ------

2189-03-15 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis
   24 Hour Events:
   - urine lytes: FeNa 1.8%, FeUrea 33%, TTKG 7.8 (no hypoaldo)
   - renal consult: continue with furosemide trial; might need CVVH
   tomorrow
   - received IVIG 25 gm x 1
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2189-3-14**] 08:04 PM
   Metronidazole - [**2189-3-15**] 03:57 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2189-3-15**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth, OG / NG tube
   Cardiovascular: Edema
   Nutritional Support: NPO, Tube feeds, Parenteral nutrition
   Gastrointestinal: Abdominal pain, Diarrhea
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia, Coagulopathy
   Flowsheet Data as of  [**2189-3-15**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 117 (107 - 118) bpm
   BP: 135/63(86) {88/34(52) - 138/64(88)} mmHg
   RR: 34 (14 - 41) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
    CVP: 19 (12 - 22)mmHg
   Total In:
                                                                  2,424 mL
                                                                    769 mL
   PO:
   TF:
   IVF:
                                                                  1,736 mL
                                                                    280 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  1,700 mL
                                                                    640 mL
   Urine:
                                                                  1,590 mL
                                                                    640 mL
   NG:
                                                                     10 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    724 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 577 (447 - 619) mL
   PS : 14 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.36/33/128/19/-5
   Ve: 15 L/min
   PaO2 / FiO2: 256
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Distended, Tender: diffusely
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   257 K/uL
   7.9 g/dL
   76 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.8 mEq/L
   87 mg/dL
   109 mEq/L
   137 mEq/L
   23.7 %
   15.9 K/uL
        [image002.jpg]
                             [**2189-3-14**]  01:50 AM
                             [**2189-3-14**]  03:22 AM
                             [**2189-3-14**]  04:17 AM
                             [**2189-3-14**]  04:30 AM
                             [**2189-3-14**]  05:08 AM
                             [**2189-3-14**]  08:07 AM
                             [**2189-3-14**]  04:00 PM
                             [**2189-3-14**]  04:12 PM
                             [**2189-3-14**]  05:30 PM
                             [**2189-3-15**]  04:21 AM
   WBC
   17.3
   15.9
   Hct
   24.5
   23.5
   23.7
   Plt
   275
   257
   Cr
   1.5
   2.1
   1.8
   TCO2
   22
   20
   21
   22
   21
   19
   Glucose
   70
   100
   76
   Other labs: PT / PTT / INR:28.1/62.9/2.8, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:32/95, Alk Phos / T Bili:131/30.6,
   Amylase / Lipase:15/15, Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:407
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:353 IU/L, Ca++:8.8
   mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   42 y/o with Common VID, HepC, Type 1 DM, p/w c. diff sepsis, c/b ARDS
   and respiratory failure s/p trach
   # Hyperkalemia: New hyperK in setting of slowly rising creatinine.
   - Stopped TPN with K
   - Treated for hyperK with calcium, bicarb, insulin, dextrose, and
   kayexalate
 DO NOT give further kayexylate
   -  Renal c/s
   - Send urine studies
   - Lasix for diuresis should help lower K
   # Sepsis: Pt developed fever, new oxygen requirement last week,
   suspected VAP, no growth from BAL. Micofungin added [**3-9**], d/c
d [**3-12**].
   Meropenum added back per ID [**3-8**]
 plan for 8 day course of Meropenum.
   Vanc/Micafungin d/c
d [**3-13**]. Sinus CT findings could be consistent with
   sinusitis but impossible to say definitively, getting nasal NS.
   - Cultured broadly
   - PO Vanco & Flagyl for C Diff
   - last day meropenem
   # C diff sepsis:  now s/p Xigris and IVIG.  Colitis appears improved on
   serial CT scans of the abdomen.  Afebrile. lactate stable
   - d/c Vancomycin retention enemas
   - continue PO Vancomycin via NGT, po flagyl back to IV
   - appreciate ID recs
   - dose IVIG weekly as per ID recs; Q Saturday
   - senna / colace
 make PRN given loose stools
   - Surgery following, CT not concerning, will follow
   - Holding scope although ongoing pain given risk of perforation
   # Respiratory failure:  Developed PNA.  Back on vent for resp distress.
   - Continue vent for now but will try to place on TM with only vent for
   transitioning once acute issues stabilized
   # Pain Management : Still having pain that is difficult to control.
   Discontinued Fentanyl patch and dilaudid IV [**3-9**].  Pain control has
   consistently been a difficult issue, some concern for hypersensitivity
   syndrome.
   - Fentanyl & versed gtt should be transitioned to bolus dosing
   dilaudid PRN
   - Pain consult recs appreciated
   # Weakness: Likely ICU myopathy [**1-26**] prolonged illness, paralytics.
   - Continue PT/OT & ultimately plan to rehab
   # Anemia:  HCT trending down, stabilized. Neg DIC labs.
   - Trend HCT, transfuse for HCT<21
   - IV PPI [**Hospital1 **]
   - Guaiac stools
   # Renal Failure:  Creat up, likely intravascularly dry but total body
   overloaded. FeUrea <.1, EOS in urine.
   - Albumin PRN, but will not give standing
   - Renally dose meds
   - Renal c/s today, ? need for CVVH given hyperK
   # DM Type I: Developed DKA while here.
   - Now NPO again as gut not working well
   - TPN with insulin
   # Cirrhosis:  chronic HCV infection. Liver consult team following,
   nothing further to do about Bili. Transaminases PRN
   # Hyperbilirubinemia: likely multifactorial from underlying liver
   disease, acute illness, as well as contribution from hemolysis.  No
   biliary ductal dilatation by CT on [**2-26**] or [**3-8**]. Bili appears to be
   rising (from high teens to 22 to 28 to 26).  RUQ u/s w/o
   choledocholithiasis. Per liver [**3-12**], this is due to severe infection,
   and shouldn
t be evaluated further at this time.
   # Line infection:  s/p HD catheter removal on [**2-26**] with catheter tip
   growing ENTEROCOCCUS.  Blood cx NGTD. No growth from PICC.  Daptomycin
   course completed. F/u blood cultures, NGTD so far.
   # FEN:  TF on hold for now  /  continue free H20 bolus /  TPN
   # PPx:   Pneumoboots as DVT prophylaxis / VAP bundle / PPI as GI ppx.
   # Access:
   - A-line re-sited on [**2-24**]
 will d/c today
   - PICC placed [**3-4**]
   - R IJ on [**3-10**]
   # Contact: With [**Last Name (LF) 4495**]
, [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-14**] 05:52 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-10**] 03:35 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2189-03-15 10:26:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Seen by renal yesterday suggested continued lasix drip for volume
   overload and hyperkalemia.  Was febrile overnight to 100.0.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2189-3-15**] 03:57 AM
   Meropenem - [**2189-3-15**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-3-15**] 08:00 AM
   Hydromorphone (Dilaudid) - [**2189-3-15**] 09:06 AM
   Other medications:
   Vancomycin PO
   Chlorhexedine
   flagyl
   Reglan
   Meropenem
   Lasix drip 3mg/hr
   Hydromorphone
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-15**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 117 (107 - 120) bpm
   BP: 122/54(76) {88/34(52) - 141/63(89)} mmHg
   RR: 31 (14 - 41) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
   CVP: 13 (13 - 22)mmHg
   Total In:
                                                                  2,424 mL
                                                                  1,079 mL
   PO:
   TF:
   IVF:
                                                                  1,736 mL
                                                                    421 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  1,700 mL
                                                                    830 mL
   Urine:
                                                                  1,590 mL
                                                                    820 mL
   NG:
                                                                     10 mL
                                                                     10 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    724 mL
                                                                    249 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 389 (389 - 619) mL
   PS : 14 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.36/33/128/19/-5
   Ve: 16.4 L/min
   PaO2 / FiO2: 256
   Physical Examination
   Gen: remains on vent via trach; awakens to voice, attempts to follow
   commands
   Chest: diffuse rhonchi; wheeze at the left base
   CV: RRR without murmur
   Abd: distended/mildly tender; improved from yesterday
   Ext: anasarca
   Labs / Radiology
   7.9 g/dL
   257 K/uL
   76 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.8 mEq/L
   87 mg/dL
   109 mEq/L
   137 mEq/L
   23.7 %
   15.9 K/uL
        [image002.jpg]
                             [**2189-3-14**]  01:50 AM
                             [**2189-3-14**]  03:22 AM
                             [**2189-3-14**]  04:17 AM
                             [**2189-3-14**]  04:30 AM
                             [**2189-3-14**]  05:08 AM
                             [**2189-3-14**]  08:07 AM
                             [**2189-3-14**]  04:00 PM
                             [**2189-3-14**]  04:12 PM
                             [**2189-3-14**]  05:30 PM
                             [**2189-3-15**]  04:21 AM
   WBC
   17.3
   15.9
   Hct
   24.5
   23.5
   23.7
   Plt
   275
   257
   Cr
   1.5
   2.1
   1.8
   TCO2
   22
   20
   21
   22
   21
   19
   Glucose
   70
   100
   76
   Other labs: PT / PTT / INR:28.1/62.9/2.8, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:32/95, Alk Phos / T Bili:131/30.6,
   Amylase / Lipase:15/15, Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:407
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:353 IU/L, Ca++:8.8
   mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Imaging: No new CXR today
   Microbiology: No new data
   Assessment and Plan
   58F with multiple comorbidities and long ICU course complicated by
   cdiff, persistent respiratory failure, VAP; yesterday with worsening
   renal failure and hyperkalemia, now trending towards improvement.
   1.       Renal Failure: Cr down today at 1.8 and K 4.8.
    - Will aim for TBB negative 500 to 1L today; aim for UOP of 100cc/hr;
   adjust rate as necessary
    - No kayexalate given risk of bowel perforation with colitis
    - No clear indication for renal replacement at this point with
   improved potassium. Appreciate renal input.
   2.       Respiratory Failiure:  Yesterday did not tolerate trach mask
   secondary to hypoxic and hypercarbic respiratory failure.  Suspect
   underlying issue is volume overload given evidence of total body
   overload and CXR consistent with pulmonary edema.  She also has history
   of obstructive lung disease.
    - continue diuresis, bronchodilators. Can trial of TM when more
   euvolemic.
   3.       Cdiff/Sepsis: Resolving cdiff colitis.  Abdomen remains
   distended, unclear if worse than recent baseline.  She is
   hemodynamically stable.  Remains on treatment with metronidazole and
   oral vancomycin.
   -          Continue antibiotics; no change in hemodynamics; no fevers
   -          Will continue to monitor clinically, hold on repeat
   abdominal CT for time being.
   4.       Abdominal pain: Perhaps mildly worse than previously. Her KUB
   does not reveal an acute process on a limited study.  Suspect volume
   overload and ascites. Pain better today. Amylase and lipase negative
   yesterday.
   -          Treat with dilaudid per pain service
   5.  VAP: completes meropenem today. Still with low-grade temps, but
   leukocytosis is improving
   6.       Coagulopathy: possibly in setting of liver dysfunction and
   critical illness; also INR 2.8 but stable.
    - continue to follow; not actively bleeding so no indication for
   replacement.
   7.       GI: persistent hyperbilirubinemia in setting of critical
   illness and severe infection.  Has been evaluated by Liver service.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-14**] 05:52 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-2-24**] 09:29 PM
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-10**] 03:35 PM
   Prophylaxis:
   DVT:  boots; coagulopathic so no heparin
   Stress ulcer: PPI
   VAP:  mouth care, HOB
   Code status: Full code
   Disposition : ICU
   Total time spent: 35minutes
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.

2189-03-16 10:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Urinating well on lasix gtt. K improved.
 ARTERIAL LINE - STOP [**2189-3-15**] 03:00 PM
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2189-3-15**] 04:17 PM
   Metronidazole - [**2189-3-16**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2189-3-15**] 06:00 PM
   Dextrose 50% - [**2189-3-16**] 04:10 AM
   Pantoprazole (Protonix) - [**2189-3-16**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-16**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 103 (103 - 117) bpm
   BP: 127/48(67) {115/42(61) - 158/60(81)} mmHg
   RR: 16 (16 - 44) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
   CVP: 11 (11 - 18)mmHg
   Total In:
                                                                  2,470 mL
                                                                  1,031 mL
   PO:
   TF:
   IVF:
                                                                    879 mL
                                                                    344 mL
   Blood products:
   Total out:
                                                                  2,665 mL
                                                                  1,520 mL
   Urine:
                                                                  2,580 mL
                                                                  1,520 mL
   NG:
                                                                     10 mL
   Stool:
                                                                     75 mL
   Drains:
   Balance:
                                                                   -195 mL
                                                                   -489 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 579 (488 - 619) mL
   PS : 14 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///15/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely)
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   211 K/uL
   50 mg/dL
   1.5 mg/dL
   15 mEq/L
   3.5 mEq/L
   81 mg/dL
   114 mEq/L
   141 mEq/L
   20.9 %
   14.7 K/uL
        [image002.jpg]
                             [**2189-3-14**]  04:17 AM
                             [**2189-3-14**]  04:30 AM
                             [**2189-3-14**]  05:08 AM
                             [**2189-3-14**]  08:07 AM
                             [**2189-3-14**]  04:00 PM
                             [**2189-3-14**]  04:12 PM
                             [**2189-3-14**]  05:30 PM
                             [**2189-3-15**]  04:21 AM
                             [**2189-3-15**]  05:01 PM
                             [**2189-3-16**]  03:43 AM
   WBC
   17.3
   15.9
   14.7
   Hct
   24.5
   23.5
   23.7
   20.9
   Plt
   275
   257
   211
   Cr
   1.5
   2.1
   1.8
   1.2
   1.5
   TCO2
   21
   22
   21
   19
   Glucose
   70
   100
   76
   60
   50
   Other labs: PT / PTT / INR:37.5/90.3/4.0, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:19/83, Alk Phos / T Bili:109/28.5,
   Amylase / Lipase:15/15, Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:407
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:319 IU/L, Ca++:7.3
   mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   Plan:
   1. ARF: Possible AIN vs. ATN
   -cont. lasix gtt
   -concentrate meds
   -goal 1-2L neg
   2. Resp failure: Appears fluid overloaded
   -diurese, cont. PS for today
   3. C diff: Has BS today
   -restart TF
   -cont. po vanco and IV falgyl
   4. Pain: Getting IV dilaudid prn
   -pain controlled currently
   5. ICU myopathy:
   -PT for ROM exercises
   6. Anemia: AOCD, no evidence of active bleeding
   -follow hct
   -if stays below 21% will transfuse
   7. Hyperbili/coagulopathy: stable likely from cirrhosis/TPN/recent
   sepsis
   -follow bili
   -recheck DIC labs
   -give IV vit K
   8. FEN: -decrease insulin in TPN
   -restart TF
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-15**] 05:51 PM 62.5 mL/hour
   Glycemic Control:  Blood sugar well controlled, Insulin in TPN
   Lines:
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-10**] 03:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of services provided. Despite good urine output with a
   lasix gtt, net fluid balance has been even with diffuse bilateral
   infiltrates on CXR and continued need for ventilatory support. Problems
   include:
   1. Acute renal failure from ATN vs AIN
increasing lasix gtt today and
   concentrating IV intake
   2. Acute respiratory failure: comfortable on PSV (PS 14); likely needs
   additional fluid off before able to make significant progress on
   weaning vent
   3. Cdiff colitis: on flagyl/vanco
   4. Coagulopathy: INR
s had been mostly unchanged but have increased
   over the past 1-2 days- concerning for worsening liver fx though could
   represent malnutrtion. Have challenged with vit K and will f/u INR.
   Pt is critically ill. Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-16**] 12:37 ------

2189-03-17 11:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues on lasix gtt. Smaal amount vaginal bleeding.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2189-3-15**] 04:17 PM
   Metronidazole - [**2189-3-17**] 04:32 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-3-17**] 08:00 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2189-3-17**] 10:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-17**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 106 (96 - 108) bpm
   BP: 111/43(60) {111/43(60) - 133/55(74)} mmHg
   RR: 25 (17 - 54) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
   CVP: 12 (5 - 23)mmHg
   Total In:
                                                                  1,973 mL
                                                                    598 mL
   PO:
   TF:
                                                                     90 mL
                                                                    201 mL
   IVF:
                                                                    683 mL
                                                                    347 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                  1,285 mL
   Urine:
                                                                  2,930 mL
                                                                  1,240 mL
   NG:
                                                                     45 mL
   Stool:
   Drains:
   Balance:
                                                                   -957 mL
                                                                   -687 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 487 (487 - 588) mL
   PS : 14 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///14/
   Ve: 13.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : diffuse, Wheezes : exp)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   205 K/uL
   199 mg/dL
   1.5 mg/dL
   14 mEq/L
   2.9 mEq/L
   91 mg/dL
   110 mEq/L
   139 mEq/L
   22.1 %
   15.3 K/uL
        [image002.jpg]
                             [**2189-3-14**]  05:08 AM
                             [**2189-3-14**]  08:07 AM
                             [**2189-3-14**]  04:00 PM
                             [**2189-3-14**]  04:12 PM
                             [**2189-3-14**]  05:30 PM
                             [**2189-3-15**]  04:21 AM
                             [**2189-3-15**]  05:01 PM
                             [**2189-3-16**]  03:43 AM
                             [**2189-3-16**]  03:16 PM
                             [**2189-3-17**]  04:53 AM
   WBC
   15.9
   14.7
   17.6
   15.3
   Hct
   23.5
   23.7
   20.9
   24.6
   22.1
   Plt
   257
   211
   234
   205
   Cr
   2.1
   1.8
   1.2
   1.5
   2.6
   1.5
   TCO2
   22
   21
   19
   Glucose
   100
   76
   60
   50
   66
   199
   Other labs: PT / PTT / INR:33.0/83.3/3.4, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:17/77, Alk Phos / T Bili:113/28.3,
   Amylase / Lipase:15/15, Differential-Neuts:85.6 %, Band:0.0 %,
   Lymph:10.5 %, Mono:3.4 %, Eos:0.3 %, D-dimer:6342 ng/mL, Fibrinogen:249
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:306 IU/L, Ca++:7.2
   mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   Plan:
   1. C. Diff sepsis: Meropenem for 8 days for VAP, cont. vanco/flagyl
   -abd pain slightly improved
   -cont. TF
   2. Resp:
   -Diurese 1-2L
   -[**Month (only) 453**] FiO2 to 0.4
   -drop PS to 10
   3. ARF: Possible ATN
   -diuril in addition to lasix gtt
   -goal neg 1-2L
   -check Fe studies
   -possible epogen
   -check pm lytes as HCO3 is dropping
   4. Hyperbili/coagulopathy:
   -stable, suspect [**1-26**] sepsis
   -given vit K
   -follow fibrinogen
   5. DM1/DKA: Increase insulin in TPN
   -make SS more aggressive
   6. FEN: Cont. TPN and TF
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2189-3-17**] 06:40 AM 20 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-10**] 03:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and agree with the ICU team for the key
   portions of the services provided. I would add: 42 yo female with
   cirrhosis admitted with severe Cdiff colitis/sepsis; acute issues of
   acute respiratory failure on PSV, acute renal failure (ATN/sepsis, +/-
   component of ATN). Diuresed some with lasix infusion, but still with
   diffuse infiltrates on CXR and has not tolerated TC trials. Plan to
   finish course of Merepenem for ?VAP, diuresis with lasix/diuril, wean
   ventilator as able.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2189-3-17**] 17:40 ------

2189-03-26 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2189-3-25**] 12:00 PM
   Urine,stool,sputum
 BLOOD CULTURED - At [**2189-3-25**] 12:20 PM
 EKG - At [**2189-3-25**] 11:15 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2189-3-26**] 12:02 AM
   150J
 CARDIOVERSION/DEFIBRILLATION - At [**2189-3-26**] 01:38 AM
   24 Hour Events:
   She was restarted on CVVH during the afternoon after being off for 8
   hours
   TPN was d/c'd as she was at goal on her tube feedings
   Started long acting insulin, glargine 15 units SQ (was on [**Hospital1 **] glargine
   as outpatient)
   temp up to 100.8, blood cultures sent
   Around midnight she went into SVT at 150bpm Aflutter/fib and dropped
   her pressure to systolic 80's in the setting of CVVH at 200 ml/hr.  She
   was given IVF bolus of 1.5L total with no improvement.  SBP's further
   dropped to the 70's systolic, she was briefly started on levophed while
   preparing to cardiovert and she was cardioverted with 150 Joules x1
   with conversion to NSR.  Levophed was d/c'd immediately following
   cardioversion.  After 1.5 hours she again went into afib/flutter and
   dropped her blood pressure.  She was given amiodarone bolus of 150mg
   and started on a drip and again cardioverted with 150 J.  She had
   several short episodes of recurrant afib/flutter and dips in her blood
   pressure to MAP's 45-50.  She was briefly restarted on levophed however
   this was discontinued due to recurrant afib.  She was then given 100mg
   albumin with stabilization of her BP with MAP's in the 50's.
   Allergies:
   Aspirin
   rectal bleeding
   Penicillins
   Rash; Hives;
   Sulfonamides
   aseptic menigi
   Biaxin (Oral) (Clarithromycin)
   Diarrhea;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Cefzil (Oral) (Cefprozil)
   Rash;
   Motrin (Oral) (Ibuprofen)
   aseptic meningi
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2189-3-23**] 08:34 AM
   Fluconazole - [**2189-3-23**] 08:00 PM
   Meropenem - [**2189-3-26**] 12:00 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Amiodarone - 1 mg/min
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-3-25**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2189-3-25**] 08:00 PM
   Midazolam (Versed) - [**2189-3-26**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-26**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.2
C (97.1
   HR: 72 (72 - 160) bpm
   BP: 92/48(63) {62/27(42) - 121/58(78)} mmHg
   RR: 24 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 64 kg
   Height: 64 Inch
    CVP: 26 (8 - 26)mmHg
   Total In:
                                                                  8,700 mL
                                                                  2,139 mL
   PO:
   TF:
                                                                  1,464 mL
                                                                     66 mL
   IVF:
                                                                  5,636 mL
                                                                  1,579 mL
   Blood products:
                                                                    373 mL
   Total out:
                                                                  6,551 mL
                                                                    542 mL
   Urine:
                                                                    254 mL
                                                                     82 mL
   NG:
   Stool:
   Drains:
                                                                  1,195 mL
                                                                    460 mL
   Balance:
                                                                  2,149 mL
                                                                  1,597 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 450 (402 - 450) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   SpO2: 97%
   ABG: 7.38/38/110/20/-1
   Ve: 8 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: jaundiced, anasarca, intubated and sedated,
   tremulous with stimulation
   Eyes / Conjunctiva: PERRL, conjunctival icterus
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: RRR s1 s2 no appreciable murmur
   Lungs: vented breath sounds, decreased BS at the bases, no wheezing
   Peripheral Vascular: extremities warm, pitting edema throughout upper
   and lower extremities
   Abdominal: distended, Soft, grimaces with palpation, no peritoneal
   signs, positive bowel sounds, prior paracentesis site continues to
   drain high volume of ascites fluid
   Skin:  Jaundice, no bleeding
   Neurologic: opens eyes to voice, tremulous with stimulous,
   intermittently makes eye contact
   [**Name (NI) 358**] / Radiology
   83 K/uL
   9.0 g/dL
   227 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.7 mEq/L
   37 mg/dL
   104 mEq/L
   139 mEq/L
   26.0 %
   24.1 K/uL
        [image002.jpg]
                             [**2189-3-25**]  05:29 PM
                             [**2189-3-25**]  09:49 PM
                             [**2189-3-25**]  10:10 PM
                             [**2189-3-25**]  11:30 PM
                             [**2189-3-25**]  11:34 PM
                             [**2189-3-26**]  01:18 AM
                             [**2189-3-26**]  02:08 AM
                             [**2189-3-26**]  02:16 AM
                             [**2189-3-26**]  03:51 AM
                             [**2189-3-26**]  04:01 AM
   WBC
   22.6
   24.1
   Hct
   27.6
   26.0
   Plt
   71
   83
   Cr
   0.6
   0.6
   0.5
   TCO2
   29
   30
   23
   22
   24
   23
   Glucose
   194
   176
   246
   227
   Other [**Year (4 digits) **]: PT / PTT / INR:34.4/101.4/3.6, CK / CKMB /
   Troponin-T:19//0.05, ALT / AST:51/152, Alk Phos / T Bili:122/34.9,
   Amylase / Lipase:15/26, Differential-Neuts:93.0 %, Band:1.0 %,
   Lymph:3.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6342 ng/mL, Fibrinogen:175
   mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.9 g/dL, LDH:307 IU/L,
   Ca++:10.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 OLIGURIA/ANURIA
 HYPOGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 ALTERATION IN NUTRITION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   42 y/o with Common VID, HepC cirrhosis/ESLD, h/o cryptosporidium in the
   past, Type 1 DM, presenting with c. diff sepsis, c/b ARDS and
   respiratory failure s/p trach, as well as pseudomonal VAP and [**Female First Name (un) 474**],
   now with ARF on CVVH
   # Sepsis/Infection:  Initially presented with C.diff sepsis now s/p
   Xigris and IVIG.  Her colitis appeared improved on serial CT scans of
   the abdomen.  She has remained afebrile with stable lactate.   Scope
   was deferred due to risk of perforation.  She then developed fever,
   respiratory distress, and concern for VAP.  Initial BAL neg but treated
   with meropenem [**3-8**] x8 days.  Sputum cx on [**3-18**] grew pseudomonas.  She
   was restarted on meropenem, vanco D/Cd [**3-13**].  Micofungin added [**3-9**],
   d/c
d [**3-12**].  Sinus CT findings raised concern for  sinusitis but was
   impossible to say definitively, getting nasal NS.   WBC also started to
   increase from 22 to 34 but remained afebrile.  Cultured broadly, so far
   negative except [**Female First Name (un) 474**] in urinet.   CT abdomen/pelvic [**3-19**] was
   unremarkable.   Paracentesis [**3-19**] unremarkable.
   Now patient is stable on broad antimicrobials, being treated for her C.
   diff, pseudomonal VAP, as well as urinary [**Female First Name (un) 474**]/thrush.  She remains
   afebrile off pressors.
   - C. diff colitis: Cont PO Vanco for C.diff (Flagyl D/Cd due to
   thrombocytopenia) -> cont to 2wks after completing other antbx
   - Pseudomonal VAP: Cont meropenem x15 days through [**4-2**] (d1=[**3-19**]).  Was
   on vanco initially though stopped [**3-21**].
   - Thrush/[**Female First Name (un) 474**]: received about 3 days of IV fluconazole -> D/C
d [**3-24**]
   - Cont to trend WBC, fever curve -> re-consider infectious sources if
   leukocytosis cont to worsen
   - Cont to consider pulling PICC, CVL if cont to improve
   - s/p paracentecis (therepeutic / diagnostic) completed [**3-19**]; cultures
   negative
   - Appreciate ID recs:  dose IVIG weekly Q Saturday
   - check SPEP on [**2189-3-27**]
   - On trophic TFs
   - Surgery following rrom distance: CT [**3-19**] unremarkable
   - follow bladder pressures ([**3-18**] was 18
 [**3-19**] s/p paracentesis down
   to 4)
   # Respiratory failure:  Stable.  Likely related to sepsis and
   pneumonia.  Given deconditioning, it likely resulted in failure to
   wean.  Now s/p trach.  Intermittently becomes agitated on the vent.
   Oxygenating well.  ABGs stable.
   - Continue vent for now; try to place on TM with only vent for
   transitioning once acute issues stabilized
   - Wean FIO2 prn
   - Attempted diuresis [**3-20**], now on CVVH -> MAP 55 acceptable
   - Trial of pressure support for comfort prn
   # Mental status: Was somewhat decreased over the last few days, with
   concern for new infection given abx stopped on [**3-15**]. CT head [**3-19**] w/o
   acute process.  Likely some component of hepatic / toxic metabolic
   encephalopathy as was not getting lactulose.  Unchanged today.
   - Limit sedating meds; treat infection as above
   - CVVH per Renal to potentially clear uremia
   - Starting lactulose today
   .
   # SVT- likely volume and electrolytes changes related vs MOSD
   - s/p CV
   - amiodarone gtt, no clear guidelines for liver disease
   - will continue amio loading for now given unclear trigger
   - decrease amount of volume removal on CVVH given this was possible
   trigger
   .
   # Renal Failure:  Likely HRS vs ATN or severe pre-renal, though total
   body overloaded. FeUrea <.1, EOS in urine.  ? related to Vanco and [**Last Name (un) 350**]
   though unclear.  Hyperkalemic [**3-13**] treated for hyperK with calcium,
   bicarb, insulin, dextrose, and kayexalate. Checked 4h CrCl on [**3-16**]
   which was 22 (very poor).
   - Appreciate Renal c/s,  started CVVH [**3-21**] -> held for 8hrs today, will
   resume afterwards
   - Albumin PRN, but will not give standing
   - Renally dose meds
   - On Midodrine / Octreotine for HRS (started once urine lytes [**3-20**] with
   Na < 10)
   - No need to give kayexalate as is on CVVH
   # Anemia/Thrombocytopenia:  HCT stable.  Neg DIC [**Month/Year (2) **].  s/p 2 units
   prbcs [**2189-02-21**].  Likely multifactorial, no obvious signs of bleeding.
   Plt <100 [**3-21**] though appears to be stabilizing.  Increased to 93
   today.  ? medication effect.  Had been worsening over the last few days
   in the setting of vanco and other antibiotics.  [**Month (only) 8**] also be related to
   liver failure and low thrombopoeitin, as well as splenic
   sequestration.  Not thought to be HIT given many other reasons to be
   thrombocytopenic
   - Trend HCT, transfuse for HCT<21; last transfused 2u PRBC [**2189-3-22**]
   - IV PPI [**Hospital1 **]
   - Active T/S
   - Guaiac stools & daily HCT
   - Started epo [**3-20**]
   - Trend Plts -> DIC neg
   - D/C Flagyl yesterday
   - Blood smear with 2+ schistocytes, ? low grade DIC, cont to monitor
   # DM Type I: Developed DKA while here. Hypoglycemic intermittently
   overnight, glucose has been difficult to control.
   - trophic TFs restart [**2189-3-22**]
   - D/C TPN
   - Will need insulin support
   # HCV Cirrhosis/ESLD:  Chronic HCV infection. Liver consult team
   following.  Transaminases stable.  Bilirubin has been trending
   upwards.  Likely related to acute infection and poor liver
   compensation.  [**Month (only) 8**] also be related to medications.  [**Month (only) 8**] also have
   component of hemolysis.  U/S [**3-23**] with poor portal flow, no other acute
   processes.  No obvious thrombosis.  INR also indicative of
   decompensated liver disease, INR 3.2 today.  Also malnuourished.  DIC
   panel negative.  Vit K no help.
   Coagulopathy:
   - Cont to trend INR
   - Transfuse FFP prn for bleeding
   - Close monitoring for other causes -> ie DIC [**Month/Year (2) **]
   - No signs of bleeding currently
   Hyperbili:
   - Cont to trend
   - f/u with liver re: U/S and poor portal flow, hold off CT scan given
   this would not change mgmt, ie anticoagulation
   Transaminases:
   - Cont to trend
   Encephalopathy:
   - Restart lactulose PO
   # Pain Management: Less of an issue given current mental status
   - Dilaudid prn; not using currently given her AMS for ?sepsis
   # Weakness: Likely ICU myopathy [**1-26**] prolonged illness, paralytics.
   Once improves pursue PT/OT & ultimately plan to rehab
   # FEN:   trophic TF /  TPN w/ Lipids if unable to take TFs - [**2189-3-21**]
   05:14 AM 53 mL/hour
   - restart TF
   # PPx:   Pneumoboots as DVT prophylaxis / VAP bundle / PPI as GI ppx.
    # Access
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-10**] 03:35 P
   Arterial Line - [**2189-3-19**] 05:10 PM
   # Contact: With [**Last Name (LF) 4495**]
, [**First Name8 (NamePattern2) **] [**Name (NI) 2002**] [**Telephone/Fax (1) 2754**] (HCP)
   # Code: Full Code
   # Dispo: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2189-3-24**] 05:39 PM 53 mL/hour
   Vivonex (Full) - [**2189-3-25**] 01:52 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-4**] 03:00 PM
   Multi Lumen - [**2189-3-10**] 03:35 PM
   Arterial Line - [**2189-3-19**] 05:10 PM
   Dialysis Catheter - [**2189-3-21**] 06:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU